2123-11-25 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   2 units FFP-> Cordis d/ced, CVL placed, temporary HD line placed for
   CVVH. Reconfirmed Full code. CVVH started. Abdominal u/s: nonocclusive
   thrombus in portal vein. Overnight- difficult to ventilate, bucking the
   vent, PIPs and CO2 rising- paralyzed w/cisatricuronium.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2123-11-24**] 08:43 PM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Cisatracurium - 0.06 mg/Kg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2123-11-24**] 04:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-11-25**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.1
C (97
   HR: 92 (92 - 118) bpm
   BP: 95/50(68) {79/43(55) - 121/68(85)} mmHg
   RR: 32 (0 - 45) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    Bladder pressure: 11 (11 - 11) mmHg
   Total In:
                                                                  1,167 mL
                                                                    713 mL
   PO:
   TF:
   IVF:
                                                                    526 mL
                                                                    713 mL
   Blood products:
                                                                    581 mL
   Total out:
                                                                     85 mL
                                                                    582 mL
   Urine:
                                                                     51 mL
                                                                     11 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,082 mL
                                                                    131 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (350 - 400) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Hemodynamic Instability
   PIP: 42 cmH2O
   Plateau: 38 cmH2O
   Compliance: 15.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.14/66/63/23/-7
   Ve: 13.5 L/min
   PaO2 / FiO2: 63
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) Rub, (Murmur:
   Systolic, Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Abdominal: No(t) Bowel sounds present, Distended, Obese, scar noted,
   +HSM
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   69 K/uL
   8.0 g/dL
   101 mg/dL
   3.0 mg/dL
   23 mEq/L
   3.2 mEq/L
   48 mg/dL
   108 mEq/L
   143 mEq/L
   23.8 %
   11.4 K/uL
        [image002.jpg]
                            [**2123-11-24**]  02:40 PM
                            [**2123-11-24**]  02:47 PM
                            [**2123-11-24**]  04:57 PM
                            [**2123-11-24**]  07:03 PM
                            [**2123-11-24**]  09:52 PM
                            [**2123-11-24**]  09:56 PM
                            [**2123-11-25**]  03:01 AM
                            [**2123-11-25**]  05:25 AM
                            [**2123-11-25**]  05:39 AM
   WBC
   8.8
   11.4
   Hct
   25.9
   23.8
   Plt
   71
   69
   Cr
   3.8
   4.3
   3.0
   TCO2
   20
   21
   19
   22
   24
   24
   Glucose
   115
   99
   101
   Other labs: PT / PTT / INR:21.7/54.0/2.1, CK / CKMB / Troponin-T:28//,
   ALT / AST:37/168, Alk Phos / T Bili:52/21.2, Differential-Neuts:84.0 %,
   Lymph:13.3 %, Mono:1.7 %, Eos:0.7 %, Fibrinogen:499 mg/dL, Lactic
   Acid:2.1 mmol/L, Albumin:3.0 g/dL, LDH:491 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
   45 year old female with EtOH hepatitis/cirrhosis admitted to OSH for
   acute hepatic failure and altered mental status now transferred to
   [**Hospital1 19**] with shock, respiratory failure, and ARF.
   .
   # Shock: Likely septic in the setting of fevers since [**11-21**], multiple
   possible sources including MSSA bacteremia, E coli UTI, and pancolitis
   of unclear etiology.  Acute hepatic failure set up for septic shock.
   [**11-20**] MSSA 1/2 bottles, [**11-22**] GPC [**1-2**].
   - positive blood cx concerning for endocarditis
   - surveillance cx
   - continue Levophed to maintain MAP > 65, CVP 8-12
   - cont oral vanco for empiric C diff.
   - send C diff antigen
   - cont Zosyn for broad coverage including MSSA bacteremia
   - Add IV vanco to broaden coverage given unclear failure to improve
   despite appropriate antibiotics
   - Resend blood, sputum, urine cx and follow-up OSH blood, urine and
   sputum cultures
   - TTE, TEE if needed
   - repeat CT abdomen/pelvis here
   - Transfuse for Hct > 30
   .
   # Respiratory failure: patient became hypoxic and intubated in the
   setting of oliguric renal failure, volume challenge with FFP, and
   trendelenberg positioning for line placement.  Most likely etiologies
   include aspiration and flash pulmonary edema.  CXR now with bilateral
   pulmonary infiltrates. PaO2/FiO2 64/.55 w/PEEP 15. Could not get PCWP
   at OSH but presumably now with ARDS d/t aspiration and shock.
   - ARDSNET ventilation, 6cc/kg IBW TVs
   - wean FiO2 if possible
   - PEEP to maintain PaO2>60
   - check CXR now
   - TTE here
   .
   # Renal failure: ATN in setting of hypotension vs hepatorenal
   syndrome.  Could also consider complement induced glomerulonephritis if
   concern for endocarditis given MSSA bacteremia. Oliguric at OSH w/[**4-10**]
   cc UOP/h prior to transfer.
   - wean pressors
   - U/A
   - urine sediment
   - urine lytes
   - if evidence of HRS, consider albumin
   - hold off on midodrine octreotide as currently on levophed
   - [**Hospital1 7**] lytes
   - renal consulted, appreciate their input
   .
   # Altered mental status: multiple possible etiologies including hepatic
   encephalopathy or other possible toxic metabolic encephalopathies in
   the setting of shock and hypoxia.
   - cont lactulose
   - start rifaximin
   - supportive care as above
   - liver consult, appreciate their input
   .
   # Anion gap Metabolic Acidosis: In the setting of etoh, shock, renal
   failure. lactate is 2.8 here.
   - AG of 15, corrected for hypoalbuminemia it is closer to 18
   - continue to monitor, trend lactate
   - Q6h ABGs
   - plan for CVVH
   .
   # Hepatitis: alcoholic most likley w/component of shock
   - Tylenol level negative at OSH
   - [**Doctor First Name **], anti-mitochondrial ab, Sm ab, RNP ab negative at OSH
   - r/o infectious: send Hep serologies
   - f/u CMV serologies at OSH
   - f/u OSH HIV antibodies
   - appreciate liver input
   - daily LFTS, coags, plts
   ICU Care
   Nutrition: Nutrition consulted for tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2123-11-24**] 02:29 PM
   Dialysis Catheter - [**2123-11-24**] 05:33 PM
   Multi Lumen - [**2123-11-24**] 09:25 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2123-11-26 07:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2123-11-25**] 12:20 PM
   Peep up to 14
   Fio2 down to 80
   Mild incr pressor requirement
   Ran even on CVVH
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2123-11-25**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2123-11-26**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Cisatracurium - 0.13 mg/Kg/hour
   Norepinephrine - 0.22 mcg/Kg/min
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2123-11-26**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-11-26**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.3
C (97.3
   HR: 77 (76 - 94) bpm
   BP: 101/50(70) {75/41(55) - 135/77(102)} mmHg
   RR: 32 (0 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    Bladder pressure: 14 (14 - 14) mmHg
   Total In:
                                                                  3,968 mL
                                                                  1,643 mL
   PO:
   TF:
   IVF:
                                                                  3,808 mL
                                                                  1,583 mL
   Blood products:
   Total out:
                                                                  3,987 mL
                                                                  2,014 mL
   Urine:
                                                                     36 mL
                                                                      5 mL
   NG:
                                                                    530 mL
   Stool:
   Drains:
   Balance:
                                                                    -19 mL
                                                                   -371 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 42 cmH2O
   Plateau: 38 cmH2O
   SpO2: 97%
   ABG: 7.28/37/96.[**Numeric Identifier 181**]/17/-8
   Ve: 12.6 L/min
   PaO2 / FiO2: 121
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   80 K/uL
   7.9 g/dL
   113 mg/dL
   2.0 mg/dL
   17 mEq/L
   3.6 mEq/L
   28 mg/dL
   107 mEq/L
   136 mEq/L
   22.5 %
   9.8 K/uL
        [image002.jpg]
                            [**2123-11-25**]  10:42 AM
                            [**2123-11-25**]  10:55 AM
                            [**2123-11-25**]  12:25 PM
                            [**2123-11-25**]  02:39 PM
                            [**2123-11-25**]  05:37 PM
                            [**2123-11-25**]  05:49 PM
                            [**2123-11-25**]  10:24 PM
                            [**2123-11-25**]  10:33 PM
                            [**2123-11-26**]  04:31 AM
                            [**2123-11-26**]  04:53 AM
   WBC
   9.8
   Hct
   22.5
   Plt
   80
   Cr
   4.8
   1.8
   2.0
   2.0
   TCO2
   22
   22
   19
   21
   21
   18
   Glucose
   122
   102
   102
   113
   Other labs: PT / PTT / INR:21.6/49.0/2.0, CK / CKMB / Troponin-T:28//,
   ALT / AST:70/360, Alk Phos / T Bili:65/21.7, Differential-Neuts:84.0 %,
   Lymph:13.3 %, Mono:1.7 %, Eos:0.7 %, Fibrinogen:499 mg/dL, Lactic
   Acid:1.9 mmol/L, Albumin:3.0 g/dL, LDH:449 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   45 year old female with EtOH hepatitis/cirrhosis admitted to OSH for
   acute hepatic failure and altered mental status now transferred to
   [**Hospital1 19**] with shock, respiratory failure, and ARF.
   # Respiratory failure: P/F ratio consistent w/ ARDS. Currently
   paralyzed.
   - ARDSNET ventilation, 6cc/kg IBW TVs
   - goal peak pressures <30
   - Recruitment man
   - esophageal balloon today to measure pressures
   - will run her negative on CVVH to ensure no element of fluid overload
   - TTE here
   # Shock: Likely septic in the setting of fevers since [**11-21**], multiple
   possible sources including MSSA bacteremia, E coli UTI, and pancolitis
   of unclear etiology.  [**11-20**] MSSA 1/2 bottles, [**11-22**] GPC [**1-2**].
   - positive blood cx concerning for endocarditis
   - surveillance cx
   - continue Levophed to maintain MAP > 65, CVP 8-12
   - f/u C diff antigen, blood, sputum, urine cx
   - cont Vanc/Zosyn
   - follow-up OSH blood, urine and sputum cultures
   - TTE, TEE if needed
   - consider repeat CT abdomen/pelvis here when stable
   - Transfuse for Hct > 30
   # Renal failure: ATN in setting of hypotension vs hepatorenal
   syndrome.  Could also consider complement induced glomerulonephritis if
   concern for endocarditis given MSSA bacteremia. Oliguric at OSH w/[**4-10**]
   cc UOP/h prior to transfer.
   - wean pressors
   - dirty U/A, f/u urine cx
 on zosyn
   - urine lytes c/w ATN
   - [**Hospital1 7**] lytes
   - renal consulted, appreciate their input
   # Hepatitis: alcoholic most likley w/component of shock. U/S w/evidence
   of cirrhosis, portal vein thrombus.
   - Tylenol level negative at OSH
   - [**Doctor First Name **], anti-mitochondrial ab, Sm ab, RNP ab negative at OSH
   - r/o infectious: send Hep serologies
   - f/u CMV serologies at OSH
   - f/u OSH HIV antibodies
   - appreciate liver input
   - daily LFTS, coags, plts
   # Portal vein thrombus: nonocclusive. Monitor LFTs. Hold on
   anticoagulation for now.
   # Anion gap Metabolic Acidosis: Improved. Received CVVH overnight.
   - lactate trending down
   - Q6h ABGs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2123-11-24**] 02:29 PM
   Dialysis Catheter - [**2123-11-24**] 05:33 PM
   Multi Lumen - [**2123-11-24**] 09:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2123-11-27 09:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   TTE: Normal Biventricular function.
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2123-11-27**] 07:13 AM
   Vancomycin - [**2123-11-27**] 08:16 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 150 mcg/hour
   Norepinephrine - 0.18 mcg/Kg/min
   Calcium Gluconate (CRRT) - 2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2123-11-27**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-11-27**] 09:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 35.8
C (96.5
   HR: 61 (61 - 97) bpm
   BP: 116/56(79) {75/33(48) - 126/62(83)} mmHg
   RR: 24 (24 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    Bladder pressure: 10 (10 - 10) mmHg
   Total In:
                                                                  5,983 mL
                                                                  4,331 mL
   PO:
   TF:
                                                                     80 mL
   IVF:
                                                                  5,793 mL
                                                                  3,953 mL
   Blood products:
                                                                    238 mL
   Total out:
                                                                  4,782 mL
                                                                  3,480 mL
   Urine:
                                                                      5 mL
                                                                      5 mL
   NG:
                                                                    420 mL
                                                                     60 mL
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                  1,201 mL
                                                                    851 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 29
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 38 cmH2O
   Plateau: 33 cmH2O
   Compliance: 22.7 cmH2O/mL
   SpO2: 97%
   ABG: 7.42/35/130/20/0
   Ve: 11.3 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, Sclera edema
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic,
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Non-tender
   Skin:  warm
   Neurologic: intubated, sedated.
   Labs / Radiology
   75 K/uL
   7.1 g/dL
   122 mg/dL
   1.2 mg/dL
   20 mEq/L
   2.7 mEq/L
   22 mg/dL
   101 mEq/L
   137 mEq/L
   19.5 %
   10.3 K/uL
        [image002.jpg]
                            [**2123-11-26**]  04:53 AM
                            [**2123-11-26**]  09:04 AM
                            [**2123-11-26**]  10:01 AM
                            [**2123-11-26**]  10:15 AM
                            [**2123-11-26**]  04:28 PM
                            [**2123-11-26**]  09:51 PM
                            [**2123-11-26**]  10:07 PM
                            [**2123-11-27**]  04:17 AM
                            [**2123-11-27**]  04:29 AM
                            [**2123-11-27**]  05:56 AM
   WBC
   10.3
   Hct
   19.5
   Plt
   75
   Cr
   1.9
   1.2
   TCO2
   18
   19
   19
   17
   20
   22
   23
   Glucose
   113
   126
   122
   Other labs: PT / PTT / INR:21.5/46.0/2.0, CK / CKMB / Troponin-T:28//,
   ALT / AST:83/336, Alk Phos / T Bili:75/21.0, Amylase / Lipase:/41,
   Differential-Neuts:84.0 %, Lymph:13.3 %, Mono:1.7 %, Eos:0.7 %,
   Fibrinogen:499 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:2.4 g/dL, LDH:449
   IU/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:1.2 mg/dL
   Imaging: CXR: pleural edema worse on left compared to yesterday
   Microbiology: All Cx: pending
   Assessment and Plan
   45 year old female with EtOH hepatitis/cirrhosis admitted to OSH for
   acute hepatic failure and altered mental status now transferred to
   [**Hospital1 19**] with shock, ARDS and ARF.
   # Respiratory failure: P/F ratio consistent w/ ARDS. Improved
   ventilation w/negative fluid balance.
   - ARDSNET ventilation, 6cc/kg IBW TVs
   - goal peak pressures <30
   - plan to wean down the PEEP today
   - will run her negative on CVVH today
   - Q6h ABGs
   # Shock: Likely septic in the setting of fevers since [**11-21**], multiple
   possible sources including MSSA bacteremia, E coli UTI, and pancolitis
   of unclear etiology.  [**11-20**] MSSA 1/2 bottles, [**11-22**] GPC [**1-2**].
   - OSH lines d/ced, CVL placed [**11-24**]
   - positive blood cx concerning for endocarditis
   - continue surveillance cx
   - wean Levophed as tolerated
   - continue levophed and vasopressin to maintain MAP > 65, CVP 8-12
   - f/u C diff antigen, blood, sputum, urine cx
   - cont Vanc/Zosyn
   - follow-up OSH blood, urine and sputum cultures
   - TTE reveals normal Biventricular function, w/o evidence of
   endocarditis
   - plan for CT abdomen/pelvis here when stable to eval fluid collection
   # Renal failure: likely ATN in setting of shock.  Persistent Oliguria
   w/5-10 cc UOP/h.
   - cont CVVH
   - wean pressors
   - [**Hospital1 7**] lytes
   - renal consulted, appreciate their input
   # Anemia: Elevated T.bili, D. bili 9. In the setting of HSM.
   -          Resend hemolysis labs
   -          [**Hospital1 7**] HCTs
   -          Transfuse for HCT <21
   # Hepatitis: alcoholic most likley w/component of shock. U/S w/evidence
   of cirrhosis, portal vein thrombus.
   - Tylenol level negative at OSH
   - [**Doctor First Name **], anti-mitochondrial ab, Sm ab, RNP ab negative at OSH
   - r/o infectious: send Hep serologies
   - f/u CMV serologies at OSH
   - f/u OSH HIV antibodies
   - appreciate liver input
   - daily LFTS, coags, plts
   # Portal vein thrombus: nonocclusive. Hold on anticoagulation for now.
   ICU Care
   Nutrition: tube feeds started. f/u nutrition recs. Replete lytes.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2123-11-24**] 02:29 PM
   Dialysis Catheter - [**2123-11-24**] 05:33 PM
   Multi Lumen - [**2123-11-24**] 09:25 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication: Patient discussed on interdisciplinary rounds
   Code status: Full code
   Disposition:ICU

2123-11-28 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No major events overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2123-11-27**] 08:16 AM
   Piperacillin/Tazobactam (Zosyn) - [**2123-11-28**] 02:10 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Norepinephrine - 0.15 mcg/Kg/min
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2123-11-28**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-11-28**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.4
   HR: 93 (61 - 96) bpm
   BP: 109/48(69) {98/43(61) - 128/66(88)} mmHg
   RR: 29 (18 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  9,624 mL
                                                                  2,347 mL
   PO:
             TF:
                                                                     80 mL
   IVF:
                                                                  9,079 mL
                                                                  2,317 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                 10,064 mL
                                                                  4,029 mL
   Urine:
                                                                     73 mL
   NG:
                                                                    810 mL
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                   -440 mL
                                                                 -1,682 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 29
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 30 cmH2O
   Compliance: 20 cmH2O/mL
   SpO2: 96%
   ABG: 7.39/38/90.[**Numeric Identifier 126**]/22/-1
   Ve: 11.2 L/min
   PaO2 / FiO2: 180
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: diffusely)
   Abdominal: Non-tender, Bowel sounds present, Distended, Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, withdraws to light in eye, no response to sternal rub
   Labs / Radiology
   74 K/uL
   8.0 g/dL
   119 mg/dL
   1.2 mg/dL
   22 mEq/L
   3.1 mEq/L
   16 mg/dL
   101 mEq/L
   136 mEq/L
   22.5 %
   11.9 K/uL
        [image002.jpg]
                            [**2123-11-27**]  04:29 AM
                            [**2123-11-27**]  05:56 AM
                            [**2123-11-27**]  09:52 AM
                            [**2123-11-27**]  10:25 AM
                            [**2123-11-27**]  02:42 PM
                            [**2123-11-27**]  04:09 PM
                            [**2123-11-27**]  06:07 PM
                            [**2123-11-28**]  02:11 AM
                            [**2123-11-28**]  04:20 AM
                            [**2123-11-28**]  04:37 AM
   WBC
   11.9
   Hct
   25
   22.0
   22.5
   Plt
   74
   Cr
   0.9
   1.2
   TCO2
   22
   23
   23
   24
   23
   24
   24
   Glucose
   125
   124
   119
   Other labs: PT / PTT / INR:20.6/42.0/1.9, CK / CKMB / Troponin-T:28//,
   ALT / AST:92/367, Alk Phos / T Bili:99/23.9, Amylase / Lipase:/41,
   Differential-Neuts:84.0 %, Lymph:13.3 %, Mono:1.7 %, Eos:0.7 %,
   Fibrinogen:499 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.4 g/dL, LDH:449
   IU/L, Ca++:9.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Imaging: No new reports
   Microbiology: No growth
   Assessment and Plan
 ANEMIA, HEMOLYTIC
 CIRRHOSIS OF LIVER, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   45 year old female with EtOH hepatitis/cirrhosis admitted to OSH for
   acute hepatic failure and altered mental status now transferred to
   [**Hospital1 19**] with shock, ARDS and ARF, intubated on pressors and CVVH.
   .
   # Respiratory failure: ARDS thought [**1-2**] sepsis
 unclear etiology.
   Improved ventilation w/ negative fluid balance.  Continue to run net
   negative.
   - ARDSNET ventilation, 6cc/kg IBW TVs
   - goal peak pressures <30
   - plan to wean down the PEEP today as tolerated in preparation for
   PSupport
   - will run her negative on CVVH today
   - q8h ABGs
   .
   # Shock: Likely septic in the setting of fevers since [**11-21**], multiple
   possible sources including MSSA bacteremia, E coli UTI, and pancolitis
   of unclear etiology.  [**11-20**] MSSA 1/2 bottles, [**11-22**] GPC [**1-2**].
   - OSH lines d/ced, CVL placed [**11-24**]
   - positive blood cx concerning for endocarditis so would continue
   surveillance cx although now negative.
   - continue levophed and vasopressin to maintain MAP > 65, CVP 8-12 and
   wean as tolerated
   - f/u C diff antigen, blood, sputum, urine cx
   - cont Vanc/Zosyn
   - follow-up OSH blood, urine and sputum cultures
   - TTE reveals normal Biventricular function, w/o evidence of
   endocarditis -> consider TEE while intubated to r/o vegetations
   although ongoing cultures negative.
   - plan for CT abdomen/pelvis here when stable to eval fluid collection
   -> too unstable to leave for CT at this time.
   - Wean pressors with goal MAP > 60
   .
   # Renal failure: likely ATN in setting of shock.  Persistent Oliguria
   w/5-10 cc UOP/h.  Further mgmt as per renal team - ? need for HD in
   long run if acute episode resolves.
   - cont CVVH
   - wean pressors
   - [**Hospital1 7**] lytes
   - renal consulted, appreciate their input
   .
   # Mental Status: off sedation with minimal responsiveness, but
   improving alertness over last 12 hours.  would consider head CT and
   neuro evaluation if mental status does not continue to improve.  Will
   be slow to recover however given toxic/metabolic derangements, renal
   failure and need for CVVH.
   - head CT when able if mental status not improving.
   - follow mental status, and consider neuro consult for prognosis if
   does not improve.
   .
   # Anemia: Elevated T.bili, D. bili 9. In the setting of HSM.
   - Resend hemolysis labs
   - [**Hospital1 7**] HCTs
   - Transfuse for HCT <21, maintain net out
   - Iron studies, guaiac stools
   .
   # Hepatitis: alcoholic most likley w/component of shock. U/S w/evidence
   of cirrhosis, portal vein thrombus.
   - Tylenol level negative at OSH
   - [**Doctor First Name **], anti-mitochondrial ab, Sm ab, RNP ab negative at OSH
   - r/o infectious: send Hep serologies
   - f/u CMV serologies at OSH
   - f/u OSH HIV antibodies
   - appreciate liver input
   - daily LFTS, coags, plts
   - consider paracentesis for SBP (although unclear benefit at this point
   given on antibiotics for multiple days now)
   .
   #Abdominal Distension: KUB today to eval for obstruction/ileus given
   high residuals on tube feeds yesterday.  Not likely to be acutely
   obstructed given stool in flexo-seal this AM.
   - Consider CT A/P and paracentesis
   - hold constipating medications such as opiates, and continue with
   bowel regimen.
   - Monitor for abdominal compartment syndrome
   .
   # Portal vein thrombus: nonocclusive. Hold on anticoagulation for now
   given thrombocytopenia.
   .
   # Goals of Care: Need family meeting to discuss overall plan. will
   depend on mental status.  Plan to meet on [**2123-12-1**].
   # PPx: Pneumoboots, VAP care, bowel regimen
   # Code Status: FULL
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2123-11-24**] 02:29 PM
   Dialysis Catheter - [**2123-11-24**] 05:33 PM
   Multi Lumen - [**2123-11-24**] 09:25 PM
   20 Gauge - [**2123-11-27**] 09:29 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2123-11-29 07:47:00 Physician Resident Progress Note
Chief Complaint: 45 year old female with a history of EtOH
   hepatitis/cirrhosis with septic shock on pressors, aspiration/ARDS,
   [**Hospital 4573**] transfer from [**Hospital 880**] hospital for CVVH for volume overload.
   24 Hour Events:
   - KUB showing FOS
   - still with high residuals on tube feeds and minimal stool output
   - CVVH with net out of 50cc/hr
   - Mental status improving slowly
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2123-11-27**] 08:16 AM
   Piperacillin/Tazobactam (Zosyn) - [**2123-11-29**] 02:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Insulin - Regular - [**2123-11-28**] 12:00 PM
   Famotidine (Pepcid) - [**2123-11-29**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-11-29**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.5
C (97.7
   HR: 85 (84 - 100) bpm
   BP: 104/48(67) {98/42(60) - 132/70(326)} mmHg
   RR: 25 (18 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  6,874 mL
                                                                  2,225 mL
   PO:
             TF:
   IVF:
                                                                  6,664 mL
                                                                  2,165 mL
   Blood products:
   Total out:
                                                                  9,635 mL
                                                                  2,499 mL
   Urine:
                                                                     32 mL
                                                                      5 mL
   NG:
                                                                    310 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,761 mL
                                                                   -274 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 400) mL
   Vt (Spontaneous): 542 (390 - 542) mL
   PS : 22 cmH2O
   RR (Set): 0
   RR (Spontaneous): 23
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 108
   PIP: 32 cmH2O
   Plateau: 25 cmH2O
   Compliance: 24.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/39/162/23/0
   Ve: 12.9 L/min
   PaO2 / FiO2: 324
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: coarse b/s bilaterally anteriorly
   Abdominal: No(t) Soft, No(t) Bowel sounds present, Distended, No(t)
   Tender:
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: Not assessed, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   59 K/uL
   7.6 g/dL
   114 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.9 mEq/L
   13 mg/dL
   101 mEq/L
   136 mEq/L
   21.2 %
   13.5 K/uL
        [image002.jpg]
                            [**2123-11-28**]  04:20 AM
                            [**2123-11-28**]  04:37 AM
                            [**2123-11-28**]  10:10 AM
                            [**2123-11-28**]  10:34 AM
                            [**2123-11-28**]  02:35 PM
                            [**2123-11-28**]  03:57 PM
                            [**2123-11-28**]  04:36 PM
                            [**2123-11-29**]  02:02 AM
                            [**2123-11-29**]  02:07 AM
                            [**2123-11-29**]  06:35 AM
   WBC
   11.9
   13.5
   Hct
   22.5
   21.2
   Plt
   74
   59
   Cr
   1.2
   1.2
   1.0
   TCO2
   24
   23
   23
   26
   25
   25
   Glucose
   119
   119
   118
   114
   Other labs: PT / PTT / INR:22.4/59.9/2.1, CK / CKMB / Troponin-T:28//,
   ALT / AST:103/393, Alk Phos / T Bili:107/24.7, Amylase / Lipase:/41,
   Differential-Neuts:84.0 %, Lymph:13.3 %, Mono:1.7 %, Eos:0.7 %,
   Fibrinogen:499 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.4 g/dL, LDH:345
   IU/L, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Imaging: IMPRESSION:
   Markedly limited study. Nonspecific bowel gas pattern. Close clinical
   followup is recommended.
   Microbiology: No new growth
   ECG: No new
   Assessment and Plan
 ANEMIA, HEMOLYTIC
 CIRRHOSIS OF LIVER, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   45 year old female with EtOH hepatitis/cirrhosis admitted to OSH for
   acute hepatic failure and altered mental status now transferred to
   [**Hospital1 19**] with shock, ARDS and ARF, intubated on pressors and CVVH.
   .
   # Respiratory failure: ARDS thought [**1-2**] sepsis
 unclear etiology.
   Improved ventilation w/ negative fluid balance.  Continue to run net
   negative.  ABG stable, weaning PEEP and now tolerating PSupport.  As
   mental status improves can consider extubation.
   - ARDSNET ventilation, 6cc/kg IBW TVs
   - goal peak pressures <30
   - plan to wean down the PEEP today as tolerated in preparation for
   PSupport
   - will run her negative on CVVH today
   - q8h ABGs
   .
   # Shock: Likely septic in the setting of fevers since [**11-21**], multiple
   possible sources including MSSA bacteremia, E coli UTI, and pancolitis
   of unclear etiology, and perihepatic fluid collection.  [**11-20**] MSSA [**12-2**]
   bottles, [**11-22**] GPC [**1-2**].
   - OSH lines d/ced, CVL placed [**11-24**]
   - consider TEE
   - positive blood cx concerning for endocarditis so would continue
   surveillance cx although now negative.
   - continue levophed and vasopressin to maintain MAP > 65, CVP 8-12 and
   wean as tolerated
   - f/u C diff antigen, blood, sputum, urine cx
   - cont Vanc/Zosyn
   - follow-up OSH blood, urine and sputum cultures
   - TTE reveals normal Biventricular function, w/o evidence of
   endocarditis -> consider TEE while intubated to r/o vegetations
   although ongoing cultures negative.
   - plan for CT abdomen/pelvis here when stable to eval fluid collection
   -> too unstable to leave for CT at this time.
   - Wean pressors with goal MAP > 60
   .
   # Renal failure: likely ATN in setting of shock.  Persistent Oliguria
   w/5-10 cc UOP/h.  Further mgmt as per renal team - ? need for HD in
   long run if acute episode resolves.
   - cont CVVH
   - wean levophed as tolerated
   - [**Hospital1 7**] lytes
   - renal consulted, appreciate their input
   .
   # Mental Status: off sedation with minimal responsiveness, but
   improving alertness over last 12 hours.  would consider head CT and
   neuro evaluation if mental status does not continue to improve.  Will
   be slow to recover however given toxic/metabolic derangements, renal
   failure and need for CVVH.
   - head CT when able if mental status not improving.
   - follow mental status, and consider neuro consult for prognosis if
   does not improve.
   .
   # Anemia: Elevated T.bili, D. bili 9. In the setting of HSM.
   - Resend hemolysis labs
   - [**Hospital1 7**] HCTs
   - Transfuse for HCT <21, maintain net out
   - Iron studies, guaiac stools
   .
   # Hepatitis: alcoholic most likley w/component of shock. U/S w/evidence
   of cirrhosis, portal vein thrombus.
   - Tylenol level negative at OSH
   - [**Doctor First Name **], anti-mitochondrial ab, Sm ab, RNP ab negative at OSH
   - r/o infectious: send Hep serologies
   - f/u CMV serologies at OSH
   - f/u OSH HIV antibodies
   - appreciate liver input
   - daily LFTS, coags, plts
   - consider paracentesis for SBP (although unclear benefit at this point
   given on antibiotics for multiple days now)
   .
   #Ileus/Abdominal Distension: KUB yesterday FOS, repeat today, consider
   bowel rest, stopping tube feeds and starting TPN for nutrition
   - Consider CT A/P and paracentesis PRN
   - hold constipating medications such as opiates, and continue with
   bowel regimen.
   - Monitor for abdominal compartment syndrome
   .
   # Portal vein thrombus: nonocclusive. Hold on anticoagulation for now
   given thrombocytopenia and elevated INR from liver dysfunction
   .
   # Goals of Care: Need family meeting to discuss overall plan. will
   depend on mental status.  Plan to meet on [**2123-12-1**].
   # PPx: Pneumoboots, VAP care, bowel regimen
   # Code Status: FULL
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2123-11-24**] 02:29 PM
   Dialysis Catheter - [**2123-11-24**] 05:33 PM
   Multi Lumen - [**2123-11-24**] 09:25 PM
   20 Gauge - [**2123-11-27**] 09:29 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2123-11-29 11:18:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   45 year old woman transfered from OSH with ARDS, ARF, and acute heaptic
   failure. Please see previous notes for details.
   24 Hour Events:
   High tube feed residulas - KUB with non-specific bowel gas pattern.
   Off sedation x 2 days, still minimal interaction.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2123-11-29**] 08:07 AM
   Vancomycin - [**2123-11-29**] 10:09 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Insulin - Regular - [**2123-11-28**] 12:00 PM
   Famotidine (Pepcid) - [**2123-11-29**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-11-29**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36
C (96.8
   HR: 87 (84 - 100) bpm
   BP: 99/47(67) {98/42(60) - 132/70(326)} mmHg
   RR: 23 (18 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  6,874 mL
                                                                  3,479 mL
   PO:
             TF:
   IVF:
                                                                  6,664 mL
                                                                  3,419 mL
   Blood products:
   Total out:
                                                                  9,635 mL
                                                                  4,044 mL
   Urine:
                                                                     32 mL
                                                                      5 mL
   NG:
                                                                    310 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,761 mL
                                                                   -565 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 400) mL
   Vt (Spontaneous): 467 (390 - 542) mL
   PS : 22 cmH2O
   RR (Set): 0
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 108
   PIP: 31 cmH2O
   Plateau: 25 cmH2O
   Compliance: 24.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.36/44/86/22/0
   Ve: 9.4 L/min
   PaO2 / FiO2: 172
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Purposeful, Tone: Not
   assessed
   Labs / Radiology
   7.6 g/dL
   59 K/uL
   110 mg/dL
   1.0 mg/dL
   22 mEq/L
   4.2 mEq/L
   13 mg/dL
   102 mEq/L
   135 mEq/L
   21.2 %
   13.5 K/uL
        [image002.jpg]
                            [**2123-11-28**]  10:10 AM
                            [**2123-11-28**]  10:34 AM
                            [**2123-11-28**]  02:35 PM
                            [**2123-11-28**]  03:57 PM
                            [**2123-11-28**]  04:36 PM
                            [**2123-11-29**]  02:02 AM
                            [**2123-11-29**]  02:07 AM
                            [**2123-11-29**]  06:35 AM
                            [**2123-11-29**]  07:26 AM
                            [**2123-11-29**]  08:02 AM
   WBC
   13.5
   Hct
   21.2
   Plt
   59
   Cr
   1.2
   1.0
   TCO2
   23
   23
   26
   25
   25
   26
   Glucose
   119
   118
   114
   110
   Other labs: PT / PTT / INR:22.4/59.9/2.1, CK / CKMB / Troponin-T:28//,
   ALT / AST:103/393, Alk Phos / T Bili:107/24.7, Amylase / Lipase:/41,
   Differential-Neuts:84.0 %, Lymph:13.3 %, Mono:1.7 %, Eos:0.7 %,
   Fibrinogen:499 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.4 g/dL, LDH:345
   IU/L, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Imaging: Bibasilar airspace opacitiy
   Assessment and Plan
   45 year old woman with acute hepatic failure , thought secondary to
   etoh. Course complicated by ARDS and MODS. Still with low P:F, would
   favor AC with low tidal volume ventilation
   as long as she tolerates it off sedation. continues on CVVH for ARF.
   Hypotension secondary to distributive shock, on borad spectrum
   antibiotic with only positive culture being 1 bld culture of MSSA. Abx
   as per resident note. Weaning Norepi and vasopressin with goal MAP >
   60. As long as pressore coming down, agree with running CVVH slightly
   negative in effort to improve oxygenation. Further plans
   as per resident note.
   ICU Care
   Nutrition:
   Comments: tube feeds on hold [**1-2**] high residulas
   Glycemic Control:
   Lines:
   Arterial Line - [**2123-11-24**] 02:29 PM
   Dialysis Catheter - [**2123-11-24**] 05:33 PM
   Multi Lumen - [**2123-11-24**] 09:25 PM
   20 Gauge - [**2123-11-27**] 09:29 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Family meeting scheduled for Wednesday
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2123-11-30 07:50:00 Physician Resident Progress Note
24 Hour Events:
   - Discussed placement of central line, and decision made that it was
   okay to continue to use, not to re-site.
   - Outside hospital called for hepatitis serologies, culture data;
   outside hospital was unsure if they were drawn, so re-ordered here.
   This morning patient opening eyes, tracks people in room. Appears to
   trying to be following some commands, although inconsistent. More awake
   as compared to yesterday.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2123-11-29**] 10:09 AM
   Piperacillin/Tazobactam (Zosyn) - [**2123-11-30**] 02:08 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2123-11-30**] 04:00 AM
   Other medications:
   - Reglan 5 mg IV Q6H
   - Atrovent and Albuterol Q4H
   - Rifaximin 200 mg TID
   - Lactulose 30 mL TID
   - Insulin SS
   - Famotidine 20 mg Q12H IV
   - Colace, Senna, Bisacodyl PRN
   - Chlorhexidine
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   No new data
   Flowsheet Data as of  [**2123-11-30**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.3
C (97.4
   HR: 93 (84 - 97) bpm
   BP: 99/46(65) {92/40(59) - 119/58(80)} mmHg
   RR: 19 (18 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 8 (8 - 8)mmHg
   Total In:
                                                                  7,344 mL
                                                                  2,417 mL
   PO:
   TF:
                                                                     27 mL
   IVF:
                                                                  6,884 mL
                                                                  2,330 mL
   Blood products:
                                                                    280 mL
   Total out:
                                                                  9,450 mL
                                                                  3,270 mL
   Urine:
                                                                     18 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,106 mL
                                                                   -853 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 428 (340 - 469) mL
   PS : 15 cmH2O
   RR (Spontaneous): 24
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 66
   RSBI Deferred: RR >35
   PIP: 24 cmH2O
   SpO2: 100%
   ABG: 7.35/41/90.[**Numeric Identifier 126**]/21/-2 (5:14 AM)
   Ve: 10.2 L/min
   PaO2 / FiO2: 180
   Physical Examination
   General: Awake, opens eyes spontaneously, does not appear to be in any
   distress
   HEENT: Scleral icterus present, PERRL, MMM, ETT in place
   Neck: Supple, left IJ in place, former site of right IJ without
   erythema
   Lungs: CTAB, no w/r/r
   Cardiac: RR, S1, S2, no m/g/r appreciated
   Abd: Slightly distended but improved, +BS, appears non-tender
   Extr: Warm, no clubbing/cyanosis
   Neuro: Awake, PERRL, moving all extremities spontaneous, appears to
   attempt to follow commands
   Labs / Radiology
   57 K/uL
   8.4 g/dL
   102 mg/dL
   1.2 mg/dL
   21 mEq/L
   3.5 mEq/L
   9 mg/dL
   104 mEq/L
   137 mEq/L
   23.1 %
   13.5 K/uL
        [image002.jpg]
                            [**2123-11-29**]  06:35 AM
                            [**2123-11-29**]  07:26 AM
                            [**2123-11-29**]  08:02 AM
                            [**2123-11-29**]  11:44 AM
                            [**2123-11-29**]  04:55 PM
                            [**2123-11-29**]  06:25 PM
                            [**2123-11-29**]  11:03 PM
                            [**2123-11-29**]  11:10 PM
                            [**2123-11-30**]  05:08 AM
                            [**2123-11-30**]  05:14 AM
   WBC
   13.5
   Hct
   23.1
   Plt
   57
   Cr
   1.2
   1.2
   1.2
   TCO2
   25
   26
   24
   25
   24
   24
   Glucose
   110
   106
   118
   102
   Other labs: PT / PTT / INR:24.8/54.1/2.4, CK / CKMB / Troponin-T:28//,
   ALT / AST:108/381, Alk Phos / T Bili:106/26.8, Amylase / Lipase:/41,
   Differential-Neuts:84.0 %, Lymph:13.3 %, Mono:1.7 %, Eos:0.7 %,
   Fibrinogen:499 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.4 g/dL, LDH:316
   IU/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   Hepatitis Serologies Pending
   Microbiologic Data:
   [**11-28**] C. Difficile toxin negative
   Otherwise no new culture data
   Imaging:
   [**11-30**] Chest x-ray: Read pending
   Assessment and Plan:
   Patient is a 45 year old female with likely EtOH hepatitis/cirrhosis
   admitted to OSH for acute hepatic failure and altered mental status now
   transferred to [**Hospital1 19**] with shock, ARDS and ARF, intubated on pressors
   and CVVH, but with improving mental status and respiratory status over
   last 24 hours.
   .
   # Respiratory failure: Decreasing ventilatory support needed over last
   24 hours, with improved oxygenation. It was felt patient had ARDS
   thought [**1-2**] sepsis
 unclear etiology. She has been running negative on
   CVVH, and appears to be close to euvolemic, will run even to only
   slightly negative in order to decrease and hopefully eliminate pressor
   need.
   - Patient was on ARDSNET ventilation, 6cc/kg IBW TVs, but will switch
   over to PS and complete SBT, RSBI.
   - Goal peak pressures <3,
   - Will run her even to slightly negative on CVVH today as tolerated
   - q8h ABGs
   .
   # Shock: Likely septic in the setting of fevers since [**11-21**], multiple
   possible sources including MSSA bacteremia, E coli UTI, and pancolitis
   of unclear etiology, and perihepatic fluid collection.  [**11-20**] MSSA [**12-2**]
   bottles, [**11-22**] GPC [**1-2**].
   - OSH lines d/ced, CVL placed [**11-24**]
   - TTE negative, TEE deferred given not high grade bacteremia
   - Currently have weaned off levophed, will aim to wean off vasopressin
   to maintain MAP > 65, CVP 8-12
   - Cultures here have been negative to date, c. difficile negative
   - Cont Vanc/Zosyn, but will clarify final culture results and aim to
   narrow antibiotics to specific bacterial sources, will need at least 2
   week course for bacteremia. (Will clarify outside hospital antibiotics
   and culture data)
   - follow-up OSH blood, urine and sputum cultures, HIV test
   - Will defer CT abdomen/pelvis given that patient is clinically
   improving, and would not attempt to sample fluid.
   - Wean pressors with goal MAP > 60
   .
   # Renal failure: No significant change in renal function. Likely ATN in
   setting of shock.  Persistent oliguria. Appreciate renal assistance.
   Hope is to wean pressors and then transition to HD as needed.
   - Continue CVVH until able to tolerate another method of renal
   replacement hemodynamically.  Will attempt to run out as long as
   pressor requirement does not increase
   - [**Hospital1 7**] lytes
   .
   # Mental Status: Improving daily, appears to be attempting to follow
   some commands. Has been off all sedation for >36  hours.  Will likely
   be slow to recover however given toxic/metabolic derangements, renal
   failure and need for CVVH.
   -          Follow mental status, and consider head CT/neuro consult for
   prognosis if does not improve.
   -          Continue lactulose for possible component of hepatic
   encephalopathy
   .
   # Anemia: Stable, HCT today 23 (up from 21). Elevated T.bili, D. bili
   9. In the setting of HSM.
   - Transfuse for HCT <21, monitor for evidence of bleeding.
   - Iron studies as noted previously, guaiac stools
   .
   # Hepatitis: Suspecte alcoholic most likely with component of shock.
   U/S w/evidence of cirrhosis, portal vein thrombus (non-occlusive). HIV
   negative from OSH (called today), CMV pending from OSH, hepatitis
   serologies pending here.
   - Tylenol level negative at OSH
   - [**Doctor First Name **], anti-mitochondrial ab, Sm ab, RNP ab negative at OSH
   - r/o infectious: Repeat hep serologies pending here
   - f/u CMV serologies at OSH
   - HIV negative
   - Appreciate liver input
   - Daily LFTS, coags, plts
   - Should patient develop fevers, clinical status worsen, would consider
   paracentesis for SBP (although unclear benefit at this point given on
   antibiotics for multiple days now)
   .
   #Ileus/Abdominal Distension: Much improved today, put out over 1 L
   stool yesterday after initiation of reglan.
   - Consider CT A/P and paracentesis PRN
   - hold constipating medications such as opiates, and continue with
   bowel regimen.
   - Monitor for abdominal compartment syndrome
   .
   # Portal vein thrombus: Non-occlusive. Hold on anticoagulation for now
   given thrombocytopenia and elevated INR from liver dysfunction
   .
   # Goals of Care: Spoke with family today
[**12-1**]^st will work best
   for all family members to be able to make a family meeting. They will
   get back to us with convenient time in the afternoon for 1/109.
   .
   # PPx: Pneumoboots, VAP care, bowel regimen, H2 blocker
   .
   # Code Status: FULL
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2123-11-30**] 05:00 AM 10 mL/hour, appreciate
   nutrition assistance, hold TF @ midnight for possible extubation
   Glycemic Control:  N/A
   Lines:
   Arterial Line - [**2123-11-24**] 02:29 PM
   Dialysis Catheter - [**2123-11-24**] 05:33 PM
   Multi Lumen - [**2123-11-24**] 09:25 PM
   20 Gauge - [**2123-11-27**] 09:29 AM
   Prophylaxis:
   DVT: Pneuoboots
   Stress ulcer: h2 blocker
   VAP:  Chlorhexidine
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2123-11-30 11:54:00 Physician Attending Progress Note
Chief Complaint: Shock, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   45 year old woman who was transferred from OSH with acute hepatic
   failure and MODS. Please see previous notes for details.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2123-11-30**] 08:00 AM
   Vancomycin - [**2123-11-30**] 08:18 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2123-11-30**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-11-30**] 11:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36
C (96.8
   HR: 90 (84 - 97) bpm
   BP: 91/41(60) {91/39(57) - 119/58(80)} mmHg
   RR: 20 (15 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  7,344 mL
                                                                  3,272 mL
   PO:
             TF:
             65 mL
   IVF:
                                                                  6,884 mL
                                                                  3,087 mL
   Blood products:
                                                                    280 mL
   Total out:
                                                                  9,450 mL
                                                                  4,596 mL
   Urine:
                                                                     18 mL
                                                                     10 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,106 mL
                                                                 -1,324 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 497 (340 - 497) mL
   PS : 15 cmH2O
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 66
   RSBI Deferred: RR >35
   PIP: 24 cmH2O
   SpO2: 100%
   ABG: 7.35/40/132/21/-3
   Ve: 8.8 L/min
   PaO2 / FiO2: 264
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   57 K/uL
   103 mg/dL
   1.2 mg/dL
   21 mEq/L
   3.5 mEq/L
   9 mg/dL
   104 mEq/L
   137 mEq/L
   23.1 %
   13.5 K/uL
        [image002.jpg]
                            [**2123-11-29**]  08:02 AM
                            [**2123-11-29**]  11:44 AM
                            [**2123-11-29**]  04:55 PM
                            [**2123-11-29**]  06:25 PM
                            [**2123-11-29**]  11:03 PM
                            [**2123-11-29**]  11:10 PM
                            [**2123-11-30**]  05:08 AM
                            [**2123-11-30**]  05:14 AM
                            [**2123-11-30**]  10:02 AM
                            [**2123-11-30**]  10:25 AM
   WBC
   13.5
   Hct
   23.1
   Plt
   57
   Cr
   1.2
   1.2
   1.2
   TCO2
   26
   24
   25
   24
   24
   23
   Glucose
   106
   118
   102
   103
   Other labs: PT / PTT / INR:24.8/54.1/2.4, CK / CKMB / Troponin-T:28//,
   ALT / AST:108/381, Alk Phos / T Bili:106/26.8, Amylase / Lipase:/41,
   Differential-Neuts:84.0 %, Lymph:13.3 %, Mono:1.7 %, Eos:0.7 %,
   Fibrinogen:499 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.4 g/dL, LDH:316
   IU/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   45 year old woman with acute etoh hepatitis and MODS. PNA, ARDS.
   Respiratory function is improving with P/F now greater than 200. RSBI
   66 this am. Will attempt SBT today but remain concerned that mental
   status will prohibit extubation. Continues on vasopressin but levophed
   off. Will run CVVH even today in hopes of getting her off pressors
   entirely. More awake today with non-focal exam, so suspect altered
   mental status is secondary to sedation and not structural lesion.
   Continue off of sedation. Hepatic function remains poor as evidenced by
   INR which is a poor prognostic factor despite improvement in other
   organ failures. Continues on lactulose and viral studies pending to
   complete w/u of acute hepatitis. Further plans as per resident.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2123-11-30**] 05:00 AM 10 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2123-11-24**] 02:29 PM
   Dialysis Catheter - [**2123-11-24**] 05:33 PM
   Multi Lumen - [**2123-11-24**] 09:25 PM
   20 Gauge - [**2123-11-27**] 09:29 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2123-12-01 08:18:00 Physician Resident Progress Note
Chief Complaint: shock
   respiratory failure
   renal failure
   24 Hour Events:
   - Weaned off of levophed during day but had to put back on when
   propofol started
   - Ventilator settings decreased to PS 5/5 with FiO2 50%. Did well with
   that until about 9:30 PM, at which point she appeared uncomfortable,
   [**Last Name (LF) 4709**], [**First Name3 (LF) **] propofol started until AM (possible extubation). Tube
   feeds held.
   - HIV serologies negative from OSH, vancomycin stopped ([**11-20**] E. Coli
   pan-sensitive, blood cultures were MSSA).
   - Family will be available to meet on [**2123-12-2**] for meeting to discuss
   progress, goals of care, etc.
   - thick green sputum suctioned
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2123-11-30**] 08:18 AM
   Piperacillin/Tazobactam (Zosyn) - [**2123-12-1**] 02:07 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Propofol - 10 mcg/Kg/min
   Norepinephrine - 0.02 mcg/Kg/min
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2123-11-30**] 04:55 PM
   Other medications:
   Reglan 5mg IV Q6
   Atrovent/Albuterol Q4
   Rifaxamin 200mg TID
   Lactulose 30 ML TID
   Insulin SS
   Colace, Senna, Bisacodyl PRN
   Chlorhexidine mouth rinse
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-1**] 08:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 101 (89 - 107) bpm
   BP: 97/40(60) {91/39(57) - 152/92(112)} mmHg
   RR: 26 (15 - 32) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  7,517 mL
                                                                  2,037 mL
   PO:
             TF:
                                                                    190 mL
                                                                      0 mL
   IVF:
                                                                  7,147 mL
                                                                  1,977 mL
   Blood products:
   Total out:
                                                                  9,587 mL
                                                                  2,705 mL
   Urine:
                                                                     10 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                 -2,070 mL
                                                                   -668 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 400 (365 - 497) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 28
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 110
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   SpO2: 97%
   ABG: 7.35/37/125/20/-4
   Ve: 10.9 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: At bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: No(t) Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   49 K/uL
   7.9 g/dL
   107 mg/dL
   0.4 mg/dL
   20 mEq/L
   3.6 mEq/L
   9 mg/dL
   103 mEq/L
   135 mEq/L
   22.5 %
   12.0 K/uL
        [image002.jpg]
                            [**2123-11-30**]  05:08 AM
                            [**2123-11-30**]  05:14 AM
                            [**2123-11-30**]  10:02 AM
                            [**2123-11-30**]  10:25 AM
                            [**2123-11-30**]  04:41 PM
                            [**2123-11-30**]  04:52 PM
                            [**2123-11-30**]  11:08 PM
                            [**2123-11-30**]  11:09 PM
                            [**2123-12-1**]  04:12 AM
                            [**2123-12-1**]  05:26 AM
   WBC
   13.5
   11.8
   12.0
   Hct
   23.1
   23.9
   22.5
   Plt
   57
   55
   49
   Cr
   1.2
   0.9
   0.4
   TCO2
   24
   23
   24
   24
   21
   Glucose
   102
   103
   110
   107
   107
   Other labs: PT / PTT / INR:25.8/56.1/2.6, CK / CKMB / Troponin-T:28//,
   ALT / AST:100/314, Alk Phos / T Bili:110/25.6, Amylase / Lipase:/41,
   Differential-Neuts:84.0 %, Lymph:13.3 %, Mono:1.7 %, Eos:0.7 %,
   Fibrinogen:499 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.2 g/dL, LDH:293
   IU/L, Ca++:9.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   Imaging: CXR [**11-30**]:
   Endotracheal tube tip is at the level of the carina with the neck
   in a flexed position and could be withdrawn for standard positioning.
   Unusual position of left internal
   jugular catheter is without change and has been described fully on the
   prior
   report. Persistent cardiac enlargement, and slight worsening of diffuse
   pulmonary opacities, worse in the right lung than the left. Persistent
   small
   right pleural effusion.
   Microbiology: OSH data
   Urine [**11-22**] - grew Ecoli
   Blood 12/22 - grew MSSA, started treatment [**11-24**]
   [**Hospital1 19**] data:
   Blood [**Date range (1) 4710**]: NGTD
   Urine [**11-24**]: No Growth
   Sputum [**11-14**]: No Growth
   Stool [**11-24**] & [**11-28**]: Neg for Cdif tox
   Assessment and Plan
   Patient is a 45 year old female with likely EtOH hepatitis/cirrhosis
   admitted to OSH for acute hepatic failure and altered mental status now
   transferred to [**Hospital1 19**] with shock, ARDS and ARF, intubated on pressors
   and CVVH, but with improving mental status and respiratory status over
   last 24 hours.
   # Respiratory failure: It was felt patient had ARDS thought [**1-2**] sepsis
 unclear etiology. She has been running negative on CVVH, and appears
   to be close to euvolemic, will run even to only slightly negative which
   helped to eliminate pressory need (although she did need pressor again
   while on propofol).  Overnight had some green sputum suctioned.  CXR
   shows possible increased infiltrate in RML.
   - send sputum for culture
   - will not wean vent today given increased sputum production
   - cont Zosyn; may need add
l abx if sputum culture positive
   - Patient was on ARDSNET ventilation, 6cc/kg IBW TVs, but now on PS
   - Goal peak pressures <3,
   - Will run her even on CVVH today given she is 4L negative hospital
   stay
   - q8h ABGs
   # Shock: Likely septic in the setting of fevers since [**11-21**], multiple
   possible sources including MSSA bacteremia (OSH culture grew [**11-22**], day
   1 treatment [**11-24**]), E coli UTI (cx grew [**11-22**]), and pancolitis of
   unclear etiology, and perihepatic fluid collection.
   - OSH lines d/ced, CVL placed [**11-24**]
   - TTE negative, TEE deferred given not high grade bacteremia
   - Currently back on levophed only because of propofol, will aim to wean
   off vasopressin to maintain MAP > 65, CVP 8-12
   - Cultures here have been negative to date, c. difficile negative
   - Currently on Zosyn only, can switch to Nafcillin today for MSSA.  UTI
   is already treated.   Will need at least 2 week course  ([**11-24**]-
   [**2123-12-7**])for bacteremia.
   - HIV test negative at OSH
   - Will defer CT abdomen/pelvis given that patient is clinically
   improving, and would not attempt to sample fluid.
   - Wean pressors with goal MAP > 60
   # Renal failure: No significant change in renal function. Likely ATN in
   setting of shock.  Persistent anuria/ oliguria. Appreciate renal
   assistance. Hope is to wean pressors and then transition to HD as
   needed.
   - Continue CVVH until able to tolerate another method of renal
   replacement hemodynamically.  Will attempt to run out as long as
   pressor requirement does not increase
   - Renal recs
   - [**Hospital1 7**] lytes
   # Mental Status: Improving daily, appears to be attempting to follow
   some commands. Was off all sedation for >48  hours, but back on given
   dysynchronous ventilation.  Will likely be slow to recover however
   given toxic/metabolic derangements, renal failure and need for CVVH.
   - Follow mental status, and try to wean propofol off
   -consider head CT/neuro consult for prognosis if does not improve.
   - Continue lactulose for possible component of hepatic encephalopathy
   # Anemia: Stable, HCT today 22.5 (stable). Elevated T.bili, D. bili 9.
   In the setting of HSM.
   - Transfuse for HCT <21, monitor for evidence of bleeding.
   - start Epogen per renal
   - Iron studies as noted previously, guaiac stools
   # Hepatitis: Suspecte alcoholic most likely with component of shock.
   U/S w/evidence of cirrhosis, portal vein thrombus (non-occlusive). HIV
   negative from OSH (called today), CMV pending from OSH, hepatitis
   serologies negataive from [**2123-11-24**].
   - Tylenol level negative at OSH
   - [**Doctor First Name **], anti-mitochondrial ab, Sm ab, RNP ab negative at OSH
   - r/o infectious: Repeat hep serologies pending here
   - f/u CMV serologies at OSH
   - HIV negative
   - Appreciate liver input
   - Daily LFTS, coags, plts
   - Should patient develop fevers, clinical status worsen, would consider
   paracentesis for SBP (although unclear benefit at this point given on
   antibiotics for multiple days now)
   #Ileus/Abdominal Distension: Much improved today, put out over 1 L
   stool  with reglan on board.
   - Consider CT A/P and paracentesis PRN
   - hold constipating medications such as opiates, and continue with
   bowel regimen.
   - Monitor for abdominal compartment syndrome
   # Portal vein thrombus: Non-occlusive. Hold on anticoagulation for now
   given thrombocytopenia and elevated INR from liver dysfunction
   # Goals of Care: Spoke with family
[**12-1**] will work best for all
   family members to be able to make a family meeting. They will get back
   to us with convenient time in the afternoon for 1/109.
   # PPx: Pneumoboots, VAP care, bowel regimen, H2 blocker
   # Code Status: FULL
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2123-11-24**] 02:29 PM
   Dialysis Catheter - [**2123-11-24**] 05:33 PM
   Multi Lumen - [**2123-11-24**] 09:25 PM
   20 Gauge - [**2123-11-27**] 09:29 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2123-12-01 10:21:00 Physician Attending Progress Note
Chief Complaint: Hepatic failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   45 year old woman transfered from OSH with acute hepatic failure, MODS.
   Please see previous notes for details.
   24 Hour Events:
   Propofol restarted o/n.
   Thick secretions.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2123-11-30**] 08:18 AM
   Piperacillin/Tazobactam (Zosyn) - [**2123-12-1**] 08:30 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Propofol - 10 mcg/Kg/min
   Norepinephrine - 0.02 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2123-11-30**] 04:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-1**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.4
C (99.3
   HR: 104 (90 - 107) bpm
   BP: 118/58(82) {91/39(58) - 152/92(112)} mmHg
   RR: 21 (15 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  7,518 mL
                                                                  2,895 mL
   PO:
             TF:
                                                                    190 mL
                                                                      0 mL
   IVF:
                                                                  7,148 mL
                                                                  2,835 mL
   Blood products:
   Total out:
                                                                  9,587 mL
                                                                  3,701 mL
   Urine:
                                                                     10 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                 -2,069 mL
                                                                   -806 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 443 (365 - 450) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 23
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 110
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.35/37/125/20/-4
   Ve: 9.4 L/min
   PaO2 / FiO2: 250
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l)
   Abdominal: Soft, Non-tender, Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: No spontaneous
   movement, Sedated, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   49 K/uL
   107 mg/dL
   0.4 mg/dL
   20 mEq/L
   3.6 mEq/L
   9 mg/dL
   103 mEq/L
   135 mEq/L
   22.5 %
   12.0 K/uL
         [image002.jpg]
                            [**2123-11-30**]  05:08 AM
                            [**2123-11-30**]  05:14 AM
                            [**2123-11-30**]  10:02 AM
                            [**2123-11-30**]  10:25 AM
                            [**2123-11-30**]  04:41 PM
                            [**2123-11-30**]  04:52 PM
                            [**2123-11-30**]  11:08 PM
                            [**2123-11-30**]  11:09 PM
                            [**2123-12-1**]  04:12 AM
                            [**2123-12-1**]  05:26 AM
   WBC
   13.5
   11.8
   12.0
   Hct
   23.1
   23.9
   22.5
   Plt
   57
   55
   49
   Cr
   1.2
   0.9
   0.4
   TCO2
   24
   23
   24
   24
   21
   Glucose
   102
   103
   110
   107
   107
   Other labs: PT / PTT / INR:25.8/56.1/2.6, CK / CKMB / Troponin-T:28//,
   ALT / AST:100/314, Alk Phos / T Bili:110/25.6, Amylase / Lipase:/41,
   Differential-Neuts:84.0 %, Lymph:13.3 %, Mono:1.7 %, Eos:0.7 %,
   Fibrinogen:499 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.2 g/dL, LDH:293
   IU/L, Ca++:9.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   Imaging: Possible RML infiltrate
   Assessment and Plan
   45 year old woman with PMH chirossis, transfered from OSH with FHF and
   MODS. Doing well on minimal vent setting yesterday but increased
   secretions
   today so will hold off on extubation. Sputum sample sent. Will hold off
   on additional antibiotics in the abscense of + gram stain, fever, or
   leukocystosis.
   Okay to continue pressure support. Continues on CVVH, would aim even
   for now. Further plans as per resident note.
   ICU Care
   Nutrition:
   Comments: Restart tube feeds today.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2123-11-24**] 02:29 PM
   Dialysis Catheter - [**2123-11-24**] 05:33 PM
   Multi Lumen - [**2123-11-24**] 09:25 PM
   20 Gauge - [**2123-11-27**] 09:29 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments: Family meeting scheduled
   for tomorrow.
   Code status: Full code
   Disposition :ICU
   Total time spent: 30  minutes
   Patient is critically ill

2123-12-02 08:06:00 Physician Resident Progress Note
Chief Complaint: alcoholic hepatitis
   cirrhosis
   multi-organ failure
   24 Hour Events:
   None
   Vent placed back on AC
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2123-11-30**] 08:18 AM
   Piperacillin/Tazobactam (Zosyn) - [**2123-12-2**] 02:00 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Propofol - 10 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2123-12-2**] 05:00 AM
   Other medications:
   Reglan 5mg IV Q6
   Atrovent/Albuterol Q4
   Rifaxamin 200mg TID
   Lactulose 30 ML TID
   Insulin SS
   Colace, Senna, Bisacodyl PRN
   Chlorhexidine mouth rinse
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-2**] 08:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.3
C (97.3
   HR: 92 (83 - 105) bpm
   BP: 105/47(68) {91/37(57) - 119/58(82)} mmHg
   RR: 27 (15 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  7,442 mL
                                                                  2,695 mL
   PO:
             TF:
                                                                    193 mL
                                                                    195 mL
   IVF:
                                                                  6,949 mL
                                                                  2,411 mL
   Blood products:
   Total out:
                                                                  7,411 mL
                                                                  3,292 mL
   Urine:
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     31 mL
                                                                   -597 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 351 (351 - 443) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 2
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 27 cmH2O
   Plateau: 25 cmH2O
   SpO2: 100%
   ABG: 7.34/37/158/20/-5
   Ve: 12.4 L/min
   PaO2 / FiO2: 316
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   47 K/uL
   8.3 g/dL
   111 mg/dL
   0.9 mg/dL
   20 mEq/L
   3.4 mEq/L
   11 mg/dL
   105 mEq/L
   136 mEq/L
   23.6 %
   12.7 K/uL
        [image002.jpg]
                            [**2123-12-1**]  04:12 AM
                            [**2123-12-1**]  05:26 AM
                            [**2123-12-1**]  10:24 AM
                            [**2123-12-1**]  10:49 AM
                            [**2123-12-1**]  04:40 PM
                            [**2123-12-1**]  04:57 PM
                            [**2123-12-1**]  09:32 PM
                            [**2123-12-1**]  09:39 PM
                             [**2123-12-2**]  04:13 AM
                             [**2123-12-2**]  04:31 AM
   WBC
   12.0
   12.7
   Hct
   22.5
   23.6
   Plt
   49
   47
   Cr
   0.4
   1.2
   0.9
   TCO2
   21
   23
   24
   23
   21
   Glucose
   107
   105
   110
   114
   111
   Other labs: PT / PTT / INR:28.7/62.7/2.9, CK / CKMB / Troponin-T:28//,
   ALT / AST:90/268, Alk Phos / T Bili:104/24.5, Amylase / Lipase:/41,
   Differential-Neuts:84.0 %, Lymph:13.3 %, Mono:1.7 %, Eos:0.7 %,
   Fibrinogen:499 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.1 g/dL, LDH:289
   IU/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Imaging: CXR [**11-30**]:
   1. Improving pulmonary edema. Slowly resolving bilateral pneumonia,
   worst in
   the right lower lobe.
   2. Stable cardiomegaly and small right pleural effusion.
   Microbiology: Sputum [**11-30**]: No micororganisms on gram stain.  Culture
   pending
   OSH:
   [**11-21**]: Blood MSSA, treated [**11-23**]
   [**11-21**]: Urine Ecoli, treatment completed
   Here Blood, urine, stool cdiff - negative to date
   Assessment and Plan
   Patient is a 45 year old female with likely EtOH hepatitis/cirrhosis
   admitted to OSH for acute hepatic failure and altered mental status now
   transferred to [**Hospital1 19**] with shock, ARDS and ARF, intubated on pressors
   and CVVH, but with improving mental status.  Had increased sputum
   [**Date range (1) 4730**], so did not extubate.
   # Respiratory failure: It was felt patient had ARDS thought [**1-3**] sepsis
 unclear etiology. She has been running negative on CVVH, and now
   euvolemic, so will run even.   On pressors mostly due to sedatives.
   Concern for possible VAP given increased sputum, although gram stain of
   sputum negative and culutre pending.
   - f/u sputum cx
   - wean vent today, consider extubation when ready
   - cont Zosyn; may be able to narrow to nafcillin to cover MSSA in blood
   cx at OSH on [**11-21**] (day 1 treatment = [**11-23**])
   - Patient on ARDSNET ventilation, 6cc/kg IBW TVs
   - Goal peak pressures <3,
   - Will run her even on CVVH today given she is 4L negative hospital
   stay
   - q8h ABGs
   # Shock: Likely septic in the setting of fevers since [**11-20**], multiple
   possible sources including MSSA bacteremia (OSH culture grew [**11-21**], day
   1 treatment [**11-23**]), E coli UTI (cx grew [**11-21**]), and pancolitis of
   unclear etiology, and perihepatic fluid collection.
   - OSH lines d/ced, CVL placed [**11-23**]
   - TTE negative, TEE deferred given not high grade bacteremia
   - Currently back on levophed/vasopressin only because of propofol, will
   aim to wean off pressors  to maintain MAP > 65, CVP 8-12
   - Cultures here have been negative to date, c. difficile negative x3
   (precautions removed)
   - Currently on Zosyn only, can switch to Nafcillin today for MSSA.  UTI
   is already treated.   Will need at least 2 week course  ([**11-23**]-
   [**2123-12-7**])for bacteremia.
   - HIV test negative at OSH
   - Will defer CT abdomen/pelvis given that patient is clinically
   improving, and would not attempt to sample fluid.
   - Wean pressors with goal MAP > 60
   # Renal failure: No significant change in renal function. Likely ATN in
   setting of shock.  Persistent anuria/ oliguria. Appreciate renal
   assistance. Hope is to wean pressors and then transition to HD as
   needed.
   - Continue CVVH until able to tolerate another method of renal
   replacement hemodynamically.  Run even today (pt -4L hospital stay)
   - Renal recs
   - [**Hospital1 7**] lytes
   # Mental Status: Improving daily, appears to be attempting to follow
   some commands. Was off all sedation for >48  hours, but back on given
   dysynchronous ventilation.  Will likely be slow to recover however
   given toxic/metabolic derangements, renal failure and need for CVVH.
   - Follow mental status, and try to wean propofol off
   -consider head CT/neuro consult for prognosis if does not improve.
   - Continue lactulose for possible component of hepatic encephalopathy
   # Anemia: Stable, HCT today. Elevated T.bili, D. bili 9. In the setting
   of HSM.
   - Transfuse for HCT <21, monitor for evidence of bleeding.
   - start Epogen per renal
   - Iron studies as noted previously, guaiac stools
   # Hepatitis: Suspecte alcoholic most likely with component of shock.
   U/S w/evidence of cirrhosis, portal vein thrombus (non-occlusive). HIV
   negative from OSH (called today), CMV pending from OSH, hepatitis
   serologies negataive from [**2123-11-24**].
   - Tylenol level negative at OSH
   - [**Doctor First Name **], anti-mitochondrial ab, Sm ab, RNP ab negative at OSH
   - r/o infectious: Repeat hep serologies pending here
   - f/u CMV serologies at OSH
   - HIV negative
   - Appreciate liver input
   - Daily LFTS, coags, plts
   - Should patient develop fevers, clinical status worsen, would consider
   paracentesis for SBP (although unclear benefit at this point given on
   antibiotics for multiple days now)
   #Ileus/Abdominal Distension: Much improved today, put out over 1 L
   stool  with reglan on board.
   - Consider CT A/P and paracentesis PRN
   - hold constipating medications such as opiates, and continue with
   bowel regimen.
   - Monitor for abdominal compartment syndrome
   # Portal vein thrombus: Non-occlusive. Hold on anticoagulation for now
   given thrombocytopenia and elevated INR from liver dysfunction
   # Goals of Care: Spoke with family
[**12-2**] will work best for all
   family members to be able to make a family meeting. They will get back
   to us with convenient time in the afternoon for 1/109.
   # Code Status: FULL
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2123-12-2**] 07:38 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2123-11-24**] 02:29 PM
   Dialysis Catheter - [**2123-11-24**] 05:33 PM
   Multi Lumen - [**2123-11-24**] 09:25 PM
   20 Gauge - [**2123-11-27**] 09:29 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2123-12-02 11:49:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Increased sputum during the morning yesterday, diminished today.
   On A/C overnight after some tachypnea on PSV yesterday evening.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2123-11-30**] 08:18 AM
   Piperacillin/Tazobactam (Zosyn) - [**2123-12-2**] 08:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Propofol - 10 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2123-12-2**] 05:00 AM
   Other medications:
   Peridex, docusate, famotidine, lactulose, RISS, rifaximin, reglan,
   albuterol/atrovent MDI, epogen
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-2**] 11:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.8
C (98.2
   HR: 92 (83 - 105) bpm
   BP: 103/47(68) {91/37(57) - 119/56(78)} mmHg
   RR: 24 (15 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  7,455 mL
                                                                  3,910 mL
   PO:
             TF:
                                                                    193 mL
                                                                    368 mL
   IVF:
                                                                  6,962 mL
                                                                  3,442 mL
   Blood products:
   Total out:
                                                                  7,411 mL
                                                                  4,700 mL
   Urine:
                                                                      5 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     44 mL
                                                                   -790 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 351 (351 - 358) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 27 cmH2O
   Plateau: 24 cmH2O
   SpO2: 100%
   ABG: 7.36/39/178/20/-2
   Ve: 11.6 L/min
   PaO2 / FiO2: 445
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: course ventilated BS.
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, Jaundice
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   47 K/uL
   111 mg/dL
   0.9 mg/dL
   20 mEq/L
   3.4 mEq/L
   11 mg/dL
   105 mEq/L
   136 mEq/L
   23.6 %
   12.7 K/uL
        [image002.jpg]
                            [**2123-12-1**]  05:26 AM
                            [**2123-12-1**]  10:24 AM
                            [**2123-12-1**]  10:49 AM
                            [**2123-12-1**]  04:40 PM
                            [**2123-12-1**]  04:57 PM
                            [**2123-12-1**]  09:32 PM
                            [**2123-12-1**]  09:39 PM
                             [**2123-12-2**]  04:13 AM
                             [**2123-12-2**]  04:31 AM
                             [**2123-12-2**]  10:20 AM
   WBC
   12.7
   Hct
   23.6
   Plt
   47
   Cr
   1.2
   0.9
   TCO2
   21
   23
   24
   23
   21
   23
   Glucose
   105
   110
   114
   111
   Other labs: PT / PTT / INR:28.7/62.7/2.9, CK / CKMB / Troponin-T:28//,
   ALT / AST:90/268, Alk Phos / T Bili:104/24.5, Amylase / Lipase:/41,
   Differential-Neuts:84.0 %, Lymph:13.3 %, Mono:1.7 %, Eos:0.7 %,
   Fibrinogen:499 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.1 g/dL, LDH:289
   IU/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Imaging: TTE negative for vegatations.
   Microbiology: BCx ([**11-21**]) (OSH)  2/2 bottles MSSA
   UCx (OSH) Pan sensitive E coli
   Assessment and Plan
   45 yo F with h/o etoh abuse transferred from OSH where she presented
   with alcoholic hepatitis, shock, ARDS, ARF requiring CVVH.
   Respiratory Failure:  ARDS.  Secretions improved today.  Appears to be
   a little less responsive to commands today.
     -PSV trial and wean sedation as able
     -If tolerates well, consider extubation based on MS
     [**Name13 (STitle) **] CVP to help guide fluid management
   Hypotension:  Seemed to correspond to adding on propofol
      -As above, check CVP
      -Will change zosyn to nafcillin to treat MSSA bacteremia
   Renal Failure: Continues on CVVH, currently even
   Liver Failure:  alcoholic hepatitis and cirrhosis.  INR continues to
   rise.
     -Will continue to support through this and monitor LFT's/INR.
     -Will try Vitamin K today
   Altered mental status:  likely multifactorial including ICU delirium,
   hepatic encephalopathy
     -Continue lactulose and rifaximin
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2123-12-2**] 07:38 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2123-11-24**] 02:29 PM
   Dialysis Catheter - [**2123-11-24**] 05:33 PM
   Multi Lumen - [**2123-11-24**] 09:25 PM
   20 Gauge - [**2123-11-27**] 09:29 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2123-12-03 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - back on AC given high RR on pressure support
   - changed zosyn to nafcillin
   - CVP 6 so running CVVH even
   - family mtg held
   - pan cultured given increased pressor requirement and low grade temps
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2123-11-30**] 08:18 AM
   Piperacillin/Tazobactam (Zosyn) - [**2123-12-2**] 08:00 AM
   Nafcillin - [**2123-12-3**] 06:07 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Propofol - 10 mcg/Kg/min
   Norepinephrine - 0.1 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Insulin - Regular - [**2123-12-2**] 06:00 PM
   Famotidine (Pepcid) - [**2123-12-3**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-3**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.2
C (98.9
   HR: 103 (89 - 113) bpm
   BP: 81/42(57) {78/38(51) - 109/51(73)} mmHg
   RR: 26 (17 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
    CVP: 6 (6 - 7)mmHg
   Total In:
                                                                  8,512 mL
                                                                  3,073 mL
   PO:
   TF:
                                                                  1,000 mL
                                                                    378 mL
   IVF:
                                                                  7,292 mL
                                                                  2,605 mL
   Blood products:
   Total out:
                                                                  8,276 mL
                                                                  3,485 mL
   Urine:
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    236 mL
                                                                   -412 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 276 (276 - 276) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 6
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 27 cmH2O
   Plateau: 19 cmH2O
   Compliance: 40.9 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/37/141/21/0
   Ve: 13.3 L/min
   PaO2 / FiO2: 353
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   83 K/uL
   8.7 g/dL
   144 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.1 mEq/L
   12 mg/dL
   99 mEq/L
   133 mEq/L
   24.5 %
   15.5 K/uL
        [image002.jpg]
                             [**2123-12-2**]  04:13 AM
                             [**2123-12-2**]  04:31 AM
                             [**2123-12-2**]  10:07 AM
                             [**2123-12-2**]  10:20 AM
                             [**2123-12-2**]  04:07 PM
                             [**2123-12-2**]  04:22 PM
                             [**2123-12-2**]  10:17 PM
                             [**2123-12-2**]  10:28 PM
                             [**2123-12-3**]  04:50 AM
                             [**2123-12-3**]  04:58 AM
   WBC
   12.7
   15.5
   Hct
   23.6
   24.5
   Plt
   47
   83
   Cr
   0.9
   1.2
   0.6
   0.9
   TCO2
   21
   23
   24
   23
   24
   Glucose
   111
   108
   130
   135
   144
   Other labs: PT / PTT / INR:26.5/64.9/2.6, CK / CKMB / Troponin-T:28//,
   ALT / AST:82/250, Alk Phos / T Bili:98/24.1, Amylase / Lipase:/41,
   Differential-Neuts:84.0 %, Lymph:13.3 %, Mono:1.7 %, Eos:0.7 %,
   Fibrinogen:499 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.1 g/dL, LDH:276
   IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
   Patient is a 45 year old female with likely EtOH hepatitis/cirrhosis
   admitted to OSH for acute hepatic failure and altered mental status
   transferred to [**Hospital1 19**] with shock, ARDS and ARF, intubated on pressors
   and CVVH, but with improving mental status.  Had increased sputum
   [**Date range (1) 4730**], so did not extubate.
   # Respiratory failure: It was felt patient had ARDS thought [**1-3**] sepsis
 unclear etiology. She has been running negative on CVVH, and now
   euvolemic with CVP of 6, so will run even.   Concern for possible VAP
   given increased sputum, although gram stain of sputum negative and
   culutre pending.
   - f/u sputum cx
   - wean vent today, trial of pressure support
   - Stop Zosyn, narrow coverage to  nafcillin to cover MSSA in blood cx
   at OSH (Day 1 = [**2123-11-24**], 2 week course)
   - Patient on ARDSNET ventilation, 6cc/kg IBW TVs when on controlled
   ventilation
   - Goal peak pressures <3,
   - Will run her even on CVVH today given she is 4L negative hospital
   stay and CVP of 6
   - q8h ABGs
   # Shock: Likely septic in the setting of fevers since [**11-20**], multiple
   possible sources including MSSA bacteremia (OSH culture grew [**11-21**], day
   1 treatment [**11-23**]), E coli UTI (cx grew [**11-21**]), and pancolitis of
   unclear etiology, and perihepatic fluid collection.
   - OSH lines d/ced, CVL placed [**11-23**]
   - TTE negative, TEE deferred given not high grade bacteremia
   - Currently back on levophed/vasopressin, will aim to wean off
   pressors  to maintain MAP > 65, CVP 8-12
   - Cultures here have been negative to date, c. difficile negative x3
   (precautions removed)
   - Currently on Zosyn only, will switch to Nafcillin today for MSSA.
   UTI is already treated.   Will need at least 2 week course  ([**11-23**]-
   [**2123-12-7**])for bacteremia.
   - HIV test negative at OSH
   - Will defer CT abdomen/pelvis given that patient is clinically
   improving, and would not attempt to sample fluid.
   - Wean pressors with goal MAP > 60
   # Renal failure: No significant change in renal function. Likely ATN in
   setting of shock.  Persistent anuria/ oliguria. Appreciate renal
   assistance. Hope is to wean pressors and then transition to HD as
   needed.
   - Continue CVVH until able to tolerate another method of renal
   replacement hemodynamically.  Run even today (pt -4L hospital stay)
   - Renal recs
   - [**Hospital1 7**] lytes
   # Mental Status: Improving daily, appears to be attempting to follow
   some commands. Was off all sedation for >48  hours, but back on given
   dysynchronous ventilation.  Will likely be slow to recover however
   given toxic/metabolic derangements, renal failure and need for CVVH.
   - Follow mental status, and try to wean propofol off
   -consider head CT/neuro consult for prognosis if does not improve.
   - Continue lactulose for possible component of hepatic encephalopathy
   # Anemia: Stable, HCT today. Elevated T.bili, D. bili 9. In the setting
   of HSM.
   - Transfuse for HCT <21, monitor for evidence of bleeding.
   - start Epogen per renal
   - Iron studies as noted previously, guaiac stools
   # Hepatitis: Suspecte alcoholic most likely with component of shock.
   U/S w/evidence of cirrhosis, portal vein thrombus (non-occlusive). HIV
   negative from OSH (called today), CMV pending from OSH, hepatitis
   serologies negataive from [**2123-11-24**].
   - INR [**Last Name (LF) 548**], [**First Name3 (LF) **] treat with vitamin K 5mg IV x 1
   - Tylenol level negative at OSH
   - [**Doctor First Name **], anti-mitochondrial ab, Sm ab, RNP ab negative at OSH
   - hep serologies negative
   - f/u CMV serologies at OSH
   - HIV negative
   - Appreciate liver input
   - Daily LFTS, coags, plts
   - Should patient develop fevers, clinical status worsen, would consider
   paracentesis for SBP
   #Ileus/Abdominal Distension: resolved on reglan.
   # Portal vein thrombus: Non-occlusive. Hold on anticoagulation for now
   given that this is likely chronic (per liver team)
   # Goals of Care: Family mtg today
   # Code Status: FULL
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2123-12-2**] 10:08 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2123-11-24**] 02:29 PM
   Dialysis Catheter - [**2123-11-24**] 05:33 PM
   Multi Lumen - [**2123-11-24**] 09:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2123-12-03 11:17:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Met with family yesterday to update clinical status.
   Pressor requirement went up in the evening yesterday.
   Transitioned back to A/C from PSV in the evening and now back on PSV.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2123-12-2**] 08:00 AM
   Nafcillin - [**2123-12-3**] 10:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Propofol - 10 mcg/Kg/min
   Norepinephrine - 0.1 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 4 mEq./hour
   Other ICU medications:
   Insulin - Regular - [**2123-12-2**] 06:00 PM
   Famotidine (Pepcid) - [**2123-12-3**] 04:30 AM
   Other medications:
   Peridex, colace, famotidine, lactulose, rifaximin, Reglan,
   albuterol/atrovent, epogen
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-3**] 11:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.6
C (99.7
   HR: 100 (92 - 113) bpm
   BP: 90/44(62) {78/38(51) - 109/50(70)} mmHg
   RR: 26 (17 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
   CVP: 6 (6 - 7)mmHg
   Total In:
                                                                  8,512 mL
                                                                  4,376 mL
   PO:
   TF:
                                                                  1,000 mL
                                                                    539 mL
   IVF:
                                                                  7,292 mL
                                                                  3,703 mL
   Blood products:
   Total out:
                                                                  8,276 mL
                                                                  4,324 mL
   Urine:
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    236 mL
                                                                     52 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 438 (276 - 438) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 31
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 24 cmH2O
   Plateau: 19 cmH2O
   Compliance: 40.9 cmH2O/mL
   SpO2: 100%
   ABG: 7.42/33/173/21/-1
   Ve: 13.6 L/min
   PaO2 / FiO2: 433
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   Mechanical BS B/L)
   Abdominal: Soft, Bowel sounds present, No(t) Distended, Extensive old
   scarring
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   83 K/uL
   144 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.1 mEq/L
   12 mg/dL
   99 mEq/L
   133 mEq/L
   24.5 %
   15.5 K/uL
        [image002.jpg]
                             [**2123-12-2**]  04:31 AM
                             [**2123-12-2**]  10:07 AM
                             [**2123-12-2**]  10:20 AM
                             [**2123-12-2**]  04:07 PM
                             [**2123-12-2**]  04:22 PM
                             [**2123-12-2**]  10:17 PM
                             [**2123-12-2**]  10:28 PM
                             [**2123-12-3**]  04:50 AM
                             [**2123-12-3**]  04:58 AM
                             [**2123-12-3**]  10:11 AM
   WBC
   15.5
   Hct
   24.5
   Plt
   83
   Cr
   1.2
   0.6
   0.9
   TCO2
   21
   23
   24
   23
   24
   22
   Glucose
   108
   130
   135
   144
   Other labs: PT / PTT / INR:26.5/64.9/2.6, CK / CKMB / Troponin-T:28//,
   ALT / AST:82/250, Alk Phos / T Bili:98/24.1, Amylase / Lipase:/41,
   Differential-Neuts:84.0 %, Lymph:13.3 %, Mono:1.7 %, Eos:0.7 %,
   Fibrinogen:499 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.1 g/dL, LDH:276
   IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:1.4 mg/dL
   Imaging: CXR:  No new infiltrate
   Microbiology: BCx: pending
   Sputum Cx: pending
   C diff neg x 3
   Assessment and Plan
   45 yo F with h/o etoh abuse transferred from OSH where she presented
   with alcoholic hepatitis, shock, ARDS, ARF requiring CVVH.
    Respiratory Failure:  ARDS.  Tolerating PSV for the moment. Requires
   substantial minute ventilation to account for metabolic acidosis
      -Discuss with renal if we can use CVVH to adjust metabolic acidosis
      -Continue to wean PSV as well.
    Hypotension:  Seemed to correspond to adding on propofol but new fever
   also concerning for septic shock as well
     -Continue pressor support
     -Fever w/u below
     -CVP goal [**7-12**]
   Fever: Diff Dx include VAP (less likely), catheter related infection,
   SBP
      -Broaden abx to vancomycin, ceftax
      -Pan culture pending
      -Diagnostic paracentesis
      -Change CVC.
   Renal Failure: Continues on CVVH, goal to run CVP 8-12
   Liver Failure:  alcoholic hepatitis and cirrhosis.  INR continues to
   rise.
      -Will continue to support through this and monitor LFT's/INR.
    Altered mental status:  likely multifactorial including ICU delirium,
   hepatic encephalopathy.  Better today
     -Continue lactulose and rifaximin
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2123-12-2**] 10:08 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2123-11-24**] 02:29 PM
   Dialysis Catheter - [**2123-11-24**] 05:33 PM
   Multi Lumen - [**2123-11-24**] 09:25 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2123-12-04 08:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2123-12-3**] 05:45 PM
 MULTI LUMEN - STOP [**2123-12-3**] 09:30 PM
   Antibiotics broadened, afebrile since
   Paracentesis performed - negative for SBP
   TLC and CVVH lines changed
   doing well on PSV
   remains on 2 pressors
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2123-12-2**] 08:00 AM
   Nafcillin - [**2123-12-3**] 10:00 AM
   Vancomycin - [**2123-12-3**] 08:00 PM
   Cefipime - [**2123-12-3**] 10:00 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Propofol - 15 mcg/Kg/min
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Morphine Sulfate - [**2123-12-3**] 06:29 PM
   Famotidine (Pepcid) - [**2123-12-4**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-4**] 08:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.3
C (97.3
   HR: 97 (84 - 104) bpm
   BP: 103/50(70) {84/41(58) - 116/62(81)} mmHg
   RR: 25 (20 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 4 (4 - 9)mmHg
   Total In:
                                                                  7,909 mL
                                                                  2,997 mL
   PO:
   TF:
                                                                    805 mL
                                                                    394 mL
   IVF:
                                                                  6,250 mL
                                                                  2,513 mL
   Blood products:
                                                                    539 mL
   Total out:
                                                                  6,838 mL
                                                                  3,231 mL
   Urine:
                                                                     40 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,071 mL
                                                                   -234 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 432 (362 - 474) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 52
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.38/38/118/21/-1
   Ve: 12 L/min
   PaO2 / FiO2: 295
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   97 K/uL
   8.2 g/dL
   136 mg/dL
   0.6 mg/dL
   21 mEq/L
   4.2 mEq/L
   15 mg/dL
   99 mEq/L
   132 mEq/L
   23.5 %
   14.9 K/uL
        [image002.jpg]
                             [**2123-12-3**]  04:50 AM
                             [**2123-12-3**]  04:58 AM
                             [**2123-12-3**]  10:05 AM
                             [**2123-12-3**]  10:11 AM
                             [**2123-12-3**]  12:21 PM
                             [**2123-12-3**]  06:55 PM
                             [**2123-12-3**]  07:11 PM
                             [**2123-12-4**]  04:04 AM
                             [**2123-12-4**]  04:19 AM
                             [**2123-12-4**]  07:10 AM
   WBC
   15.5
   14.9
   Hct
   24.5
   22.4
   23.5
   Plt
   83
   97
   Cr
   0.9
   1.2
   0.6
   TCO2
   24
   22
   23
   25
   23
   Glucose
   144
   134
   84
   136
   Other labs: PT / PTT / INR:25.7/65.4/2.5, CK / CKMB / Troponin-T:28//,
   ALT / AST:79/251, Alk Phos / T Bili:80/25.2, Amylase / Lipase:/41,
   Differential-Neuts:84.0 %, Lymph:13.3 %, Mono:1.7 %, Eos:0.7 %,
   Fibrinogen:499 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.1 g/dL, LDH:525
   IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Imaging: [**12-4**] CXR
   stable, ETT in good position
   Microbiology: [**2123-12-3**]
   catheter tip (s) PND
   [**2123-12-3**]
   peritoneal fluid: PND
   [**2123-12-3**]
   sputum: PND
   [**2123-12-3**] BCx:PND
   Assessment and Plan
   Patient is a 45 year old female with likely EtOH hepatitis/cirrhosis
   admitted to OSH for acute hepatic failure and altered mental status
   transferred to [**Hospital1 19**] with shock, ARDS and ARF, now intubated on
   pressors and CVVH
   # Respiratory failure: ARDS thought [**1-3**] sepsis. Also concern for
   possible PNA given MSSA in sputum,
   - continue vanc/cefipime (started [**2123-12-3**]) given spike through nafcillin
   - continue to cover for MSSA in sputum, as well as blood cx at OSH (Day
   1 = [**2123-11-24**], 2 week course)
   - PSV as tolerated
   - wean vent as tolerated, try [**4-4**] today, with possible extubation
   # Fever
 curve trended downward, no spikes since [**2123-12-2**]
   - continue broad coverage as above, dose vanc by level with daily
   troughs
   - f/u all cultures
   - paracentesis negative for SBP
   # Shock: Likely septic with multiple possible sources including MSSA
   bacteremia (OSH culture grew [**11-21**], day 1 treatment [**11-23**]), E coli UTI
   (cx grew [**11-21**]), and pancolitis of unclear etiology, and perihepatic
   fluid collection.
   - TTE negative, TEE deferred given not high grade Bacteremia with low
   risk organism
   - continues on 2 pressors with levophed/vasopressin, will aim to wean
   off pressors  to maintain MAP > 65, CVP 8-12
   - Cultures here have been negative to date, c. difficile negative x3
   (precautions removed)
   - continue gram positive coverage until [**2123-12-7**]
   - UTI is already treated by 7 day zosyn course.
   - HIV test negative at OSH
   # Renal failure: Likely ATN in setting of shock.  Persistent anuria/
   oliguria. Appreciate renal assistance. Hope is to wean pressors and
   then transition to HD as needed.
   - Continue CVVH until able to tolerate another method of renal
   replacement hemodynamically.
   - Renal recs
   - [**Hospital1 7**] lytes
   # Mental Status: Improving daily, appears to be attempting to follow
   some commands.  Will likely be slow to recover however given
   toxic/metabolic derangements, renal failure and need for CVVH.
   - Follow mental status, and try to wean sedation
   - consider head CT/neuro consult for prognosis if does not improve.
   - continue lactulose for possible component of hepatic encephalopathy
   # Anemia: Stable. Elevated T.bili, D. bili 9. In the setting of HSM.
   - Transfuse for HCT <21, monitor for evidence of bleeding.
   - continue epogen per renal
   - Iron studies as noted previously, guaiac stools
   # Alcoholic Hepatitis: U/S w/evidence of cirrhosis, portal vein
   thrombus (non-occlusive). Hepatitis serologies negative from [**2123-11-24**].
   Tylenol level negative at OSH
   - trend INR, has been stable in mid-2
   - [**Doctor First Name **], anti-mitochondrial ab, Sm ab, RNP ab negative at OSH
   - HIV negative
   - Appreciate liver input
   - Daily LFTS, coags, plts
   #Ileus/Abdominal Distension:
   - resolved on reglan, continue TFs and lactulose
   # Portal vein thrombus: Non-occlusive. Hold on anticoagulation for now
   given that this is likely chronic (per liver team)
   # Code Status: FULL, confirmed with family
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2123-12-3**] 12:28 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2123-11-24**] 02:29 PM
   Dialysis Catheter - [**2123-11-24**] 05:33 PM
   Multi Lumen - [**2123-12-3**] 05:45 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2123-12-04 10:46:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   New CVC placed, old d/c'd.  HD catheter changed over a wire.
   Diagnostic paracentesis yesterday
   Tolerated PSV during the day yesterday.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2123-12-2**] 08:00 AM
   Nafcillin - [**2123-12-3**] 10:00 AM
   Vancomycin - [**2123-12-3**] 08:00 PM
   Cefipime - [**2123-12-4**] 10:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Propofol - 15 mcg/Kg/min
   Norepinephrine - 0.1 mcg/Kg/min
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Morphine Sulfate - [**2123-12-3**] 06:29 PM
   Famotidine (Pepcid) - [**2123-12-4**] 04:00 AM
   Other medications:
   Peridex, colace, fomotidine, lactulose, rifaximin, reglan,
   albuterol/atrovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-4**] 10:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37
C (98.6
   HR: 92 (84 - 104) bpm
   BP: 105/48(67) {84/41(58) - 116/62(81)} mmHg
   RR: 26 (20 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 7 (4 - 9)mmHg
   Total In:
                                                                  7,909 mL
                                                                  3,922 mL
   PO:
   TF:
                                                                    805 mL
                                                                    524 mL
   IVF:
                                                                  6,250 mL
                                                                  3,308 mL
   Blood products:
                                                                    539 mL
   Total out:
                                                                  6,838 mL
                                                                  4,147 mL
   Urine:
                                                                     40 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,071 mL
                                                                   -225 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 432 (362 - 474) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 52
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.38/38/118/21/-1
   Ve: 12 L/min
   PaO2 / FiO2: 295
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   ventilated BS)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended,
   Hypoactive BS
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   97 K/uL
   136 mg/dL
   0.6 mg/dL
   21 mEq/L
   4.2 mEq/L
   15 mg/dL
   99 mEq/L
   132 mEq/L
   23.5 %
   14.9 K/uL
        [image002.jpg]
                             [**2123-12-3**]  04:50 AM
                             [**2123-12-3**]  04:58 AM
                             [**2123-12-3**]  10:05 AM
                             [**2123-12-3**]  10:11 AM
                             [**2123-12-3**]  12:21 PM
                             [**2123-12-3**]  06:55 PM
                             [**2123-12-3**]  07:11 PM
                             [**2123-12-4**]  04:04 AM
                             [**2123-12-4**]  04:19 AM
                             [**2123-12-4**]  07:10 AM
   WBC
   15.5
   14.9
   Hct
   24.5
   22.4
   23.5
   Plt
   83
   97
   Cr
   0.9
   1.2
   0.6
   TCO2
   24
   22
   23
   25
   23
   Glucose
   144
   134
   84
   136
   Other labs: PT / PTT / INR:25.7/65.4/2.5, CK / CKMB / Troponin-T:28//,
   ALT / AST:79/251, Alk Phos / T Bili:80/25.2, Amylase / Lipase:/41,
   Differential-Neuts:84.0 %, Lymph:13.3 %, Mono:1.7 %, Eos:0.7 %,
   Fibrinogen:499 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.1 g/dL, LDH:525
   IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Fluid analysis / Other labs: Ascites:  WBC 44
   Imaging: CXR:  Low lung volumes, Line in place.  ETT in place.
   Microbiology: Para Cx:  pending, GS neg
   BCx:  pending
   Sputum Cx: Pending
   Assessment and Plan
   45 yo F with h/o etoh abuse transferred from OSH where she presented
   with alcoholic hepatitis, shock, ARDS, ARF requiring CVVH.
    Respiratory Failure:  ARDS.  Requiring minimal vent support today.
   Secretions minimal
     -SBT now.  If [**Last Name (LF) 4767**], [**First Name3 (LF) **] extubate.
    Hypotension:  Seemed to correspond to adding propofol but new fever
   also concerning for septic shock as well
      -Wean as able when we stop propofol
      -Fever w/u below
      -CVP goal [**7-12**]
      -consider checking adrenal access if remains hypotensive
   Fever: Diff Dx include VAP (less likely), catheter related infection,
   SBP.  Fever curve improved now.  Lines changed.
     -Continue broad abx (vanc, cefep) for now.  Dose vanc by level.
     -F/u cultures
     -Change a-line
   Renal Failure: Continues on CVVH, goal to run CVP 8-12
   Liver Failure:  alcoholic hepatitis and cirrhosis.
      -Will continue to support through this and monitor LFT's/INR.
   Altered mental status:  likely multifactorial including ICU delirium,
   hepatic encephalopathy.
      -Continue lactulose and rifaximin
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2123-12-3**] 12:28 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2123-11-24**] 02:29 PM
   Dialysis Catheter - [**2123-11-24**] 05:33 PM
   Multi Lumen - [**2123-12-3**] 05:45 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2123-12-05 07:40:00 Physician Resident Progress Note
Chief Complaint: etoh hepatitis/liver failure
   resp failure/ ards
   renal failure
   24 Hour Events:
   - extubated w/o complication
   - levophed weaned; still on vasopressin
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2123-12-2**] 08:00 AM
   Nafcillin - [**2123-12-3**] 10:00 AM
   Vancomycin - [**2123-12-3**] 08:00 PM
   Cefipime - [**2123-12-5**] 12:08 AM
   Infusions:
   KCl (CRRT) - 4 mEq./hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2123-12-5**] 04:00 AM
   Other medications:
   rifaxamin
   lactulose
   albuterol/atrovent
   colace/senna/bisacodyl prn
   Epogen
   ISS
   Miconazole powder
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-5**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.7
C (96.2
   HR: 99 (90 - 107) bpm
   BP: 91/46(62) {84/40(56) - 110/76(82)} mmHg
   RR: 24 (19 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 4 (2 - 9)mmHg
   Total In:
                                                                  7,954 mL
                                                                  3,083 mL
   PO:
   TF:
                                                                  1,000 mL
                                                                    369 mL
   IVF:
                                                                  6,664 mL
                                                                  2,654 mL
   Blood products:
   Total out:
                                                                  7,294 mL
                                                                  3,444 mL
   Urine:
                                                                     29 mL
   NG:
   Stool:
                                                                    925 mL
   Drains:
   Balance:
                                                                    660 mL
                                                                   -361 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: Standby
   Vt (Spontaneous): 453 (432 - 453) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 0%
   PIP: 6 cmH2O
   SpO2: 98%
   ABG: 7.44/31/72/21/-1
   Ve: 11.6 L/min
   PaO2 / FiO2: 180
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   90 K/uL
   7.5 g/dL
   110 mg/dL
   1.2 mg/dL
   21 mEq/L
   3.2 mEq/L
   14 mg/dL
   103 mEq/L
   136 mEq/L
   21.0 %
   10.0 K/uL
        [image002.jpg]
                             [**2123-12-4**]  04:19 AM
                             [**2123-12-4**]  07:10 AM
                             [**2123-12-4**]  10:08 AM
                             [**2123-12-4**]  10:51 AM
                             [**2123-12-4**]  03:51 PM
                             [**2123-12-4**]  04:16 PM
                             [**2123-12-4**]  11:20 PM
                             [**2123-12-4**]  11:25 PM
                             [**2123-12-5**]  05:10 AM
                             [**2123-12-5**]  05:14 AM
   WBC
   14.9
   10.0
   Hct
   23.5
   21.0
   Plt
   97
   90
   Cr
   1.4
   0.9
   1.2
   TCO2
   23
   25
   25
   24
   22
   Glucose
   132
   106
   104
   110
   Other labs: PT / PTT / INR:22.4/54.8/2.1, CK / CKMB / Troponin-T:28//,
   ALT / AST:68/185, Alk Phos / T Bili:78/25.2, Amylase / Lipase:/41,
   Differential-Neuts:84.0 %, Lymph:13.3 %, Mono:1.7 %, Eos:0.7 %,
   Fibrinogen:499 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.1 g/dL, LDH:260
   IU/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Imaging: IMPRESSION: Left IJ removed. No other changes.
   Microbiology: No growth of blood, sputum, or urine at [**Hospital1 19**]
   Assessment and Plan
   Patient is a 45 year old female with likely EtOH hepatitis/cirrhosis
   admitted to OSH for acute hepatic failure and altered mental status
   transferred to [**Hospital1 19**] with shock, ARDS and ARF, now intubated on
   pressors and CVVH
   # Respiratory failure: ARDS thought [**1-3**] sepsis. Also concern for
   possible PNA given MSSA in sputum,
   - continue vanc/cefipime (started [**2123-12-3**]) given spike through
   nafcillin; dose vanco by level
   - continue to cover for MSSA in sputum, as well as blood cx at OSH (Day
   1 = [**2123-11-24**], 2 week course)
   - extubated
   # Fever
 curve trended downward, no spikes since [**2123-12-2**]
   - continue broad coverage as above (cefepime), dose vanc by level
   (today 9.4) with daily troughs
   - f/u all cultures
   - paracentesis negative for SBP
   # Shock: Likely septic with multiple possible sources including MSSA
   bacteremia (OSH culture grew [**11-21**], day 1 treatment [**11-23**]), E coli UTI
   (cx grew [**11-21**]), and pancolitis of unclear etiology, and perihepatic
   fluid collection.
   - TTE negative, TEE deferred given not high grade Bacteremia with low
   risk organism
   - levophed weaned off, vasopressinon weaned off, will aim to to
   maintain MAP > 60, CVP 8-12
   - Cultures here have been negative to date, c. difficile negative x3
   (precautions removed)
   - continue gram positive coverage until [**2123-12-7**] (currently broadened to
   vanco/ cefepime for fevers)
   - UTI is already treated by 7 day zosyn course.
   - HIV test negative at OSH
   # Renal failure: Likely ATN in setting of shock.  Persistent anuria/
   oliguria. Appreciate renal assistance. Hope is to wean pressor and then
   transition to HD as needed.
   - Continue CVVH until able to tolerate another method of renal
   replacement hemodynamically
   - ask renal they would consider CVVH now that pt off pressors and trial
   of HD
   - Renal recs
   - [**Hospital1 7**] lytes
   # Mental Status: Improving daily, extubated, but still altered, making
   inappropriate requests.  Will likely be slow to recover however given
   toxic/metabolic derangements, renal failure and need for CVVH.
   - Follow mental status
   - consider head CT/neuro consult in future for prognosis if does not
   improve.
   - continue lactulose for possible component of hepatic encephalopathy
   # Anemia: hct drifts every few days. Elevated T.bili, D. bili . In the
   setting of HSM.
   - Transfuse 1 unit today for for HCT  of 21, monitor for evidence of
   bleeding.
   - continue epogen per renal
   - Iron studies as noted previously, guaiac stools
   # Alcoholic Hepatitis: U/S w/evidence of cirrhosis, portal vein
   thrombus (non-occlusive). Hepatitis serologies negative from [**2123-11-24**].
   Tylenol level negative at OSH
   - trend INR, has been stable in mid-2
   - [**Doctor First Name **], anti-mitochondrial ab, Sm ab, RNP ab negative at OSH negative
   - Appreciate liver input
   - Daily LFTS, coags, plts (have been stable, although Tbili 25)
   #Ileus/Abdominal Distension:
   - resolved on reglan, now having large stool output
   - stop reglan, will add back if needed
   - continue TFs and lactulose
   # Portal vein thrombus: Non-occlusive. Hold on anticoagulation for now
   given that this is likely chronic (per liver team)
   # Code Status: FULL, confirmed with family
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2123-12-5**] 06:22 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2123-11-24**] 02:29 PM
   Dialysis Catheter - [**2123-11-24**] 05:33 PM
   Multi Lumen - [**2123-12-3**] 05:45 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2123-12-05 11:30:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated yesterday.
   Weaned off pressors this AM.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2123-12-3**] 10:00 AM
   Vancomycin - [**2123-12-3**] 08:00 PM
   Cefipime - [**2123-12-5**] 10:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 2 grams/hour
   KCl (CRRT) - 4 mEq./hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2123-12-5**] 04:00 AM
   Other medications:
   Colace, famotidine, lactulose, RISS, rifaximin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-5**] 11:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.7
C (96.2
   HR: 97 (92 - 107) bpm
   BP: 99/52(67) {84/40(56) - 109/76(82)} mmHg
   RR: 20 (19 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 4 (2 - 9)mmHg
   Total In:
                                                                  7,954 mL
                                                                  4,710 mL
   PO:
   TF:
                                                                  1,000 mL
                                                                    466 mL
   IVF:
                                                                  6,664 mL
                                                                  4,050 mL
   Blood products:
                                                                    104 mL
   Total out:
                                                                  7,294 mL
                                                                  4,651 mL
   Urine:
                                                                     29 mL
   NG:
   Stool:
                                                                    925 mL
   Drains:
   Balance:
                                                                    660 mL
                                                                     59 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: Standby
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 21%
   SpO2: 99%
   ABG: 7.45/32/70/21/0
   Ve: 11.6 L/min
   PaO2 / FiO2: 175
   Physical Examination
   General Appearance: No acute distress, tremulous
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Oriented (to): "hospital"
   "[**2113**]", Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.5 g/dL
   90 K/uL
   103 mg/dL
   1.2 mg/dL
   21 mEq/L
   3.7 mEq/L
   14 mg/dL
   103 mEq/L
   137 mEq/L
   21.0 %
   10.0 K/uL
        [image002.jpg]
                             [**2123-12-4**]  10:08 AM
                             [**2123-12-4**]  10:51 AM
                             [**2123-12-4**]  03:51 PM
                             [**2123-12-4**]  04:16 PM
                             [**2123-12-4**]  11:20 PM
                             [**2123-12-4**]  11:25 PM
                             [**2123-12-5**]  05:10 AM
                             [**2123-12-5**]  05:14 AM
                             [**2123-12-5**]  09:48 AM
                             [**2123-12-5**]  10:11 AM
   WBC
   10.0
   Hct
   21.0
   Plt
   90
   Cr
   1.4
   0.9
   1.2
   TCO2
   25
   25
   24
   22
   23
   Glucose
   132
   106
   104
   110
   103
   Other labs: PT / PTT / INR:22.4/54.8/2.1, CK / CKMB / Troponin-T:28//,
   ALT / AST:68/185, Alk Phos / T Bili:78/25.2, Amylase / Lipase:/41,
   Differential-Neuts:84.0 %, Lymph:13.3 %, Mono:1.7 %, Eos:0.7 %,
   Fibrinogen:499 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.1 g/dL, LDH:260
   IU/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Imaging: No CXR today
   Microbiology: BCx:  NGTD
   Catheter tip:  pending
   Assessment and Plan
   45 yo F with h/o etoh abuse transferred from OSH where she presented
   with alcoholic hepatitis, shock, ARDS, ARF requiring CVVH.
   Respiratory Failure:  ARDS.  Now extubated and doing well.
     -Aspiration precautions.
    Hypotension:  Improved today, weaned off pressors.
      -Follow up cultures and continue abx for now.
    Fever: Diff Dx include VAP (less likely), catheter related infection,
   SBP.  Fever resolved now.  Lines changed.
      -Continue broad abx (vanc, cefep) for now.  Dose vanc by level,
   needs dose today
      -F/u cultures
    Renal Failure: Will discuss with renal timing of transitioning to HD
   now that she is off pressors.
    Liver Failure:  alcoholic hepatitis and cirrhosis.
      -Will continue to support through this and monitor LFT's/INR.
   Altered mental status:  likely multifactorial including ICU delirium,
   hepatic encephalopathy.  Reglan stopped for now.
     -Continue lactulose and rifaximin
   Anemia:  Transfuse 1 unit of PRBC today for HCT of 21.  No signs of
   active bleeding.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2123-12-5**] 08:36 AM 55 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2123-11-24**] 02:29 PM
   Dialysis Catheter - [**2123-11-24**] 05:33 PM
   Multi Lumen - [**2123-12-3**] 05:45 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2123-12-06 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2123-12-6**] 04:47 AM
   - received 1 unit PRBCs for Hct 21 yesterday AM
   - continues on vanco/cefepime
   -  had CVVH holiday
   - d/c'd foley
   - hypotensive off vasopressin to 78/39--> bolus 250cc x 2
   - had to restart levophed for persistent hypotension
   - became tachycardic on leophed, settled out in the 110s
   - T 100.4 - blood cultures
   - a-line not working well
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2123-12-3**] 10:00 AM
   Vancomycin - [**2123-12-5**] 02:00 PM
   Cefipime - [**2123-12-5**] 10:00 PM
   Infusions:
   Norepinephrine - 0.13 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2123-12-6**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-6**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 119 (94 - 120) bpm
   BP: 100/46(60) {85/36(0) - 113/49(62)} mmHg
   RR: 18 (17 - 33) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
    CVP: 7 (5 - 8)mmHg
   Total In:
                                                                  8,176 mL
                                                                    792 mL
   PO:
                                                                     50 mL
   TF:
                                                                  1,170 mL
                                                                    409 mL
   IVF:
                                                                  6,376 mL
                                                                    263 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  6,583 mL
                                                                  1,150 mL
   Urine:
   NG:
   Stool:
                                                                    925 mL
                                                                  1,150 mL
   Drains:
   Balance:
                                                                  1,593 mL
                                                                   -358 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 99%
   ABG: 7.44/34/87.[**Numeric Identifier 181**]/21/0
   PaO2 / FiO2: 251
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   112 K/uL
   8.3 g/dL
   104 mg/dL
   1.5 mg/dL
   21 mEq/L
   3.4 mEq/L
   21 mg/dL
   104 mEq/L
   135 mEq/L
   22.3 %
   12.5 K/uL
        [image002.jpg]
                             [**2123-12-5**]  05:10 AM
                             [**2123-12-5**]  05:14 AM
                             [**2123-12-5**]  09:48 AM
                             [**2123-12-5**]  10:11 AM
                             [**2123-12-5**]  12:00 PM
                             [**2123-12-5**]  03:21 PM
                             [**2123-12-5**]  06:00 PM
                             [**2123-12-5**]  06:10 PM
                             [**2123-12-6**]  03:10 AM
                             [**2123-12-6**]  03:17 AM
   WBC
   10.0
   12.5
   Hct
   21.0
   22.3
   Plt
   90
   112
   Cr
   1.2
   1.5
   TCO2
   22
   23
   23
   24
   Glucose
   110
   103
   124
   89
   133
   104
   Other labs: PT / PTT / INR:22.4/57.2/2.1, CK / CKMB / Troponin-T:28//,
   ALT / AST:67/236, Alk Phos / T Bili:87/24.7, Amylase / Lipase:/41,
   Differential-Neuts:84.0 %, Lymph:13.3 %, Mono:1.7 %, Eos:0.7 %,
   Fibrinogen:499 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.1 g/dL, LDH:260
   IU/L, Ca++:9.4 mg/dL, Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Imaging: No new imaging
   Microbiology: [**12-6**] BCX: PND
   [**12-3**] CATHETER CX: negative
   [**12-3**] SPUTUM: rare OP flora
   [**12-3**] Ascites: NGTD
   Assessment and Plan
   Patient is a 45 year old female with likely EtOH hepatitis/cirrhosis
   admitted to OSH for acute hepatic failure and altered mental status
   transferred to [**Hospital1 19**] with shock, ARDS and ARF, now intubated on
   pressors and CVVH
   # Respiratory failure: ARDS thought [**1-3**] sepsis. Also concern for
   possible PNA given MSSA in sputum,
   - continue vanc/cefipime (started [**2123-12-3**]) given spike through
   nafcillin; dose vanco by level
   - continue to cover for MSSA in sputum, as well as blood cx at OSH (Day
   1 = [**2123-11-24**], 2 week course)
   - extubated
   # Fever
 curve trended downward, no spikes since [**2123-12-2**]
   - continue broad coverage as above (cefepime), dose vanc by level
   (today 9.4) with daily troughs
   - f/u all cultures
   - paracentesis negative for SBP
   # Shock: Likely septic with multiple possible sources including MSSA
   bacteremia (OSH culture grew [**11-21**], day 1 treatment [**11-23**]), E coli UTI
   (cx grew [**11-21**]), and pancolitis of unclear etiology, and perihepatic
   fluid collection.
   - TTE negative, TEE deferred given not high grade Bacteremia with low
   risk organism
   - levophed weaned off, vasopressinon weaned off, will aim to to
   maintain MAP > 60, CVP 8-12
   - Cultures here have been negative to date, c. difficile negative x3
   (precautions removed)
   - continue gram positive coverage until [**2123-12-7**] (currently broadened to
   vanco/ cefepime for fevers)
   - UTI is already treated by 7 day zosyn course.
   - HIV test negative at OSH
   # Renal failure: Likely ATN in setting of shock.  Persistent anuria/
   oliguria. Appreciate renal assistance. Hope is to wean pressor and then
   transition to HD as needed.
   - Continue CVVH until able to tolerate another method of renal
   replacement hemodynamically
   - ask renal they would consider CVVH now that pt off pressors and trial
   of HD
   - Renal recs
   - [**Hospital1 7**] lytes
   # Mental Status: Improving daily, extubated, but still altered, making
   inappropriate requests.  Will likely be slow to recover however given
   toxic/metabolic derangements, renal failure and need for CVVH.
   - Follow mental status
   - consider head CT/neuro consult in future for prognosis if does not
   improve.
   - continue lactulose for possible component of hepatic encephalopathy
   # Anemia: hct drifts every few days. Elevated T.bili, D. bili . In the
   setting of HSM.
   - Transfuse 1 unit today for for HCT  of 21, monitor for evidence of
   bleeding.
   - continue epogen per renal
   - Iron studies as noted previously, guaiac stools
   # Alcoholic Hepatitis: U/S w/evidence of cirrhosis, portal vein
   thrombus (non-occlusive). Hepatitis serologies negative from [**2123-11-24**].
   Tylenol level negative at OSH
   - trend INR, has been stable in mid-2
   - [**Doctor First Name **], anti-mitochondrial ab, Sm ab, RNP ab negative at OSH negative
   - Appreciate liver input
   - Daily LFTS, coags, plts (have been stable, although Tbili 25)
   #Ileus/Abdominal Distension:
   - resolved on reglan, now having large stool output
   - stop reglan, will add back if needed
   - continue TFs and lactulose
   # Portal vein thrombus: Non-occlusive. Hold on anticoagulation for now
   given that this is likely chronic (per liver team)
   # Code Status: FULL, confirmed with family
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2123-12-6**] 02:39 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2123-11-24**] 02:29 PM
   Dialysis Catheter - [**2123-11-24**] 05:33 PM
   Multi Lumen - [**2123-12-3**] 05:45 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2123-12-06 09:30:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   CVVH holiday overnight.
   Weaned off of pressors yesterday but ultimately went back on Levophed
   overnight
   Fever to 101.4 this AM.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2123-12-3**] 10:00 AM
   Vancomycin - [**2123-12-5**] 02:00 PM
   Cefipime - [**2123-12-5**] 10:00 PM
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2123-12-6**] 04:00 AM
   Other medications:
   Colace, famotidine, lacutose, RISS, rifaximin, Epogen
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-6**] 09:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.6
C (101.4
   HR: 117 (94 - 120) bpm
   BP: 99/42(57) {85/36(0) - 113/49(62)} mmHg
   RR: 28 (17 - 33) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
   CVP: 7 (5 - 8)mmHg
   Total In:
                                                                  8,176 mL
                                                                  1,004 mL
   PO:
                                                                     50 mL
   TF:
                                                                  1,170 mL
                                                                    503 mL
   IVF:
                                                                  6,376 mL
                                                                    321 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  6,583 mL
                                                                  1,150 mL
   Urine:
   NG:
   Stool:
                                                                    925 mL
                                                                  1,150 mL
   Drains:
   Balance:
                                                                  1,593 mL
                                                                   -146 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 30%
   SpO2: 94%
   ABG: 7.44/34/87.[**Numeric Identifier 181**]/21/0
   PaO2 / FiO2: 251
   Physical Examination
   General Appearance: Well nourished, confused
   Eyes / Conjunctiva: Icteric sclera
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic, No(t)
   Diastolic), tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : At bases)
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Distended,
   Hypoactive BS
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, Jaundice
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Oriented (to): Not oriented, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   112 K/uL
   104 mg/dL
   1.5 mg/dL
   21 mEq/L
   3.4 mEq/L
   21 mg/dL
   104 mEq/L
   135 mEq/L
   22.3 %
   12.5 K/uL
        [image002.jpg]
                             [**2123-12-5**]  05:10 AM
                             [**2123-12-5**]  05:14 AM
                             [**2123-12-5**]  09:48 AM
                             [**2123-12-5**]  10:11 AM
                             [**2123-12-5**]  12:00 PM
                             [**2123-12-5**]  03:21 PM
                             [**2123-12-5**]  06:00 PM
                             [**2123-12-5**]  06:10 PM
                             [**2123-12-6**]  03:10 AM
                             [**2123-12-6**]  03:17 AM
   WBC
   10.0
   12.5
   Hct
   21.0
   22.3
   Plt
   90
   112
   Cr
   1.2
   1.5
   TCO2
   22
   23
   23
   24
   Glucose
   110
   103
   124
   89
   133
   104
   Other labs: PT / PTT / INR:22.4/57.2/2.1, CK / CKMB / Troponin-T:28//,
   ALT / AST:67/236, Alk Phos / T Bili:87/24.7, Amylase / Lipase:/41,
   Differential-Neuts:84.0 %, Lymph:13.3 %, Mono:1.7 %, Eos:0.7 %,
   Fibrinogen:499 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.1 g/dL, LDH:260
   IU/L, Ca++:9.4 mg/dL, Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Imaging: No new imaging
   Microbiology: BCx: NGTD
   Cath tip: NGTD
   Sputum Cx: Oral flora
   Ascites Cx: NGTD
   Assessment and Plan
   45 yo F with h/o etoh abuse transferred from OSH where she presented
   with alcoholic hepatitis, shock, ARDS, ARF requiring CVVH.
   Fever: Febrile again this morning
     -Change A-line today
     -Check Vanc level today
     -Change cefepime to zosyn
     -Check LENI's
     -F/u cultures
   Respiratory Failure:  ARDS.  Now extubated and doing well.
     -Aspiration precautions.
    Hypotension:  Still with some pressor requirement, may be related to
   new fever +/- cirrhosis
      -Follow up cultures and abx as above.
      -CVP 8-12
    Renal Failure: Still anuric
      -Discuss with renal ? d/c fem line and place tunnelled if
   defervesces.
     Liver Failure:  alcoholic hepatitis and cirrhosis.
     -Will continue to support through this and monitor LFT's/INR.
    Altered mental status:  likely multifactorial including ICU delirium,
   hepatic encephalopathy.  Reglan stopped for now.
     -Continue lactulose and rifaximin
    Anemia:  Tx to keep HCT >21.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2123-12-6**] 02:39 AM 55 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2123-11-24**] 02:29 PM
   Dialysis Catheter - [**2123-11-24**] 05:33 PM
   Multi Lumen - [**2123-12-3**] 05:45 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2123-12-07 07:46:00 Physician Resident Progress Note
Chief Complaint: ETOH hepatitis
   ESLD
   Resp failure
   Hypotension
   Sepsis
   Renal failure
   24 Hour Events:
   - remained febrile 100.5 during day [**12-6**], antibiotcs switched back to
   vanco/zosyn
   - remains on 1 pressor
   - LENIs neg for DVT
   - [**Name (NI) 3234**] sono negative for acalculous cholecystitis
   - restarted CVVH
   - art line successuly resited, then fell out,not yet replaced
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2123-12-5**] 02:00 PM
   Cefipime - [**2123-12-5**] 10:00 PM
   Piperacillin - [**2123-12-7**] 04:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.6 grams/hour
   Norepinephrine - 0.22 mcg/Kg/min
   KCl (CRRT) - 4 mEq./hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2123-12-7**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-7**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 35.4
C (95.7
   HR: 88 (84 - 119) bpm
   BP: 101/49(62) {89/38(49) - 121/59(70)} mmHg
   RR: 25 (15 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 7 (2 - 9)mmHg
   Total In:
                                                                  3,153 mL
                                                                  3,067 mL
   PO:
   TF:
                                                                  1,142 mL
                                                                    414 mL
   IVF:
                                                                  1,681 mL
                                                                  2,593 mL
   Blood products:
   Total out:
                                                                  2,281 mL
                                                                  3,309 mL
   Urine:
   NG:
   Stool:
                                                                  1,150 mL
                                                                    800 mL
   Drains:
   Balance:
                                                                    872 mL
                                                                   -242 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.39/37/92.[**Numeric Identifier 132**]/21/-1
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended,
   hypoactive BS
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   143 K/uL
   8.7 g/dL
   136 mg/dL
   2.1 mg/dL
   21 mEq/L
   3.0 mEq/L
   28 mg/dL
   104 mEq/L
   137 mEq/L
   24.9 %
   18.3 K/uL
        [image002.jpg]
                             [**2123-12-5**]  12:00 PM
                             [**2123-12-5**]  03:21 PM
                             [**2123-12-5**]  06:00 PM
                             [**2123-12-5**]  06:10 PM
                             [**2123-12-6**]  03:10 AM
                             [**2123-12-6**]  03:17 AM
                             [**2123-12-6**]  03:47 PM
                             [**2123-12-6**]  03:58 PM
                             [**2123-12-6**]  11:05 PM
                             [**2123-12-7**]  05:07 AM
   WBC
   12.5
   18.3
   Hct
   22.3
   23.0
   24.9
   Plt
   112
   143
   Cr
   1.5
   2.7
   2.4
   2.1
   TCO2
   23
   24
   23
   Glucose
   124
   89
   133
   104
   114
   153
   136
   Other labs: PT / PTT / INR:28.4/80.4/2.9, CK / CKMB / Troponin-T:28//,
   ALT / AST:74/250, Alk Phos / T Bili:103/27.7, Amylase / Lipase:/41,
   Differential-Neuts:80.0 %, Band:0.0 %, Lymph:17.0 %, Mono:3.0 %,
   Eos:0.0 %, Fibrinogen:499 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.1
   g/dL, LDH:260 IU/L, Ca++:10.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   Imaging: [**2123-12-6**] Liver US: IMPRESSION: Nodular appearance of the liver
   surface, which is seen in cirrhosis. Ascites. Gallbladder sludge with
   no son[**Name (NI) 351**] evidence of
   cholecystitis
   [**2123-12-6**] LENIS: No DVT
   CXR [**2123-12-7**]:  diminished lung volumes
   Microbiology: [**2123-12-3**], Blood, Sputum, Ascites: NGTD
   [**2123-12-6**], Blood, Sputum: NGTD
   [**2123-12-3**]: CVL catheters: No sig growth
   Assessment and Plan
   Patient is a 45 year old female with EtOH hepatitis/cirrhosis admitted
   to OSH for acute hepatic failure and altered mental status transferred
   to [**Hospital1 19**] with shock, ARDS and ARF, intubated on pressors. Now
   successfully extubated, but remains hypotensive with 1 pressor
   requirement. Remains on CVVH.
   # Fever
 curve trended downward, but low grade yesterday after 101.5
   on AM rounds [**2123-12-6**].  WBC increasing.  Other sources considered SBP
   (neg diagnostic para [**2123-12-3**]), sinusitis (no evidence sinus secretion).
   Concern for line infection: CVL changed [**2123-12-3**], a-line pulled [**2123-12-6**]
   (not yet replaced), and femoral HD line changed over wire [**2123-12-3**].
   Also consider abdominal source, esp with OSH CT scan showing pancolitis
   and ? peri-hepatic fluid collection
   - Abd CT (w/contrast if OK with renal), also will scan sinus and lungs
   - Renal will place new HD line and pull old one
   - changed cefepime to zosyn [**2123-12-6**], dose vanc by level with daily
   troughs
 f/u this AM
   - f/u all cultures - ngtd
   - paracentesis negative for SBP [**2123-12-3**]
   # Shock: Likely septic with multiple possible sources including MSSA
   bacteremia (OSH culture grew [**11-21**], day 1 treatment [**11-23**]), E coli UTI
   (cx grew [**11-21**]), and pancolitis of unclear etiology, and perihepatic
   fluid collection.
   - TTE negative, TEE deferred given not high grade Bacteremia with low
   risk organism
   - continue levophed will aim to to maintain MAP > 60
   - CVVH to run even today given her hypotension
   - Cultures here have been negative to date, c. difficile negative x3
   (precautions removed)
   - has completed course for MSSA bacteremia, however still febrile and
   covered broadly --> now on vanco/zosyn since [**2123-12-6**] (was on
   vanco/cefepime since [**2123-12-3**])
   - UTI was already treated by 7 day zosyn course.
   - HIV test negative at OSH
    # Renal failure: Likely ATN in setting of shock.  Persistent anuria/
   oliguria. Appreciate renal assistance. Hope is to wean pressor and then
   transition to HD as needed.
   - Femoral HD line to be replaced by renal for fevers; eventually needs
   tunnelled HD line
   - Continue CVVH until able to tolerate another method of renal
   replacement hemodynamically
 run even
   - Renal recs
   - lytes per CVVH protocol
   # Mental Status: A+O x 2. Extubated, but still altered. Will likely be
   slow to recover however given toxic/metabolic derangements, renal
   failure and need for CVVH.
   - Follow mental status
   - consider head CT/neuro consult in future for prognosis if does not
   improve.
   - TID lactulose and rifaximin for hepatic encephalopathy
   # Anemia: hct drifts every few days. Now stable. Guaiacs have been
   negative.
   - continue epogen per renal
   - trend HCT
   - transfuse for Hct < 21
    # Alcoholic Hepatitis: U/S w/evidence of cirrhosis, portal vein
   thrombus (non-occlusive). Hepatitis serologies negative from [**2123-11-24**].
   Tylenol level negative at OSH. [**Doctor First Name **], anti-mitochondrial ab, Sm ab, RNP
   ab negative at OSH negative
   - repeat [**Doctor First Name 3234**] u/s [**2123-12-6**] unchanged
   - Tbili slightly up
 may indicate that her liver failure slowly
   worsening
   - trend INR, has been stable in mid-2
   - Appreciate liver input
   - Daily LFTS, coags, plts
   #Ileus/Abdominal Distension:
   - resolved on reglan, now having large stool output
   - stopped reglan, will add back if needed
   - continue TFs and lactulose
   # Respiratory failure: extubated. Had ARDS thought [**1-3**] sepsis. Had PNA
   at OSH with MSSA in sputum,
   - continue broad coverage vanc/cefipime (started [**2123-12-3**])--> changed to
   vanco/zosyn on [**2123-12-6**] for persistent fever
   - dose vanco by level
   - continue to cover for MSSA in sputum, as well as blood cx at OSH (Day
   1 = [**2123-11-24**], 2 week course)
   - extubated
   - have to run CVVH even given hypotension
   # Code Status: FULL, confirmed with family
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2123-12-7**] 12:01 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2123-11-24**] 05:33 PM
   Multi Lumen - [**2123-12-3**] 05:45 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2123-12-07 10:36:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Still requiring small amount of levophed
   LENI's, RUQ u/s done.
   A-line replaced but then new a-line became dislodged.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2123-12-5**] 02:00 PM
   Cefipime - [**2123-12-5**] 10:00 PM
   Piperacillin - [**2123-12-7**] 04:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.6 grams/hour
   Norepinephrine - 0.22 mcg/Kg/min
   KCl (CRRT) - 4 mEq./hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2123-12-7**] 04:00 AM
   Other medications:
   Lactulose, RISS, rifaximin, epogen
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-7**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 35.8
C (96.5
   HR: 106 (84 - 119) bpm
   BP: 97/55(66) {89/38(49) - 121/59(70)} mmHg
   RR: 28 (15 - 32) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
   CVP: 8 (2 - 10)mmHg
   Total In:
                                                                  3,153 mL
                                                                  4,002 mL
   PO:
   TF:
                                                                  1,142 mL
                                                                    563 mL
   IVF:
                                                                  1,681 mL
                                                                  3,379 mL
   Blood products:
   Total out:
                                                                  2,281 mL
                                                                  4,310 mL
   Urine:
   NG:
   Stool:
                                                                  1,150 mL
                                                                    800 mL
   Drains:
   Balance:
                                                                    872 mL
                                                                   -308 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.39/37/92.[**Numeric Identifier 132**]/21/-1
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL, Icteric sclera
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: Bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   143 K/uL
   136 mg/dL
   2.1 mg/dL
   21 mEq/L
   3.0 mEq/L
   28 mg/dL
   104 mEq/L
   137 mEq/L
   24.9 %
   18.3 K/uL
        [image002.jpg]
                             [**2123-12-5**]  12:00 PM
                             [**2123-12-5**]  03:21 PM
                             [**2123-12-5**]  06:00 PM
                             [**2123-12-5**]  06:10 PM
                             [**2123-12-6**]  03:10 AM
                             [**2123-12-6**]  03:17 AM
                             [**2123-12-6**]  03:47 PM
                             [**2123-12-6**]  03:58 PM
                             [**2123-12-6**]  11:05 PM
                             [**2123-12-7**]  05:07 AM
   WBC
   12.5
   18.3
   Hct
   22.3
   23.0
   24.9
   Plt
   112
   143
   Cr
   1.5
   2.7
   2.4
   2.1
   TCO2
   23
   24
   23
   Glucose
   124
   89
   133
   104
   114
   153
   136
   Other labs: PT / PTT / INR:28.4/80.4/2.9, CK / CKMB / Troponin-T:28//,
   ALT / AST:74/250, Alk Phos / T Bili:103/27.7, Amylase / Lipase:/41,
   Differential-Neuts:80.0 %, Band:0.0 %, Lymph:17.0 %, Mono:3.0 %,
   Eos:0.0 %, Fibrinogen:499 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.1
   g/dL, LDH:260 IU/L, Ca++:10.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   Fluid analysis / Other labs: Vanc level: pending
   Imaging: LENI's:  neg for DVT.
   RUQ U/S:  No clear evidence of cholecystitis
   CXR: Low lung volumes.  Line in place.  No effusions.
   Microbiology: Sputum Cx:  NGTD
   BCx:  NGTD
   Ascities ([**12-3**]): NGTD
   Cath tip: NGTD
   Assessment and Plan
   45 yo F with h/o etoh abuse transferred from OSH where she presented
   with alcoholic hepatitis, shock, ARDS, ARF requiring CVVH.
   Fever: Fever curve down today but also on CVVH.  WBC trending up.
     -Check Vanc level today
     -Cont Vanco/Zosyn
     -Resite CVVH catheter
     -F/u cultures
     -Abd/Chest/sinus CT. Discuss with renal if IV contrast can/should be
   used.
    Respiratory Failure:  ARDS.
     -Now extubated and doing well.
     -Aspiration precautions.
   Hypotension:  Still with some pressor requirement, may be related to
   new fever +/- cirrhosis
     -Follow up cultures and abx as above.
     -CVP 8-12
    Renal Failure: Still anuric
     -Resite CVVH catheter as above.
     -Would run even.
    Liver Failure:  alcoholic hepatitis and cirrhosis.
     -Will continue to support through this and monitor LFT's/INR.
    Altered mental status:  likely multifactorial including ICU delirium,
   hepatic encephalopathy.  Reglan stopped for now.
     -Continue lactulose and rifaximin
    Anemia:  Tx to keep HCT >21.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2123-12-7**] 09:04 AM 55 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2123-11-24**] 05:33 PM
   Multi Lumen - [**2123-12-3**] 05:45 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2123-12-09 07:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   24h events:
   - renal wanted to see if she remained afebrile; if so then would like
   IR guided tunnelled line, so did not change CVVH line
   - Hct did not bump to 1 unit -- ordered for 2 add'l PRBCs - repeat Hct
   24.8
   - Received 2 units FFP
   - Spoke to sister who will try to mobilize family for family meeting
   - stool O&P negative, culture pending
   - A-line came out; was re-sited on the left arm, ABP higher than NIBP,
   so pressor requirement halved
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2123-12-7**] 03:00 PM
   Metronidazole - [**2123-12-9**] 12:00 AM
   Piperacillin - [**2123-12-9**] 06:11 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 4 mEq./hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2123-12-9**] 05:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-9**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (98.9
   HR: 99 (82 - 111) bpm
   BP: 105/50(68) {87/46(60) - 128/74(234)} mmHg
   RR: 24 (17 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 6 (3 - 11)mmHg
   Total In:
                                                                 10,591 mL
                                                                  2,706 mL
   PO:
   TF:
                                                                  1,325 mL
                                                                    418 mL
   IVF:
                                                                  7,457 mL
                                                                  2,228 mL
   Blood products:
                                                                  1,389 mL
   Total out:
                                                                 11,144 mL
                                                                  2,352 mL
   Urine:
   NG:
   Stool:
                                                                    700 mL
   Drains:
   Balance:
                                                                   -553 mL
                                                                    354 mL
   Respiratory support
   SpO2: 100%
   ABG: 7.44/36/143/24/1
   Physical Examination
   NAD, A+ x 2
   Icteric
   3/6 systolic murmur no change
   Breath sounds decreased  R>L bases
   Obese soft nt/ slightly disrtended hypoactive BS
   Trace b/l peripheral edema
   Mild asterixis
   Labs / Radiology
   69 K/uL
   9.8 g/dL
   110 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.6 mEq/L
   17 mg/dL
   103 mEq/L
   140 mEq/L
   25.7 %
   16.2 K/uL
        [image002.jpg]
                             [**2123-12-8**]  06:04 AM
                             [**2123-12-8**]  10:07 AM
                             [**2123-12-8**]  10:22 AM
                             [**2123-12-8**]  12:42 PM
                             [**2123-12-8**]  04:02 PM
                             [**2123-12-8**]  04:19 PM
                             [**2123-12-8**]  09:50 PM
                             [**2123-12-8**]  10:07 PM
                             [**2123-12-9**]  04:33 AM
                             [**2123-12-9**]  05:05 AM
   WBC
   16.2
   Hct
   21.3
   24.8
   25.7
   Plt
   69
   Cr
   1.5
   0.5
   TCO2
   26
   26
   26
   25
   25
   Glucose
   123
   118
   120
   110
   Other labs: PT / PTT / INR:22.8/59.9/2.2, CK / CKMB / Troponin-T:28//,
   ALT / AST:67/222, Alk Phos / T Bili:114/36.3, Amylase / Lipase:/41,
   Differential-Neuts:80.0 %, Band:0.0 %, Lymph:17.0 %, Mono:3.0 %,
   Eos:0.0 %, Fibrinogen:499 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.1
   g/dL, LDH:387 IU/L, Ca++:10.2 mg/dL, Mg++:2.2 mg/dL, PO4:1.9 mg/dL
   Imaging: none new
   Microbiology: [**12-8**] Cdiff: negative
   [**12-8**] stool cx: no o+p seen, cdiff neg
   [**12-7**] sptuum: yeast
   [**12-6**] IV catheter: no growth
   [**12-6**] bcx: ngtd
   [**12-3**] multiple catheters: negative
   Assessment and Plan
   Patient is a 45 year old female with EtOH hepatitis/cirrhosis admitted
   to OSH for acute hepatic failure and altered mental status transferred
   to [**Hospital1 19**] with shock, ARDS and ARF, intubated on pressors. Now
   successfully extubated, but remains hypotensive with 1 pressor
   requirement. Remains on CVVH. Evidence of ongoing pancolitis
   # Fever
 Source may be either pancolitis versus dental abscesses.
   Also, have not pursued TEE after her positive blood cultures, although
   TTE was negative. Less likely line infection given persistently
   negative blood and catheter cultures. Temp regulated somewhat with bear
   hugger, no euthermic off of it. CT showed concern for dental abscess,
   as well as continued pan-colitis.
   - dental c/s to see today, unable to get panorex due to clinical
   instability
   - would taper down to only flagyl to cover both dental and c diff
   - f/u cultures, send 3^rd cdiff, but would treat with empiric 14 day
   course of flagyl
   - Other sources ruled out: SBP (neg diagnostic para [**2123-12-3**]).  Lines:
   CVL changed [**2123-12-3**], a-line pulled [**2123-12-6**] (replaced [**12-7**] and again [**12-8**]),
   and femoral HD line changed over wire [**2123-12-3**]. Sinusists: neg CT.
   Acalculous cholecystits: negative [**Name (NI) 3234**] sono
   # GI bleeding
 had clots in stool [**12-8**].  Hct didn
t bump appropriately
   to 2 units prbcs
   - trend HCT [**Hospital1 7**]
   - transfuse to > 24
   - maintain active t+c
   # Shock: Likely septic.  Known prior infections include MSSA bacteremia
   (OSH culture grew [**11-21**], day 1 treatment [**11-23**]), E coli UTI (cx grew
   [**11-21**]).  Recent imaging suggest pan-colitis and dental abscess (see
   above).  Culture data negative at [**Hospital1 19**].  - continue levophed, wean as
   tolerated will aim to to maintain MAP > 60
   - has completed course for MSSA bacteremia and E cOli UTI, but was
   broadened when re-spiked, now on vanco/zosyn since [**2123-12-6**] (was on
   vanco/cefepime since [**2123-12-3**]), added flagyl [**2123-12-7**]. Would taper as above
    # Renal failure: Likely ATN in setting of shock.  Persistent anuria/
   oliguria. Appreciate renal assistance. Hope is to wean pressor and then
   transition to HD.
   - per renal, if afebrile today, try to place tunneled HD line, can then
   d/c femoral CVVH line
   - Continue CVVH until able to tolerate another method of renal
   replacement hemodynamically
 run even
   - lytes per CVVH protocol
   # Mental Status: A+O x 2. Extubated, but still altered. Will likely be
   slow to recover however given toxic/metabolic derangements, renal
   failure and need for CVVH.
   - Follow mental status
   - consider head CT/neuro consult in future for prognosis if does not
   improve.
   - TID lactulose and rifaximin for hepatic encephalopathy
   # Anemia: Has menses, Hct drifting down.  Also some clots in stool.
   - continue epogen per renal
   - trend HCT
   - transfuse for Hct < 24
    # Alcoholic Hepatitis: U/S w/evidence of cirrhosis, portal vein
   thrombus (non-occlusive). Hepatitis serologies negative from [**2123-11-24**].
   Tylenol level negative at OSH. [**Doctor First Name **], anti-mitochondrial ab, Sm ab, RNP
   ab negative at OSH negative
   - repeat [**Doctor First Name 3234**] u/s [**2123-12-6**] unchanged
   - Tbili rising may indicate that her liver failure worsening
   - trend INR, has been stable in mid-2
   - Appreciate liver input
   - Daily LFTS, coags, plts
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2123-12-9**] 01:47 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2123-11-24**] 05:33 PM
   Multi Lumen - [**2123-12-3**] 05:45 PM
   20 Gauge - [**2123-12-7**] 02:30 PM
   Arterial Line - [**2123-12-9**] 05:31 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code, confirmed with family
   Disposition:ICU

2123-12-09 10:48:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Transfused 3 u PRBC and 2 u FFP  total for declining HCT.
   A line again dislodged, new one placed.
   Pressor requirement decreased.
                   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2123-12-7**] 03:00 PM
   Piperacillin - [**2123-12-9**] 06:11 AM
   Metronidazole - [**2123-12-9**] 08:00 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 4 mEq./hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2123-12-9**] 05:21 AM
   Other medications:
   RISS, rifaxamin, epogen, lactulose
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-9**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.8
   HR: 89 (82 - 109) bpm
   BP: 113/56(75) {87/46(60) - 128/74(234)} mmHg
   RR: 23 (17 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 4 (3 - 10)mmHg
   Total In:
                                                                 10,591 mL
                                                                  3,653 mL
   PO:
   TF:
                                                                  1,325 mL
                                                                    575 mL
   IVF:
                                                                  7,457 mL
                                                                  3,018 mL
   Blood products:
                                                                  1,389 mL
   Total out:
                                                                 11,144 mL
                                                                  3,536 mL
   Urine:
   NG:
   Stool:
                                                                  1,100 mL
   Drains:
   Balance:
                                                                   -553 mL
                                                                    117 mL
   Respiratory support
   SpO2: 99%
   ABG: 7.44/36/143/24/1
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: Icteric sclera
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: Bibasilar)
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   69 K/uL
   110 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.6 mEq/L
   17 mg/dL
   103 mEq/L
   140 mEq/L
   25.7 %
   16.2 K/uL
        [image002.jpg]
                             [**2123-12-8**]  06:04 AM
                             [**2123-12-8**]  10:07 AM
                             [**2123-12-8**]  10:22 AM
                             [**2123-12-8**]  12:42 PM
                             [**2123-12-8**]  04:02 PM
                             [**2123-12-8**]  04:19 PM
                             [**2123-12-8**]  09:50 PM
                             [**2123-12-8**]  10:07 PM
                             [**2123-12-9**]  04:33 AM
                             [**2123-12-9**]  05:05 AM
   WBC
   16.2
   Hct
   21.3
   24.8
   25.7
   Plt
   69
   Cr
   1.5
   0.5
   TCO2
   26
   26
   26
   25
   25
   Glucose
   123
   118
   120
   110
   Other labs: PT / PTT / INR:22.8/59.9/2.2, CK / CKMB / Troponin-T:28//,
   ALT / AST:67/222, Alk Phos / T Bili:114/36.3, Amylase / Lipase:/41,
   Differential-Neuts:80.0 %, Band:0.0 %, Lymph:17.0 %, Mono:3.0 %,
   Eos:0.0 %, Fibrinogen:499 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.1
   g/dL, LDH:387 IU/L, Ca++:10.2 mg/dL, Mg++:2.2 mg/dL, PO4:1.9 mg/dL
   Microbiology: C diff x2 neg
   Stool Cx: pending
   Sputum Cx: Yeast
   BCx:  NGTD
   Cath tips: NGTD
   Assessment and Plan
   45 yo F with h/o etoh abuse transferred from OSH where she presented
   with alcoholic hepatitis, shock, ARDS, ARF requiring CVVH.  Now
   extubated.
   Fever: Fever curve down, in fact, requiring bair-hugger while on CVVH.
   WBC stable today.
     -Check Vanc level today
     -Cont Zosyn, will stop Vanco and observe fever curve
     -Empiric flagyl given colitis on CT
     -Now that fever curve improved, will try to replace HD line with
   tunnelled line-->discuss with IR
     -F/u cultures including stool cultures
     -Dental consult pending regarding possible abscess.
   Anemia:  HCT down yesterday, some small clots in stool.
     -Serial HCTs, transfuse to keep HCT >25.
     -If bleeding becomes more [**Last Name (LF) 4886**], [**First Name3 (LF) **] ask for GI eval.
    Hypotension:  Still with some pressor requirement, may be related to
   new fever +/- cirrhosis
     -Follow up fever work up and abx as above.
     -CVP 8-12
     -Wean pressors as able
    Renal Failure: Still anuric
     -Resite CVVH catheter as above.
     -Would run even.
    Liver Failure:  alcoholic hepatitis and cirrhosis. Bili's still
   increasing without clear evidence of obstruction on CT.
     -Will continue to support through this and monitor LFT's/INR.
     -Will ask liver to comment on persistently rising bili's and the
   implications on prognosis
    Altered mental status:  likely multifactorial including ICU delirium,
   hepatic encephalopathy.  Reglan stopped for now.
     -Continue lactulose and rifaximin
    Respiratory Failure:  ARDS.
     -Now extubated and doing well.
     -Aspiration precautions.
   Rest of plan per resident note.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2123-12-9**] 01:47 AM 55 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2123-11-24**] 05:33 PM
   Multi Lumen - [**2123-12-3**] 05:45 PM
   20 Gauge - [**2123-12-7**] 02:30 PM
   Arterial Line - [**2123-12-9**] 05:31 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2123-12-10 07:40:00 Physician Resident Progress Note
Chief Complaint: EtOH hepatitis; renal failure
   24 Hour Events:
   - weaned levo overnight, now off pressors
   - NPO p MN for IR-guided tunelled HD line placement today
   - liver came by, dismal prognosis
   - dental came by, no real recs, need a panorex
   - bilirubin is largely direct, but hapto is <20 (but this can be seen
   in ESLD and s/p transfusions)
   - PM HCT stable, no transfusions yesterday
   - continued on CVVH, remained afebrile
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2123-12-7**] 03:00 PM
   Metronidazole - [**2123-12-10**] 12:47 AM
   Piperacillin - [**2123-12-10**] 06:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 4 mEq./hour
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-10**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.9
C (96.7
   HR: 86 (86 - 100) bpm
   BP: 100/55(74) {87/48(64) - 113/57(75)} mmHg
   RR: 24 (18 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 4 (2 - 6)mmHg
   Total In:
                                                                  7,598 mL
                                                                  2,284 mL
   PO:
   TF:
                                                                    599 mL
   IVF:
                                                                  6,899 mL
                                                                  2,224 mL
   Blood products:
   Total out:
                                                                  8,549 mL
                                                                  2,649 mL
   Urine:
   NG:
   Stool:
                                                                  1,100 mL
   Drains:
   Balance:
                                                                   -951 mL
                                                                   -365 mL
   Respiratory support
   SpO2: 100%
   ABG: 7.42/38/168/23/0
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Crackles : , No(t)
   Wheezes : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   52 K/uL
   9.9 g/dL
   98 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.4 mEq/L
   13 mg/dL
   102 mEq/L
   137 mEq/L
   26.0 %
   16.9 K/uL
        [image002.jpg]
                             [**2123-12-9**]  04:33 AM
                             [**2123-12-9**]  05:05 AM
                             [**2123-12-9**]  12:19 PM
                             [**2123-12-9**]  12:25 PM
                             [**2123-12-9**]  05:49 PM
                             [**2123-12-9**]  06:09 PM
                             [**2123-12-9**]  11:36 PM
                             [**2123-12-9**]  11:49 PM
                             [**2123-12-10**]  04:42 AM
                             [**2123-12-10**]  05:21 AM
   WBC
   16.2
   16.9
   Hct
   25.7
   25.5
   25.7
   26.0
   Plt
   69
   52
   Cr
   0.5
   0.8
   0.9
   1.0
   TCO2
   25
   27
   26
   27
   25
   Glucose
   110
   113
   117
   100
   99
   97
   98
   Other labs: PT / PTT / INR:24.6/66.7/2.4, CK / CKMB / Troponin-T:28//,
   ALT / AST:73/248, Alk Phos / T Bili:94/37.7, Amylase / Lipase:/41,
   Differential-Neuts:76.0 %, Band:3.0 %, Lymph:8.0 %, Mono:8.0 %, Eos:4.0
   %, Fibrinogen:499 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.1 g/dL,
   LDH:401 IU/L, Ca++:10.3 mg/dL, Mg++:2.2 mg/dL, PO4:2.1 mg/dL
   Imaging: No new imaging today
   Microbiology: [**2123-12-9**] Stool O&P: negative
   [**2123-12-7**] Sputum: yeast sparse growth, OP flora
   [**2123-12-8**] Stool Campy/culture: pending
   Assessment and Plan
   Patient is a 45 year old female with EtOH hepatitis/cirrhosis admitted
   to OSH for acute hepatic failure and altered mental status transferred
   to [**Hospital1 19**] with shock, ARDS and ARF, intubated on pressors. Now
   successfully extubated, but remains hypotensive with 1 pressor
   requirement. Remains on CVVH. Evidence of ongoing pancolitis
   # Fever
 Source may be either pancolitis versus dental abscesses.
   Also, have not pursued TEE after her positive blood cultures, although
   TTE was negative. Less likely line infection given persistently
   negative blood and catheter cultures. Temp regulated somewhat with bear
   hugger, no euthermic off of it. CT showed concern for dental abscess,
   as well as continued pan-colitis.
   - dental c/s to see today, unable to get panorex due to clinical
   instability
   - would taper down to only flagyl to cover both dental and c diff
   - f/u cultures, send 3^rd cdiff, but would treat with empiric 14 day
   course of flagyl
   - Other sources ruled out: SBP (neg diagnostic para [**2123-12-3**]).  Lines:
   CVL changed [**2123-12-3**], a-line pulled [**2123-12-6**] (replaced [**12-7**] and again [**12-8**]),
   and femoral HD line changed over wire [**2123-12-3**]. Sinusists: neg CT.
   Acalculous cholecystits: negative [**Name (NI) 3234**] sono
   # GI bleeding
 had clots in stool [**12-8**].  Hct didn
t bump appropriately
   to 2 units prbcs
   - trend HCT [**Hospital1 7**]
   - transfuse to > 24
   - maintain active t+c
   # Shock: Likely septic.  Known prior infections include MSSA bacteremia
   (OSH culture grew [**11-21**], day 1 treatment [**11-23**]), E coli UTI (cx grew
   [**11-21**]).  Recent imaging suggest pan-colitis and dental abscess (see
   above).  Culture data negative at [**Hospital1 19**].  - continue levophed, wean as
   tolerated will aim to to maintain MAP > 60
   - has completed course for MSSA bacteremia and E cOli UTI, but was
   broadened when re-spiked, now on vanco/zosyn since [**2123-12-6**] (was on
   vanco/cefepime since [**2123-12-3**]), added flagyl [**2123-12-7**]. Would taper as above
    # Renal failure: Likely ATN in setting of shock.  Persistent anuria/
   oliguria. Appreciate renal assistance. Hope is to wean pressor and then
   transition to HD.
   - per renal, if afebrile today, try to place tunneled HD line, can then
   d/c femoral CVVH line
   - Continue CVVH until able to tolerate another method of renal
   replacement hemodynamically
 run even
   - lytes per CVVH protocol
   # Mental Status: A+O x 2. Extubated, but still altered. Will likely be
   slow to recover however given toxic/metabolic derangements, renal
   failure and need for CVVH.
   - Follow mental status
   - consider head CT/neuro consult in future for prognosis if does not
   improve.
   - TID lactulose and rifaximin for hepatic encephalopathy
   # Anemia: Has menses, Hct drifting down.  Also some clots in stool.
   - continue epogen per renal
   - trend HCT
   - transfuse for Hct < 24
    # Alcoholic Hepatitis: U/S w/evidence of cirrhosis, portal vein
   thrombus (non-occlusive). Hepatitis serologies negative from [**2123-11-24**].
   Tylenol level negative at OSH. [**Doctor First Name **], anti-mitochondrial ab, Sm ab, RNP
   ab negative at OSH negative
   - repeat [**Doctor First Name 3234**] u/s [**2123-12-6**] unchanged
   - Tbili rising may indicate that her liver failure worsening
   - trend INR, has been stable in mid-2
   - Appreciate liver input
   - Daily LFTS, coags, plts
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2123-12-9**] 01:47 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2123-11-24**] 05:33 PM
   Multi Lumen - [**2123-12-3**] 05:45 PM
   20 Gauge - [**2123-12-7**] 02:30 PM
   Arterial Line - [**2123-12-9**] 05:31 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code, confirmed with family
   Disposition:ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2123-11-24**] 05:33 PM
   Multi Lumen - [**2123-12-3**] 05:45 PM
   20 Gauge - [**2123-12-7**] 02:30 PM
   Arterial Line - [**2123-12-9**] 05:31 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2123-12-10 11:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Weaned off pressors last night but back on this AM.
   Getting FFP now for tunnelled line placement.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2123-12-7**] 03:00 PM
   Metronidazole - [**2123-12-10**] 12:47 AM
   Piperacillin - [**2123-12-10**] 06:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Other medications:
   RISS, rifaxamin, epogen, lactulose, pepcid,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-10**] 11:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.2
C (97.1
   HR: 86 (82 - 94) bpm
   BP: 90/44(61) {87/44(61) - 110/57(75)} mmHg
   RR: 26 (11 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 10 (2 - 10)mmHg
   Total In:
                                                                  7,598 mL
                                                                  3,146 mL
   PO:
   TF:
                                                                    599 mL
   IVF:
                                                                  6,899 mL
                                                                  3,056 mL
   Blood products:
   Total out:
                                                                  8,549 mL
                                                                  3,853 mL
   Urine:
   NG:
   Stool:
                                                                  1,100 mL
   Drains:
   Balance:
                                                                   -951 mL
                                                                   -707 mL
   Respiratory support
   SpO2: 100%
   ABG: 7.42/38/168/23/0
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: at bases B/L,
   Rhonchorous: B/L)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, No(t) Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   52 K/uL
   98 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.4 mEq/L
   13 mg/dL
   102 mEq/L
   137 mEq/L
   26.0 %
   16.9 K/uL
         [image002.jpg]
                             [**2123-12-9**]  04:33 AM
                             [**2123-12-9**]  05:05 AM
                             [**2123-12-9**]  12:19 PM
                             [**2123-12-9**]  12:25 PM
                             [**2123-12-9**]  05:49 PM
                             [**2123-12-9**]  06:09 PM
                             [**2123-12-9**]  11:36 PM
                             [**2123-12-9**]  11:49 PM
                             [**2123-12-10**]  04:42 AM
                             [**2123-12-10**]  05:21 AM
   WBC
   16.2
   16.9
   Hct
   25.7
   25.5
   25.7
   26.0
   Plt
   69
   52
   Cr
   0.5
   0.8
   0.9
   1.0
   TCO2
   25
   27
   26
   27
   25
   Glucose
   110
   113
   117
   100
   99
   97
   98
   Other labs: PT / PTT / INR:24.6/66.7/2.4, CK / CKMB / Troponin-T:28//,
   ALT / AST:73/248, Alk Phos / T Bili:94/37.7, Amylase / Lipase:/41,
   Differential-Neuts:76.0 %, Band:3.0 %, Lymph:8.0 %, Mono:8.0 %, Eos:4.0
   %, Fibrinogen:499 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.1 g/dL,
   LDH:401 IU/L, Ca++:10.3 mg/dL, Mg++:2.2 mg/dL, PO4:2.1 mg/dL
   Imaging: No imaging today
   Microbiology: Stool Cultures pending
   Assessment and Plan
   45 yo F with h/o etoh abuse transferred from OSH where she presented
   with alcoholic hepatitis, shock, ARDS, ARF requiring CVVH.  Now
   extubated.
    Fever: Afebrile for 3 days
      -Cont Zosyn/flagyl for 14 day course
      -F/u cultures including stool cultures
      -Will need OMFS eval when off pressors/CVVH for tooth extraction.
    Anemia:  HCT now stable, some small clots in stool recently.
     -Serial HCTs, transfuse to keep HCT >25.
     -If bleeding becomes more [**Last Name (LF) 4886**], [**First Name3 (LF) **] ask for GI eval.
    Hypotension:  Still with some pressor requirement, likelyrelated to
   new fever +/- cirrhosis
     -Follow up fever work up and abx as above.
     -CVP 8-12
     -Start midodrine and wean pressors as able
    Renal Failure: Still anuric
     -Getting tunnel catheter today.
     -Would run even.
    Liver Failure:  alcoholic hepatitis and cirrhosis. Bili's still
   increasing without clear evidence of obstruction on CT.
      -Will continue to support through this and monitor LFT's/INR.
      -Appreciate liver input, will look for trend once off pressors
    Altered mental status:  likely multifactorial including ICU delirium,
   hepatic encephalopathy.  Reglan stopped for now.
     -Continue lactulose and rifaximin
   Respiratory Failure:  ARDS.
     -Now extubated and doing well.
     -Aspiration precautions.
    Rest of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2123-11-24**] 05:33 PM
   Multi Lumen - [**2123-12-3**] 05:45 PM
   20 Gauge - [**2123-12-7**] 02:30 PM
   Arterial Line - [**2123-12-9**] 05:31 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2123-12-11 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- got 5 units FFP but only had INR 1.9; IR wouldn't do tunneled line
   unless INR 1.5; did left temp HD cath w/o complication
   -- pt sleepy after exam; initially desatted, ? c/f aspiration; quickly
   came up
   -- Temp 100 off bear hugger ; sent BCx one set from new line, one from
   old line
   -- pulled fem line, sent tip for cx
   -- restarted TF in early morning
   -- IR will do tunneled line on Monday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2123-12-10**] 12:47 AM
   Piperacillin - [**2123-12-10**] 11:49 AM
   Piperacillin/Tazobactam (Zosyn) - [**2123-12-11**] 12:00 AM
   Infusions:
   Norepinephrine - 0.09 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 4 mEq./hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2123-12-11**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-11**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 35.4
C (95.8
   HR: 79 (76 - 107) bpm
   BP: 90/52(68) {82/43(56) - 114/59(78)} mmHg
   RR: 21 (11 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 3 (3 - 10)mmHg
   Total In:
                                                                  7,417 mL
                                                                  1,510 mL
   PO:
   TF:
                                                                     28 mL
   IVF:
                                                                  5,771 mL
                                                                  1,357 mL
   Blood products:
                                                                  1,391 mL
   Total out:
                                                                  7,821 mL
                                                                  4,001 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -404 mL
                                                                 -2,491 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.31/43/90.[**Numeric Identifier 126**]/22/1
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: icteric sclera
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Bronchial: , Diminished: b/l bases, Rhonchorous: b/l scattered)
   Abdominal: Soft, Bowel sounds present, Distended, Tender: diffusely
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   49 K/uL
   9.6 g/dL
   95 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.6 mEq/L
   13 mg/dL
   104 mEq/L
   138 mEq/L
   25.3 %
   18.7 K/uL
        [image002.jpg]
                             [**2123-12-9**]  11:36 PM
                             [**2123-12-9**]  11:49 PM
                             [**2123-12-10**]  04:42 AM
                             [**2123-12-10**]  05:21 AM
                             [**2123-12-10**]  10:01 AM
                             [**2123-12-10**]  03:37 PM
                             [**2123-12-10**]  04:02 PM
                             [**2123-12-10**]  09:54 PM
                             [**2123-12-10**]  10:04 PM
                             [**2123-12-11**]  04:00 AM
   WBC
   16.9
   13.8
   13.8
   18.7
   Hct
   26.0
   23.9
   23.2
   25.3
   Plt
   52
   45
   46
   49
   Cr
   1.0
   0.8
   0.8
   0.5
   0.5
   TCO2
   27
   25
   27
   28
   Glucose
   97
   98
   90
   108
   82
   95
   Other labs: PT / PTT / INR:23.0/53.0/2.2, CK / CKMB / Troponin-T:28//,
   ALT / AST:81/321, Alk Phos / T Bili:94/41.8, Amylase / Lipase:/41,
   Differential-Neuts:80.0 %, Band:1.0 %, Lymph:6.0 %, Mono:5.0 %, Eos:7.0
   %, Fibrinogen:499 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.1 g/dL,
   LDH:401 IU/L, Ca++:9.3 mg/dL, Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR
   Microbiology: cath tip [**12-10**] - ngtd
   blood x2 on [**12-10**] - ngtd
   stool o&p [**12-8**], [**12-9**], [**12-10**] - no o&p seen
   stool cdiff [**12-8**] - no toxin detected
   sputum [**12-7**] - sparse yeast
   Assessment and Plan
   Patient is a 45 year old female with EtOH hepatitis/cirrhosis admitted
   to OSH for acute hepatic failure and altered mental status transferred
   to [**Hospital1 19**] with shock, ARDS and ARF, intubated on pressors. Now
   successfully extubated, but remains hypotensive with 1 pressor
   requirement. Remains on CVVH. Evidence of ongoing pancolitis
   # Fever
 Still low grade on CVVH.  WBC bumpted on [**12-11**].  Concern that
   she aspirated [**12-10**] during dialysis line placement or had transient
   bacteremia from pulling the old femoral HD line.  Repeat cultures sent
   [**2123-12-10**].  Also of note, Vanco was stopped [**2123-12-7**].  Other possible source
   may be either pancolitis versus dental abscesses. Also, have not
   pursued TEE after her positive blood cultures, although TTE was
   negative.
   - restart vanco
   - f/u repeat cultures [**2123-12-10**]
   - CXR [**12-11**] does not show new infiltrate
   - dental c/s could not assess her well w/o panorex, recommend removing
   necrotic teeth by oral-facial maxillary surgery; currently too
   clinically unstable
   - cont zosyn emperically, also continue flagyl to cover both dental and
   c diff
   - f/u cultures, repeat cdiff, but would treat with empiric 14 day
   course of flagyl
   - Other sources ruled out: SBP (neg diagnostic para [**2123-12-3**]).  Lines:
   CVL changed [**2123-12-3**], a-line pulled [**2123-12-6**] (replaced [**12-7**] and again [**12-8**]),
   and femoral HD line changed [**2123-12-10**]. Sinusists: neg CT. Acalculous
   cholecystits: negative [**Name (NI) 3234**] sono
   # GI bleeding
 had clots in stool [**12-8**].  Hct didn
t bump appropriately
   to 2 units prbcs [**12-8**], but later improved and then stabilized
   - trend HCT Daily
   - transfuse to > 24
   - maintain active t+c
   # Shock: Likely septic.  Known prior infections include MSSA bacteremia
   (OSH culture grew [**11-21**], day 1 treatment [**11-23**]), E coli UTI (cx grew
   [**11-21**]).  Recent imaging suggest pan-colitis and dental abscess (see
   above).  Culture data negative at [**Hospital1 19**].
   - was inadvertently > 2L  negative this AM with CVP of 1  - bolus 1000
   ML and run even rest of day
   - continue levophed, wean as tolerated will aim to to maintain MAP > 60
   - ABX:  has completed course for MSSA bacteremia and E cOli UTI, but
   was broadened when re-spiked, was on vanco/zosyn since [**2123-12-6**] (was on
   vanco/cefepime since [**2123-12-3**]), added flagyl [**2123-12-7**], stopped vanco [**12-8**]
   --> currently zosyn/flagyl
   # Resp: now extubated, requiring 3L NC.  Per nursing, may have
   aspirated [**2123-12-10**] during replacement of femoral dialysis line
   - monitor respiratory status; if change, repeat CXR
   - CXR [**12-11**] does not look worse
    # Renal failure: Likely ATN in setting of shock.  Persistent anuria/
   oliguria. Appreciate renal assistance. Hope is to wean pressor and then
   transition to HD.
   - could not get tunneled HD line b/c INR did not come down to 1.5 with
   FFP; got new left IJ HD line on left on [**2123-12-10**] w/o complication
   - Continue CVVH until able to tolerate another method of renal
   replacement hemodynamically and run even
   - lytes per CVVH protocol
   # Mental Status: A+O x 2. Extubated, but still altered. Will likely be
   slow to recover however given toxic/metabolic derangements, renal
   failure and need for CVVH.
   - Follow mental status
   - consider head CT/neuro consult in future for prognosis if does not
   improve.
   - TID lactulose and rifaximin for hepatic encephalopathy
   # Anemia: Had menses, Hct drifting down.  Also some clots in stool.
   - continue epogen per renal
   - trend HCT
   - transfuse for Hct < 24
    # Alcoholic Hepatitis: U/S w/evidence of cirrhosis, portal vein
   thrombus (non-occlusive). Hepatitis serologies negative from [**2123-11-24**].
   Tylenol level negative at OSH. [**Doctor First Name **], anti-mitochondrial ab, Sm ab, RNP
   ab negative at OSH negative
   - repeat [**Doctor First Name 3234**] u/s [**2123-12-6**] unchanged
   - Tbili rising may indicate that her liver failure worsening
   - trend INR, has been stable in mid-2
   - Appreciate liver input
   - Daily LFTS, coags, plts
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2123-12-11**] 04:30 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2123-12-3**] 05:45 PM
   Arterial Line - [**2123-12-9**] 05:31 AM
   Dialysis Catheter - [**2123-12-10**] 07:44 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments: Family mtg [**2123-12-10**]
 still Full Code but
   moving toward DNR
   Code status: Full code
   Disposition:ICU

2123-12-12 07:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - CXR: stable infiltrate at R base, ? infiltrate
   - got 2 boluses of 500cc for hypotension in setting of  having too much
   volume removed by CVVH (was neg 2L at 10am-- which brought her to even)
   - restarted vanco for rising WBC, unclear source still
   - AM cortisol: 16.5
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2123-12-10**] 12:47 AM
   Piperacillin - [**2123-12-10**] 11:49 AM
   Vancomycin - [**2123-12-11**] 03:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2123-12-12**] 06:37 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 4 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-12**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.4
C (97.5
   HR: 82 (73 - 100) bpm
   BP: 102/47(66) {90/43(59) - 116/58(79)} mmHg
   RR: 21 (18 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 8 (-1 - 11)mmHg
   Total In:
                                                                  8,566 mL
                                                                  3,490 mL
   PO:
   TF:
                                                                    660 mL
                                                                    468 mL
   IVF:
                                                                  7,660 mL
                                                                  2,903 mL
   Blood products:
   Total out:
                                                                  8,062 mL
                                                                  2,296 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    504 mL
                                                                  1,194 mL
   Respiratory support
   SpO2: 100%
   ABG: 7.37/41/146/19/-1
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   48 K/uL
   8.7 g/dL
   110 mg/dL
   0.4 mg/dL
   19 mEq/L
   3.4 mEq/L
   11 mg/dL
   101 mEq/L
   137 mEq/L
   24.2 %
   14.5 K/uL
        [image002.jpg]
                             [**2123-12-10**]  10:04 PM
                             [**2123-12-11**]  04:00 AM
                             [**2123-12-11**]  09:58 AM
                             [**2123-12-11**]  10:13 AM
                             [**2123-12-11**]  04:17 PM
                             [**2123-12-11**]  04:24 PM
                             [**2123-12-11**]  10:28 PM
                             [**2123-12-11**]  10:46 PM
                             [**2123-12-12**]  04:17 AM
                             [**2123-12-12**]  04:28 AM
   WBC
   18.7
   14.5
   Hct
   25.3
   24.2
   Plt
   49
   48
   Cr
   0.5
   0.4
   0.4
   0.4
   TCO2
   28
   22
   24
   24
   25
   Glucose
   95
   99
   143
   112
   110
   Other labs: PT / PTT / INR:26.9/58.6/2.7, CK / CKMB / Troponin-T:28//,
   ALT / AST:76/225, Alk Phos / T Bili:83/36.4, Amylase / Lipase:/41,
   Differential-Neuts:80.0 %, Band:1.0 %, Lymph:6.0 %, Mono:5.0 %, Eos:7.0
   %, Fibrinogen:499 mg/dL, Lactic Acid:1.8 mmol/L, Albumin:2.1 g/dL,
   LDH:336 IU/L, Ca++:9.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   Patient is a 45 year old female with EtOH hepatitis/cirrhosis admitted
   to OSH for acute hepatic failure and altered mental status transferred
   to [**Hospital1 19**] with shock, ARDS and ARF, intubated on pressors. Now
   successfully extubated, weaning off pressors (off this AM). Remains on
   CVVH.
   # Shock: Likely septic, with resolving pressor requirement.  Etiology
   of septic shock could include prior infections including MSSA
   bacteremia (OSH culture grew [**11-21**], day 1 treatment [**11-23**]), E coli UTI
   (cx grew [**11-21**]).  Recent imaging suggest pan-colitis and dental
   abscess.  Culture data negative at [**Hospital1 19**].
   - was inadvertently > 2L  negative this AM with CVP of 1  - bolus 1000
   ML and run even rest of day
   - weaned levophed, aim to to maintain MAP > 60 off of it
   - remains on midodrine, would uptitrate instead of restarting levophed
   - ABX:  has completed courses for both MSSA bacteremia and E cOli UTI,
   but was broadened when re-spiked, was on vanco/zosyn since [**2123-12-6**] (was
   on vanco/cefepime since [**2123-12-3**]), added flagyl [**2123-12-7**] for pancolitis and
   dental abscess;stopped vanco [**12-8**], but vanco then restarted on [**12-11**] for
   elevated WBC count in setting of recent line and ? aspiration during
   procedure
   # Fever
 Still low grade on CVVH.  WBC bumped on [**12-11**].  Concern that
   she aspirated [**12-10**] during dialysis line placement or had transient
   bacteremia from pulling the old femoral HD line. Other possible source
   may be either pancolitis versus dental abscesses. Also, have not
   pursued TEE after her positive blood cultures, although TTE was
   negative.
   - continue vanco/zosyn/flagyl
   - f/u repeat cultures
   - CXR [**12-11**] does not show new infiltrate
   - dental c/s could not assess her well w/o panorex, recommend removing
   necrotic teeth by oral-facial maxillary surgery; currently too
   clinically unstable
   - Other sources ruled out: SBP (neg diagnostic para [**2123-12-3**]).  Lines:
   CVL changed [**2123-12-3**], a-line pulled [**2123-12-6**] (replaced [**12-7**] and again [**12-8**]),
   and femoral HD line changed [**2123-12-10**]. Sinusists: neg CT. Acalculous
   cholecystits: negative [**Name (NI) 3234**] sono
   # GI bleeding
 had clots in stool [**12-8**].  Hct didn
t bump appropriately
   to 2 units prbcs [**12-8**], but later improved and then stabilized
   - trend HCT Daily
   - transfuse to > 24
   - maintain active t+c
   # Resp: now extubated, requiring 3L NC.  Per nursing, may have
   aspirated [**2123-12-10**] during replacement of femoral dialysis line
   - monitor respiratory status; CXR [**12-11**] does not look worse
    # Renal failure: Likely ATN in setting of shock.  Persistent anuria/
   oliguria. Appreciate renal assistance. Hope is to wean pressor and then
   transition to HD.
   - could not get tunneled HD line b/c INR did not come down to 1.5 with
   FFP; got new left IJ HD line on left on [**2123-12-10**] w/o complication
   - run even
   - lytes per CVVH protocol
   # Mental Status: A+O x 2. Extubated, but still altered. Will likely be
   slow to recover however given toxic/metabolic derangements, renal
   failure and need for CVVH.
   - Follow mental status
   - consider head CT/neuro consult in future for prognosis if does not
   improve.
   - TID lactulose and rifaximin for hepatic encephalopathy
   # Anemia: Had menses, Hct drifting down.  Also some clots in stool.
   - continue epogen per renal
   - trend HCT
   - transfuse for Hct < 24
     # Alcoholic Hepatitis: U/S w/evidence of cirrhosis, portal vein
   thrombus (non-occlusive). Hepatitis serologies negative from [**2123-11-24**].
   Tylenol level negative at OSH. [**Doctor First Name **], anti-mitochondrial ab, Sm ab, RNP
   ab negative at OSH negative
   - repeat [**Doctor First Name 3234**] u/s [**2123-12-6**] unchanged
   - Tbili rising may indicate that her liver failure worsening
   - trend INR, has been stable in mid-2
   - Appreciate liver input
   - Daily LFTS, coags, plts
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2123-12-12**] 05:35 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2123-12-3**] 05:45 PM
   Arterial Line - [**2123-12-9**] 05:31 AM
   Dialysis Catheter - [**2123-12-10**] 07:44 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2123-12-13 07:52:00 Physician Resident Progress Note
Chief Complaint: EtOH hepatitis, ARF on CVVHD, altered MS
   24 Hour Events:
   -- increased midodrine to 10mg TID
   -- CVP was low, and varied with respirations, suggesting hypovolemia.
   Gave saline boluses to increase CVP to ~15 prior to upping pressors.
   However, I did write her for vasopressin just in case (not yet used)
   -- started risperdal for ? ICU psychosis on top of hepatic
   encephalopathy
   -- checked EKG to make sure no PR prolongation - none seen
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2123-12-10**] 11:49 AM
   Vancomycin - [**2123-12-12**] 10:05 AM
   Piperacillin/Tazobactam (Zosyn) - [**2123-12-13**] 05:57 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 4 mEq./hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2123-12-13**] 05:57 AM
   Other medications:
   Flowsheet Data as of  [**2123-12-13**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 94 (81 - 103) bpm
   BP: 91/42(58) {81/40(54) - 105/55(72)} mmHg
   RR: 24 (20 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: -1 (-1 - 11)mmHg
   Total In:
                                                                 11,577 mL
                                                                  3,034 mL
   PO:
   TF:
                                                                  1,458 mL
                                                                    451 mL
   IVF:
                                                                  9,879 mL
                                                                  2,523 mL
   Blood products:
   Total out:
                                                                  8,569 mL
                                                                  2,922 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,008 mL
                                                                    112 mL
   Respiratory support
   SpO2: 97%
   ABG: 7.39/38/103/20/-1
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   37 K/uL
   8.0 g/dL
   105 mg/dL
   0.6 mg/dL
   20 mEq/L
   3.7 mEq/L
   9 mg/dL
   104 mEq/L
   135 mEq/L
   22.1 %
   10.8 K/uL
        [image002.jpg]
                             [**2123-12-12**]  04:17 AM
                             [**2123-12-12**]  04:28 AM
                             [**2123-12-12**]  10:04 AM
                             [**2123-12-12**]  10:25 AM
                             [**2123-12-12**]  04:21 PM
                             [**2123-12-12**]  04:30 PM
                             [**2123-12-12**]  09:46 PM
                             [**2123-12-12**]  10:22 PM
                             [**2123-12-13**]  04:16 AM
                             [**2123-12-13**]  05:24 AM
   WBC
   14.5
   10.8
   Hct
   24.2
   22.1
   Plt
   48
   37
   Cr
   0.4
   0.9
   0.4
   0.6
   TCO2
   25
   23
   24
   23
   24
   Glucose
   110
   112
   121
   114
   105
   Other labs: PT / PTT / INR:28.1/71.1/2.8, CK / CKMB / Troponin-T:28//,
   ALT / AST:71/227, Alk Phos / T Bili:90/36.7, Amylase / Lipase:/41,
   Differential-Neuts:80.0 %, Band:1.0 %, Lymph:6.0 %, Mono:5.0 %, Eos:7.0
   %, Fibrinogen:499 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.1 g/dL,
   LDH:336 IU/L, Ca++:9.8 mg/dL, Mg++:2.1 mg/dL, PO4:1.2 mg/dL
   Assessment and Plan
   Patient is a 45 year old female with EtOH hepatitis/cirrhosis admitted
   to OSH for acute hepatic failure and altered mental status transferred
   to [**Hospital1 19**] with shock, ARDS and ARF, intubated on pressors. Now
   successfully extubated, weaning off pressors (off this AM on [**2123-12-13**]).
   Remains on CVVH.
   # Shock: Likely septic, with resolving pressor requirement.  Etiology
   of septic shock could include prior infections including MSSA
   bacteremia (OSH culture grew [**11-21**], day 1 treatment [**11-23**]), E coli UTI
   (cx grew [**11-21**]).  Recent imaging suggest pan-colitis and dental
   abscess; treating with vanco/zosyn/flagyl.  Culture data negative at
   [**Hospital1 19**].
   -- fluid boluses PRN for CVP 10-12; MAPS > 60
   - remains on midodrine 10 mg TID (will touch base
   - ABX:  has completed courses for both MSSA bacteremia and E cOli UTI,
   but was broadened when re-spiked, was on vanco/zosyn since [**2123-12-6**] (was
   on vanco/cefepime since [**2123-12-3**]), added flagyl [**2123-12-7**] for pancolitis and
   dental abscess;stopped vanco [**12-8**], but vanco then restarted on [**12-11**] for
   elevated WBC count in setting of recent line and ? aspiration during
   procedure
   # Fever
 Still low grade on CVVH.  WBC bumped on [**12-11**].  Concern that
   she aspirated [**12-10**] during dialysis line placement or had transient
   bacteremia from pulling the old femoral HD line. Other possible source
   may be either pancolitis versus dental abscesses. Also, have not
   pursued TEE after her positive blood cultures, although TTE was
   negative.
   - continue vanco/zosyn/flagyl
   - f/u repeat cultures
   - CXR [**12-11**] does not show new infiltrate
   - dental c/s could not assess her well w/o panorex, recommend removing
   necrotic teeth by oral-facial maxillary surgery; currently too
   clinically unstable
   - Other sources ruled out: SBP (neg diagnostic para [**2123-12-3**]).  Lines:
   CVL changed [**2123-12-3**], a-line pulled [**2123-12-6**] (replaced [**12-7**] and again [**12-8**]),
   and femoral HD line changed [**2123-12-10**]. Sinusists: neg CT. Acalculous
   cholecystits: negative [**Name (NI) 3234**] sono
   # GI bleeding
 had clots in stool [**12-8**].  Hct didn
t bump appropriately
   to 2 units prbcs [**12-8**], but later improved and then stabilized
   - trend HCT Daily
   - transfuse to > 24
   - maintain active t+c
   # Resp: now extubated, requiring 3L NC.  Per nursing, may have
   aspirated [**2123-12-10**] during replacement of femoral dialysis line
   - monitor respiratory status; CXR [**12-11**] does not look worse
    # Renal failure: Likely ATN in setting of shock.  Persistent anuria/
   oliguria. Appreciate renal assistance. Hope is to wean pressor and then
   transition to HD.
   - could not get tunneled HD line b/c INR did not come down to 1.5 with
   FFP; got new left IJ HD line on left on [**2123-12-10**] w/o complication
   - run even
   - lytes per CVVH protocol
   # Mental Status: A+O x 2. Extubated, but still altered. Will likely be
   slow to recover however given toxic/metabolic derangements, renal
   failure and need for CVVH.
   - Follow mental status
   - consider head CT/neuro consult in future for prognosis if does not
   improve.
   - TID lactulose and rifaximin for hepatic encephalopathy
   # Anemia: Had menses, Hct drifting down.  Also some clots in stool.
   - continue epogen per renal
   - trend HCT
   - transfuse for Hct < 24
     # Alcoholic Hepatitis: U/S w/evidence of cirrhosis, portal vein
   thrombus (non-occlusive). Hepatitis serologies negative from [**2123-11-24**].
   Tylenol level negative at OSH. [**Doctor First Name **], anti-mitochondrial ab, Sm ab, RNP
   ab negative at OSH negative
   - repeat [**Doctor First Name 3234**] u/s [**2123-12-6**] unchanged
   - Tbili rising may indicate that her liver failure worsening
   - trend INR, has been stable in mid-2
   - Appreciate liver input
   - Daily LFTS, coags, plts
   ICU Care
   Nutrition:  Replete with Fiber (Full) - [**2123-12-12**] 05:35 AM 55 mL/hour
   Lines:
   Multi Lumen - [**2123-12-3**] 05:45 PM
   Arterial Line - [**2123-12-9**] 05:31 AM
   Dialysis Catheter - [**2123-12-10**] 07:44 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: H2 blocker
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   Deferring pursuing a tunneled HD cath today; grossly elevated INR & low
   platelets (poor synthetic function of the liver).   Not HD stable
   enough to tolerate HD at this point; will wait for further info on
   prognosis & family
s goals of care before using FFP + platelet
   transfusions for a possibly unnecessary procedure.
   ------ Protected Section Addendum Entered By:[**Name (NI) 505**] [**Last Name (NamePattern1) 657**], MD
   on:[**2123-12-13**] 19:44 ------

2123-12-13 10:40:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Weaned off of pressors this AM.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2123-12-10**] 11:49 AM
   Piperacillin/Tazobactam (Zosyn) - [**2123-12-13**] 05:57 AM
   Vancomycin - [**2123-12-13**] 09:34 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 4 mEq./hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2123-12-13**] 05:57 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-13**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.1
C (96.9
   HR: 93 (84 - 103) bpm
   BP: 97/45(63) {81/40(54) - 105/55(72)} mmHg
   RR: 19 (19 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: -1 (-1 - 11)mmHg
   Total In:
                                                                 11,574 mL
                                                                  4,024 mL
   PO:
   TF:
                                                                  1,458 mL
                                                                    592 mL
   IVF:
                                                                  9,875 mL
                                                                  3,372 mL
   Blood products:
   Total out:
                                                                  8,569 mL
                                                                  3,383 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,005 mL
                                                                    641 mL
   Respiratory support
   SpO2: 100%
   ABG: 7.39/38/103/20/-1
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: Icteric sclera
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: No(t) Normal), (S2: No(t) Normal), No(t) S3, No(t)
   S4, (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   37 K/uL
   105 mg/dL
   0.6 mg/dL
   20 mEq/L
   3.7 mEq/L
   9 mg/dL
   104 mEq/L
   135 mEq/L
   22.1 %
   10.8 K/uL
        [image002.jpg]
                             [**2123-12-12**]  04:17 AM
                             [**2123-12-12**]  04:28 AM
                             [**2123-12-12**]  10:04 AM
                             [**2123-12-12**]  10:25 AM
                             [**2123-12-12**]  04:21 PM
                             [**2123-12-12**]  04:30 PM
                             [**2123-12-12**]  09:46 PM
                             [**2123-12-12**]  10:22 PM
                             [**2123-12-13**]  04:16 AM
                             [**2123-12-13**]  05:24 AM
   WBC
   14.5
   10.8
   Hct
   24.2
   22.1
   Plt
   48
   37
   Cr
   0.4
   0.9
   0.4
   0.6
   TCO2
   25
   23
   24
   23
   24
   Glucose
   110
   112
   121
   114
   105
   Other labs: PT / PTT / INR:28.1/71.1/2.8, CK / CKMB / Troponin-T:28//,
   ALT / AST:71/227, Alk Phos / T Bili:90/36.7, Amylase / Lipase:/41,
   Differential-Neuts:80.0 %, Band:1.0 %, Lymph:6.0 %, Mono:5.0 %, Eos:7.0
   %, Fibrinogen:499 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.1 g/dL,
   LDH:336 IU/L, Ca++:9.8 mg/dL, Mg++:2.1 mg/dL, PO4:1.2 mg/dL
   Microbiology: BCx ([**12-10**]):  NGTD
   Fem line cath tip: NGTD
   Stool Cx:  Neg
   Assessment and Plan
   Hypotension:  Currently off pressors.
     -Continue to monitor.  CVP goal [**7-12**].
    Liver Failure:  Bilirubin, INR remained significantly altered.
     -continue lactulose, rifaxamin.
     -Will monitor liver function if she can remain off pressors
   Renal Failure:  Remains anuric
     -Continue CVVH
     -If BP remains stable over the next 24-48 hours, would trial HD
     -Will need tunnelled line at some point.
   Anemia:  No signs of active bleeding.  HCT stable.
     -Transfusion goal >21%
   Mental status:  Numerous toxic-metabolic insults as well as ICU
   delirium
     -Will monitor on risperdal
   Rest of plan per Resident Note
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2123-12-13**] 06:32 AM 55 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2123-12-3**] 05:45 PM
   Arterial Line - [**2123-12-9**] 05:31 AM
   Dialysis Catheter - [**2123-12-10**] 07:44 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2123-12-14 07:06:00 Physician Resident Progress Note
Chief Complaint: EtOH hepatitis; ARF on CVVH; pressor dependent
   distributive shock
   24 Hour Events:
   -- was weaned off levophed in early am;
   -- got ~3L fluid boluses throughout the day to maintain MAPs
   -- started back on levophed around 1 am because MAPs were dropping into
   the 50's
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2123-12-13**] 09:34 AM
   Piperacillin/Tazobactam (Zosyn) - [**2123-12-14**] 06:05 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Norepinephrine - 0.07 mcg/Kg/min
   KCl (CRRT) - 4 mEq./hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2123-12-14**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-14**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.1
C (97
   HR: 98 (91 - 100) bpm
   BP: 99/48(66) {78/34(49) - 107/49(69)} mmHg
   RR: 28 (19 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 8 (3 - 13)mmHg
   Total In:
                                                                 11,897 mL
                                                                  3,154 mL
   PO:
   TF:
                                                                  1,321 mL
                                                                    367 mL
   IVF:
                                                                 10,286 mL
                                                                  2,647 mL
   Blood products:
   Total out:
                                                                  7,704 mL
                                                                  2,139 mL
   Urine:
   NG:
   Stool:
                                                                  1,100 mL
   Drains:
   Balance:
                                                                  4,193 mL
                                                                  1,015 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.36/37/86.[**Numeric Identifier 143**]/18/-3
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Crackles : , No(t)
   Wheezes : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, Orineted to person only; slurred speech; CN II - XII in
   tact; unable to follow basic commands
   Labs / Radiology
   27 K/uL
   8.0 g/dL
   103 mg/dL
   0.6 mg/dL
   18 mEq/L
   3.7 mEq/L
   9 mg/dL
   107 mEq/L
   139 mEq/L
   23.2 %
   11.9 K/uL
        [image002.jpg]
                             [**2123-12-12**]  09:46 PM
                             [**2123-12-12**]  10:22 PM
                             [**2123-12-13**]  04:16 AM
                             [**2123-12-13**]  05:24 AM
                             [**2123-12-13**]  09:49 AM
                             [**2123-12-13**]  03:40 PM
                             [**2123-12-13**]  09:28 PM
                             [**2123-12-13**]  09:40 PM
                             [**2123-12-14**]  03:42 AM
                             [**2123-12-14**]  04:00 AM
   WBC
   10.8
   11.9
   Hct
   22.1
   23.2
   Plt
   37
   27
   Cr
   0.4
   0.6
   0.4
   1.2
   1.1
   0.6
   TCO2
   23
   24
   22
   22
   Glucose
   114
   105
   123
   106
   103
   103
   PT / PTT / INR:28.1/71.1/2.8
   ALT 74 (71)
   AST 232 (227)
   Alk Phos 95 (90)
   TBili 33.0 (36.7)
   Imaging: None
   Microbiology: No cultures since [**2123-12-10**] 9most recent NGTD)
   Assessment and Plan
   Patient is a 45 year old female with EtOH hepatitis/cirrhosis admitted
   to OSH for acute hepatic failure and altered mental status transferred
   to [**Hospital1 19**] with shock, ARDS and ARF, intubated on pressors. Now
   successfully extubated, weaning off pressors (off this AM on [**2123-12-13**]).
   Remains on CVVH.
    # Shock: Likely septic, with resolving pressor requirement.  Etiology
   of septic shock could include prior infections including MSSA
   bacteremia (OSH culture grew [**11-21**], day 1 treatment [**11-23**]), E coli UTI
   (cx grew [**11-21**]).  Recent imaging suggest pan-colitis and dental
   abscess; treating with vanco/zosyn/flagyl.  Culture data negative at
   [**Hospital1 19**].
   -- fluid boluses PRN for CVP 10-12; MAPS > 60
   -- remains on midodrine 10 mg TID (maxing out dose)
   -- cont to wean levophed as tolerated
   # Fever: Resolved.  WBC bumped over last few days, started to resolve
   but higher again today to 11.8.  Concern that she aspirated [**12-10**] during
   dialysis line placement or had transient bacteremia from pulling the
   old femoral HD line. Other possible source may be either pancolitis
   versus dental abscesses. Also, have not pursued TEE after her positive
   blood cultures, although TTE was negative.  Other sources ruled out:
   SBP (neg diagnostic para [**2123-12-3**]).  Lines: CVL changed [**2123-12-3**], a-line
   pulled [**2123-12-6**] (replaced [**12-7**] and again [**12-8**]), and femoral HD line changed
   [**2123-12-10**]. Sinusists: neg CT. Acalculous cholecystits: negative [**Name (NI) 3234**] sono.
   Dental c/s could not assess her well w/o panorex, recommend removing
   necrotic teeth by oral-facial maxillary surgery; currently too
   clinically unstable
   - continue vanco/zosyn/flagyl
   - f/u repeat cultures from [**2123-12-10**]
   # Renal failure: Likely ATN in setting of shock.  Persistent anuria/
   oliguria. Appreciate renal assistance. Hope is to wean pressor and then
   transition to HD, though have not been able to maintain MAPs off
   levophed & unlikely to tolerate HD at this point.
   -- will defer tunneled HD line placement at this point until more HD
   stable as will need many units of FFP and possibly platelets for the
   procedure and would like to make sure it is needed.
   -- lytes per CVVH protocol
   # Mental Status: waxing/[**Doctor Last Name 533**]. Will likely be slow to recover however
   given toxic/metabolic derangements, renal failure and need for CVVH.
   -- Follow mental status
   --consider head CT/neuro consult in future for prognosis if does not
   improve.
   --  lactulose and rifaximin for hepatic encephalopathy
   -- risperdal PRN for hallucinations, delirium
   # Anemia: Also some clots in stool & menses.  Has been stable in low to
   mid-20 over last few days.
   --continue epogen per renal
   -- transfuse to > 21
   - maintain active t+c (ordered to renew this morning)
   # Alcoholic Hepatitis: U/S w/evidence of cirrhosis, portal vein
   thrombus (non-occlusive). Hepatitis serologies negative from [**2123-11-24**].
   Tylenol level negative at OSH. [**Doctor First Name **], anti-mitochondrial ab, Sm ab, RNP
   ab negative at OSH negative.  TBili slowly improving though no
   improvement in synthetic function yet.  Grave prognosis.
   -- Dailly LFTS, coags, plts
   -- f/u liver recs (nothing new)
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2123-12-14**] 01:04 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2123-12-3**] 05:45 PM
   Arterial Line - [**2123-12-9**] 05:31 AM
   Dialysis Catheter - [**2123-12-10**] 07:44 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments: last fam meeting was on
   [**2123-12-10**]
   Code status: Full code
   Disposition:ICU

2123-12-14 11:58:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Mild hypotension overnight, resarted on pressors overnight.
   Vomiting this AM.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2123-12-14**] 06:05 AM
   Vancomycin - [**2123-12-14**] 08:05 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Norepinephrine - 0.07 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2123-12-14**] 04:00 AM
   Other medications:
   RISS, Rifaximin, epogen, Lactulose, midodrine, flagyl, risperdal,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-14**] 11:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.8
   HR: 98 (91 - 100) bpm
   BP: 84/42(58) {78/34(49) - 107/50(69)} mmHg
   RR: 22 (21 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.4 kg (admission): 92 kg
   Height: 62 Inch
   CVP: 10 (3 - 13)mmHg
   Total In:
                                                                 11,897 mL
                                                                  5,474 mL
   PO:
   TF:
                                                                  1,321 mL
                                                                    604 mL
   IVF:
                                                                 10,286 mL
                                                                  4,730 mL
   Blood products:
   Total out:
                                                                  7,704 mL
                                                                  4,504 mL
   Urine:
   NG:
                                                                    200 mL
   Stool:
                                                                  1,100 mL
   Drains:
   Balance:
                                                                  4,193 mL
                                                                    970 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: 7.35/38/120/19/-3
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, icteric sclera
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: At bases B/L)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   27 K/uL
   100 mg/dL
   0.6 mg/dL
   19 mEq/L
   3.8 mEq/L
   9 mg/dL
   105 mEq/L
   138 mEq/L
   23.2 %
   11.9 K/uL
        [image002.jpg]
                             [**2123-12-13**]  04:16 AM
                             [**2123-12-13**]  05:24 AM
                             [**2123-12-13**]  09:49 AM
                             [**2123-12-13**]  03:40 PM
                             [**2123-12-13**]  09:28 PM
                             [**2123-12-13**]  09:40 PM
                             [**2123-12-14**]  03:42 AM
                             [**2123-12-14**]  04:00 AM
                             [**2123-12-14**]  10:23 AM
                             [**2123-12-14**]  10:39 AM
   WBC
   10.8
   11.9
   Hct
   22.1
   23.2
   Plt
   37
   27
   Cr
   0.6
   0.4
   1.2
   1.1
   0.6
   TCO2
   24
   22
   22
   22
   Glucose
   105
   123
   106
   103
   103
   100
   Other labs: PT / PTT / INR:30.0/77.0/3.1, CK / CKMB / Troponin-T:28//,
   ALT / AST:74/232, Alk Phos / T Bili:95/33.0, Amylase / Lipase:/41,
   Differential-Neuts:80.0 %, Band:1.0 %, Lymph:6.0 %, Mono:5.0 %, Eos:7.0
   %, Fibrinogen:499 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.1 g/dL,
   LDH:336 IU/L, Ca++:9.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   Hypotension:  Restarted on pressors, suspect that her baseline BP is in
   this range.
     -Wean pressors today, MAP goal >50.
     -Add florinef
   Thrombocytopenia:  Seems most likely related to meds.  Potential
   suspects include H2 blocker, Vancomycin, Zosyn
     -As abx were empiric, will d/c them now
     -Change H2 blocker to PPI.
    Liver Failure:  Bilirubin, INR remain significantly altered.
     -continue lactulose, rifaxamin.
     -Will monitor liver function if she can remain off pressors
    Renal Failure:  Remains anuric
     -Continue CVVH
     -If BP remains stable over the next 24-48 hours, would trial HD
     -Will need tunneled line at some point.
    Anemia:  No signs of active bleeding.  HCT stable.
     -Transfusion goal >21%
    Mental status:  Numerous toxic-metabolic insults as well as ICU
   delirium
     -Will monitor on risperdal
    Rest of plan per Resident Note
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2123-12-3**] 05:45 PM
   Arterial Line - [**2123-12-9**] 05:31 AM
   Dialysis Catheter - [**2123-12-10**] 07:44 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2123-12-15 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - started florinef
   - weaning levophed; off since 2pm
 needed to be run 100 cc positive on
   CVVH overnight to maintain MAP
s once off levophed
   - d/c'd vanco/zosyn
   - changed famotidine to PPI
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2123-12-14**] 06:05 AM
   Vancomycin - [**2123-12-14**] 08:05 AM
   Metronidazole - [**2123-12-15**] 12:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 4 mEq./hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2123-12-15**] 12:00 AM
   Other medications:
   Flowsheet Data as of  [**2123-12-15**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 94 (87 - 98) bpm
   BP: 93/44(60) {80/35(50) - 102/51(68)} mmHg
   RR: 26 (19 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.4 kg (admission): 92 kg
   Height: 62 Inch
    CVP: 7 this morning
   Total In:
                                                                 10,332 mL
                                                                  2,596 mL
   PO:
   TF:
                                                                  1,245 mL
                                                                    410 mL
   IVF:
                                                                  8,737 mL
                                                                  2,066 mL
   Blood products:
   Total out:
                                                                  8,404 mL
                                                                  2,405 mL
   Urine:
   NG:
                                                                    200 mL
   Stool:
                                                                  1,450 mL
   Drains:
   Balance:
                                                                  1,928 mL
                                                                    191 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.38/36/161/19/-2
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Crackles : , No(t)
   Wheezes : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, Orineted to person only; slurred speech; CN II - XII in
   tact; unable to follow basic commands
   Labs / Radiology
   16 K/uL
   7.8 g/dL
   102 mg/dL
   0.6 mg/dL
   19 mEq/L
   3.7 mEq/L
   7 mg/dL
   107 mEq/L
   140 mEq/L
   22.4 %
   9.3 K/uL
        [image002.jpg]
                             [**2123-12-14**]  03:42 AM
                             [**2123-12-14**]  04:00 AM
                             [**2123-12-14**]  10:23 AM
                             [**2123-12-14**]  10:39 AM
                             [**2123-12-14**]  06:07 PM
                             [**2123-12-14**]  09:19 PM
                             [**2123-12-15**]  01:51 AM
                             [**2123-12-15**]  02:06 AM
                             [**2123-12-15**]  06:00 AM
                             [**2123-12-15**]  06:11 AM
   WBC
   11.9
   9.3
   Hct
   23.2
   22.4
   Plt
   27
   16
   Cr
   0.6
   1.0
   0.6
   TCO2
   22
   22
   22
   23
   22
   Glucose
   103
   100
   112
   101
   102
   Other labs: PT / PTT / INR:30.8/84.1/3.2, CK / CKMB / Troponin-T:28//,
   ALT / AST:79/248, Alk Phos / T Bili:84/29.4, Amylase / Lipase:/41,
   Differential-Neuts:80.0 %, Band:1.0 %, Lymph:6.0 %, Mono:5.0 %, Eos:7.0
   %, Fibrinogen:499 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.1 g/dL,
   LDH:262 IU/L, Ca++:9.3 mg/dL, Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Imaging: no new imaging
   Microbiology: No new culture data since [**2123-12-10**]
   Assessment and Plan
   Patient is a 45 year old female with EtOH hepatitis/cirrhosis admitted
   to OSH for acute hepatic failure and altered mental status transferred
   to [**Hospital1 19**] with shock, ARDS and ARF, intubated on pressors. Now
   successfully extubated, weaning off pressors (off this AM on [**2123-12-13**]).
   Remains on CVVH.
   # Thrombocytopenia: likely multifactorial from poor production [**1-3**]
   ESLD, med effect (stopped on vanco, zosyn & famotidine, which all have
   a risk of BM suppression), and possibily consumption.  Slw oozing from
   cracked corner of mouth, but otherwise no evidence of bleeding
   currently.
   -- will give one bag of platelets to get Plts > 20; will not recheck
   after transfusion
   -- trend with daily am labs
   # Shock: Likely septic, with resolving pressor requirement.  Etiology
   of septic shock could include prior infections including MSSA
   bacteremia (OSH culture grew [**11-21**], day 1 treatment [**11-23**]), E coli UTI
   (cx grew [**11-21**]).  Recent imaging suggest pan-colitis and dental
   abscess; treating with vanco/zosyn/flagyl.  Culture data negative at
   [**Hospital1 19**].
   -- fluid boluses PRN and/or titrating of CVVH parameters for MAPS > 50
   -- remains on midodrine 10 mg TID (maxing out dose)
   -- flurinef was started yest but unliklely to work b/c acts on kidneys
   and her GFR is essentially 0.  Will d/c.
   # Fever: Resolved.  WBC bumped over last few days, started to resolve
   but higher again today to 11.8.  Concern that she aspirated [**12-10**] during
   dialysis line placement or had transient bacteremia from pulling the
   old femoral HD line. Other possible source may be either pancolitis
   versus dental abscesses. Also, have not pursued TEE after her positive
   blood cultures, although TTE was negative.  Other sources ruled out:
   SBP (neg diagnostic para [**2123-12-3**]).  Lines: CVL changed [**2123-12-3**], a-line
   pulled [**2123-12-6**] (replaced [**12-7**] and again [**12-8**]), and femoral HD line changed
   [**2123-12-10**]. Sinusists: neg CT. Acalculous cholecystits: negative [**Name (NI) 3234**] sono.
   Dental c/s could not assess her well w/o panorex, recommend removing
   necrotic teeth by oral-facial maxillary surgery; currently too
   clinically unstable.  Vanzo/zysyn stopped on [**12-14**] with no fever
   overnight and stable WBC.
   - continue flagyl empirically for presumed C diff
   - f/u repeat cultures from [**2123-12-10**], still NGTD
   # Renal failure: Likely ATN in setting of shock.  Persistent anuria/
   oliguria. Appreciate renal assistance. Hope is to wean pressor and then
   transition to HD, though have not been able to maintain MAPs off
   levophed & unlikely to tolerate HD at this point.
   -- will defer tunneled HD line placement at this point until more HD
   stable as will need many units of FFP and possibly platelets for the
   procedure and would like to make sure it is needed.
   -- lytes per CVVH protocol
   # Mental Status: waxing/[**Doctor Last Name 533**]. Will likely be slow to recover however
   given toxic/metabolic derangements, renal failure and need for CVVH.
   -- Follow mental status
   --consider head CT/neuro consult in future for prognosis if does not
   improve.
   --  lactulose and rifaximin for hepatic encephalopathy
   -- risperdal PRN for hallucinations, delirium
   # Anemia: Also some clots in stool & menses.  Has been stable in low to
   mid-20 over last few days.
   --continue epogen per renal
   -- transfuse to > 21
   - maintain active t+c (ordered to renew this morning)
   # Alcoholic Hepatitis: U/S w/evidence of cirrhosis, portal vein
   thrombus (non-occlusive). Hepatitis serologies negative from [**2123-11-24**].
   Tylenol level negative at OSH. [**Doctor First Name **], anti-mitochondrial ab, Sm ab, RNP
   ab negative at OSH negative.  TBili slowly improving though no
   improvement in synthetic function yet.  Grave prognosis.
   -- Dailly LFTS, coags, plts
   -- f/u liver recs (nothing new)
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2123-12-14**] 01:04 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2123-12-3**] 05:45 PM
   Arterial Line - [**2123-12-9**] 05:31 AM
   Dialysis Catheter - [**2123-12-10**] 07:44 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   Communication: ICU consent signed Comments: last fam meeting was on
   [**2123-12-10**]
 plan to have again by Friday [**12-17**]
   Code status: Full code
   Disposition:ICU

2123-12-15 10:36:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Weaned off pressors overnight.
   Vanc/Zosyn started
   CVVH run positive yesterday
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2123-12-14**] 06:05 AM
   Vancomycin - [**2123-12-14**] 08:05 AM
   Metronidazole - [**2123-12-15**] 12:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 4 mEq./hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2123-12-15**] 12:00 AM
   Other medications:
   RISS, rifaximin, epogen, lactulose, midodrine, florinef
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-15**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.9
   HR: 98 (87 - 98) bpm
   BP: 98/47(64) {80/35(50) - 104/51(68)} mmHg
   RR: 27 (19 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.4 kg (admission): 92 kg
   Height: 62 Inch
   CVP: 2 (2 - 12)mmHg
   Total In:
                                                                 10,332 mL
                                                                  3,817 mL
   PO:
   TF:
                                                                  1,245 mL
                                                                    571 mL
   IVF:
                                                                  8,737 mL
                                                                  3,125 mL
   Blood products:
   Total out:
                                                                  8,404 mL
                                                                  3,589 mL
   Urine:
   NG:
                                                                    200 mL
   Stool:
                                                                  1,450 mL
   Drains:
   Balance:
                                                                  1,928 mL
                                                                    228 mL
   Respiratory support
   SpO2: 100%
   ABG: 7.38/36/161/19/-2
   Physical Examination
   General Appearance: No acute distress, Somnolent but arousable
   Eyes / Conjunctiva: icteric sclera
   Head, Ears, Nose, Throat: Normocephalic, Oozing from R lip
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed, No(t) Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   16 K/uL
   102 mg/dL
   0.6 mg/dL
   19 mEq/L
   3.7 mEq/L
   7 mg/dL
   107 mEq/L
   140 mEq/L
   22.4 %
   9.3 K/uL
        [image002.jpg]
                             [**2123-12-14**]  03:42 AM
                             [**2123-12-14**]  04:00 AM
                             [**2123-12-14**]  10:23 AM
                             [**2123-12-14**]  10:39 AM
                             [**2123-12-14**]  06:07 PM
                             [**2123-12-14**]  09:19 PM
                             [**2123-12-15**]  01:51 AM
                             [**2123-12-15**]  02:06 AM
                             [**2123-12-15**]  06:00 AM
                             [**2123-12-15**]  06:11 AM
   WBC
   11.9
   9.3
   Hct
   23.2
   22.4
   Plt
   27
   16
   Cr
   0.6
   1.0
   0.6
   TCO2
   22
   22
   22
   23
   22
   Glucose
   103
   100
   112
   101
   102
   Other labs: PT / PTT / INR:30.8/84.1/3.2, CK / CKMB / Troponin-T:28//,
   ALT / AST:79/248, Alk Phos / T Bili:84/29.4, Amylase / Lipase:/41,
   Differential-Neuts:80.0 %, Band:1.0 %, Lymph:6.0 %, Mono:5.0 %, Eos:7.0
   %, Fibrinogen:499 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.1 g/dL,
   LDH:262 IU/L, Ca++:9.3 mg/dL, Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Imaging: No new imaging
   Microbiology: No new micro
   Assessment and Plan
   Hypotension:  Weaned off pressors overnight, suspect that her baseline
   BP is in this range.
     -MAP goal >50.
     -D/C florinef as it likely has no effect in setting of renal failure
    Thrombocytopenia:  Seems most likely related to meds.  Potential
   suspects include H2 blocker, Vancomycin, Zosyn all of which have been
   stopped.
     -Will transfuse platelets today given coagulopathy
    Liver Failure:  Bilirubin, INR remain significantly altered.  Bili's a
   little down over the last 2 days
     -continue lactulose, rifaxamin.
     -Will monitor liver function if she can remain off pressors
    Renal Failure:  Remains anuric
     -Continue CVVH
     -If BP remains stable over the next 24-48 hours, would trial HD
     -Will need tunneled line at some point.
    Anemia:  No signs of active bleeding.  HCT stable.
     -Transfusion goal >21%
    Mental status:  Numerous toxic-metabolic insults as well as ICU
   delirium
     -Will monitor on risperdal
    Rest of plan per Resident Note
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2123-12-15**] 05:40 AM 55 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2123-12-3**] 05:45 PM
   Arterial Line - [**2123-12-9**] 05:31 AM
   Dialysis Catheter - [**2123-12-10**] 07:44 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill.

2123-12-16 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - transfused 1 unit platelets
   - levophed remained off,  required a few boluses for hypoTN
   - still anuric
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2123-12-14**] 06:05 AM
   Vancomycin - [**2123-12-14**] 08:05 AM
   Metronidazole - [**2123-12-15**] 12:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 4 mEq./hour
   Other ICU medications:
   Other medications:
   Flowsheet Data as of  [**2123-12-16**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.1
C (97
   HR: 93 (88 - 102) bpm
   BP: 90/42(58) {69/34(47) - 104/49(68)} mmHg
   RR: 26 (17 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.4 kg (admission): 92 kg
   Height: 62 Inch
    CVP: 9 (2 - 13)mmHg
   Total In:
                                                                  9,693 mL
                                                                  2,596 mL
   PO:
   TF:
                                                                  1,320 mL
                                                                    409 mL
   IVF:
                                                                  7,904 mL
                                                                  2,067 mL
   Blood products:
                                                                    199 mL
   Total out:
                                                                  7,057 mL
                                                                  2,381 mL
   Urine:
   NG:
   Stool:
                                                                  1,200 mL
   Drains:
   Balance:
                                                                  2,636 mL
                                                                    215 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.42/33/149/20/-1
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11 K/uL
   7.9 g/dL
   105 mg/dL
   0.6 mg/dL
   20 mEq/L
   3.6 mEq/L
   8 mg/dL
   108 mEq/L
   139 mEq/L
   23.2 %
   8.5 K/uL
        [image002.jpg]
                             [**2123-12-14**]  09:19 PM
                             [**2123-12-15**]  01:51 AM
                             [**2123-12-15**]  02:06 AM
                             [**2123-12-15**]  06:00 AM
                             [**2123-12-15**]  06:11 AM
                             [**2123-12-15**]  01:38 PM
                             [**2123-12-15**]  01:49 PM
                             [**2123-12-15**]  08:19 PM
                             [**2123-12-16**]  03:46 AM
                             [**2123-12-16**]  03:54 AM
   WBC
   9.3
   8.5
   Hct
   22.4
   23.2
   Plt
   16
   11
   Cr
   0.6
   1.0
   0.6
   TCO2
   22
   23
   22
   21
   22
   Glucose
   101
   102
   111
   120
   105
   Other labs: PT / PTT / INR:30.5/81.8/3.1, CK / CKMB / Troponin-T:28//,
   ALT / AST:79/248, Alk Phos / T Bili:84/28.9, Amylase / Lipase:/41,
   Differential-Neuts:80.0 %, Band:1.0 %, Lymph:6.0 %, Mono:5.0 %, Eos:7.0
   %, Fibrinogen:499 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.1 g/dL,
   LDH:262 IU/L, Ca++:9.7 mg/dL, Mg++:2.2 mg/dL, PO4:1.9 mg/dL
   Imaging: No new imaging
   Microbiology: [**2123-12-10**] Fem line Catheter tip: negative
   [**2123-12-10**] BCx x 2: NGTD
   Assessment and Plan
   Patient is a 45 year old female with EtOH hepatitis/cirrhosis admitted
   to OSH for acute hepatic failure and altered mental status transferred
   to [**Hospital1 19**] with shock, ARDS and ARF, intubated on pressors. Now
   successfully extubated, weaning off pressors (off this AM on [**2123-12-13**]).
   Remains on CVVH.
   # Thrombocytopenia: likely multifactorial from poor production [**1-3**]
   ESLD, med effect (stopped on vanco, zosyn & famotidine, which all have
   a risk of BM suppression), and possibily consumption.  Slw oozing from
   cracked corner of mouth, but otherwise no evidence of bleeding
   currently.
   -- will give one bag of platelets to get Plts > 20; will not recheck
   after transfusion
   -- trend with daily am labs
   # Shock: Likely septic, with resolving pressor requirement.  Etiology
   of septic shock could include prior infections including MSSA
   bacteremia (OSH culture grew [**11-21**], day 1 treatment [**11-23**]), E coli UTI
   (cx grew [**11-21**]).  Recent imaging suggest pan-colitis and dental
   abscess; treating with vanco/zosyn/flagyl.  Culture data negative at
   [**Hospital1 19**].
   -- fluid boluses PRN and/or titrating of CVVH parameters for MAPS > 50
   -- remains on midodrine 10 mg TID (maxing out dose)
   -- flurinef was started yest but unliklely to work b/c acts on kidneys
   and her GFR is essentially 0.  Will d/c.
   # Fever: Resolved.  WBC bumped over last few days, started to resolve
   but higher again today to 11.8.  Concern that she aspirated [**12-10**] during
   dialysis line placement or had transient bacteremia from pulling the
   old femoral HD line. Other possible source may be either pancolitis
   versus dental abscesses. Also, have not pursued TEE after her positive
   blood cultures, although TTE was negative.  Other sources ruled out:
   SBP (neg diagnostic para [**2123-12-3**]).  Lines: CVL changed [**2123-12-3**], a-line
   pulled [**2123-12-6**] (replaced [**12-7**] and again [**12-8**]), and femoral HD line changed
   [**2123-12-10**]. Sinusists: neg CT. Acalculous cholecystits: negative [**Name (NI) 3234**] sono.
   Dental c/s could not assess her well w/o panorex, recommend removing
   necrotic teeth by oral-facial maxillary surgery; currently too
   clinically unstable.  Vanzo/zysyn stopped on [**12-14**] with no fever
   overnight and stable WBC.
   - continue flagyl empirically for presumed C diff
   - f/u repeat cultures from [**2123-12-10**], still NGTD
   # Renal failure: Likely ATN in setting of shock.  Persistent anuria/
   oliguria. Appreciate renal assistance. Hope is to wean pressor and then
   transition to HD, though have not been able to maintain MAPs off
   levophed & unlikely to tolerate HD at this point.
   -- will defer tunneled HD line placement at this point until more HD
   stable as will need many units of FFP and possibly platelets for the
   procedure and would like to make sure it is needed.
   -- lytes per CVVH protocol
   # Mental Status: waxing/[**Doctor Last Name 533**]. Will likely be slow to recover however
   given toxic/metabolic derangements, renal failure and need for CVVH.
   -- Follow mental status
   --consider head CT/neuro consult in future for prognosis if does not
   improve.
   --  lactulose and rifaximin for hepatic encephalopathy
   -- risperdal PRN for hallucinations, delirium
   # Anemia: Also some clots in stool & menses.  Has been stable in low to
   mid-20 over last few days.
   --continue epogen per renal
   -- transfuse to > 21
   - maintain active t+c (ordered to renew this morning)
   # Alcoholic Hepatitis: U/S w/evidence of cirrhosis, portal vein
   thrombus (non-occlusive). Hepatitis serologies negative from [**2123-11-24**].
   Tylenol level negative at OSH. [**Doctor First Name **], anti-mitochondrial ab, Sm ab, RNP
   ab negative at OSH negative.  TBili slowly improving though no
   improvement in synthetic function yet.  Grave prognosis.
   -- Dailly LFTS, coags, plts
   -- f/u liver recs (nothing new)
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2123-12-14**] 01:04 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2123-12-3**] 05:45 PM
   Arterial Line - [**2123-12-9**] 05:31 AM
   Dialysis Catheter - [**2123-12-10**] 07:44 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   Communication: ICU consent signed Comments: last fam meeting was on
   [**2123-12-10**]; plan to have again by Friday [**12-17**]
   Code status: Full code
   Disposition:ICU
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2123-12-15**] 11:53 PM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2123-12-3**] 05:45 PM
   Arterial Line - [**2123-12-9**] 05:31 AM
   Dialysis Catheter - [**2123-12-10**] 07:44 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2123-12-16 11:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Remained off pressors again yesterday/overnight.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2123-12-14**] 06:05 AM
   Vancomycin - [**2123-12-14**] 08:05 AM
   Metronidazole - [**2123-12-15**] 12:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 4 mEq./hour
   Other ICU medications:
   Other medications:
   RISS, rifaximin, lactulose, epogen, midodrine, lansoprazole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-16**] 11:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 35.6
C (96
   HR: 91 (84 - 102) bpm
   BP: 82/37(52) {69/34(47) - 96/49(64)} mmHg
   RR: 27 (17 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.7 kg (admission): 92 kg
   Height: 62 Inch
   CVP: 13 (3 - 13)mmHg
   Total In:
                                                                  9,693 mL
                                                                  4,017 mL
   PO:
   TF:
                                                                  1,320 mL
                                                                    491 mL
   IVF:
                                                                  7,904 mL
                                                                  3,406 mL
   Blood products:
                                                                    199 mL
   Total out:
                                                                  7,057 mL
                                                                  2,646 mL
   Urine:
   NG:
   Stool:
                                                                  1,200 mL
   Drains:
   Balance:
                                                                  2,636 mL
                                                                  1,371 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.40/37/80.[**Numeric Identifier 176**]/20/0
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: Icertic Sclera
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: Bibasilar,
   Rhonchorous: Scattered)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   11 K/uL
   105 mg/dL
   0.6 mg/dL
   20 mEq/L
   3.6 mEq/L
   8 mg/dL
   108 mEq/L
   139 mEq/L
   23.2 %
   8.5 K/uL
        [image002.jpg]
                             [**2123-12-15**]  01:51 AM
                             [**2123-12-15**]  02:06 AM
                             [**2123-12-15**]  06:00 AM
                             [**2123-12-15**]  06:11 AM
                             [**2123-12-15**]  01:38 PM
                             [**2123-12-15**]  01:49 PM
                             [**2123-12-15**]  08:19 PM
                             [**2123-12-16**]  03:46 AM
                             [**2123-12-16**]  03:54 AM
                             [**2123-12-16**]  10:48 AM
   WBC
   9.3
   8.5
   Hct
   22.4
   23.2
   Plt
   16
   11
   Cr
   0.6
   1.0
   0.6
   TCO2
   23
   22
   21
   22
   24
   Glucose
   101
   102
   111
   120
   105
   Other labs: PT / PTT / INR:30.5/81.8/3.1, CK / CKMB / Troponin-T:28//,
   ALT / AST:79/248, Alk Phos / T Bili:84/28.9, Amylase / Lipase:/41,
   Differential-Neuts:80.0 %, Band:1.0 %, Lymph:6.0 %, Mono:5.0 %, Eos:7.0
   %, Albumin:2.1 g/dL, LDH:262 IU/L, Ca++:9.7 mg/dL, Mg++:2.2 mg/dL,
   PO4:1.9 mg/dL
   Imaging: None today
   Microbiology: No new micro
   Assessment and Plan
   Hypotension:  Weaned off pressors overnight, suspect that her baseline
   BP is in this range.
     -MAP goal >50, will check lactate for any signs of hypoperfusion
    Thrombocytopenia:  Seems most likely related to meds.  Potential
   suspects included H2 blocker, Vancomycin, Zosyn all of which have been
   stopped.
     -Will transfuse platelets today given coagulopathy, goal will be
   >20.
     -Check DIC labs
    Liver Failure:  Bilirubin, INR remain significantly altered.  Bili's
   stabilized again in the high 20's
     -continue lactulose, rifaxamin.
     -Will monitor liver function if she can remain off pressors
    Renal Failure:  Remains anuric
     -Discuss with renal timing of HD trial.  Need to establish some
   endpoints since remaining indefiinitely on CVVH is not an option.
     -Would need tunneled line at some point.
    Anemia:  No signs of active bleeding.  HCT stable.
     -Transfusion goal >21%
    Mental status:  Numerous toxic-metabolic insults as well as ICU
   delirium
     -Will monitor on risperdal
   GOC:  Will try to meet with family again regarding considering
   withdrawal of care given her peristent liver/kidney failure and
   encephalopathy.
    Rest of plan per Resident Note
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2123-12-3**] 05:45 PM
   Arterial Line - [**2123-12-9**] 05:31 AM
   Dialysis Catheter - [**2123-12-10**] 07:44 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2123-12-17 07:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -- repeat platelets 11--> down to 4 after two bags
   -- placed heme c/s --> think multifactorial from liver disease + zosyn
   + DIC vs. autoimmune effect; looked at PBS which showed some
   spherocytes, few schistos; wanted repeat hemolysis labs, Coomb's test,
   B12, folate; only transfuse if [** **] < 10 and bleeding
   -- fam mtg planned for 3 pm on Fri
   -- renal says no HD (unless BP drastically turns around); CVVH ok for
   supportive care indefinitely as far as they are concerned
   This AM, no appeciable change from yesterday. Mental status still
   altered.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2123-12-14**] 08:05 AM
   Metronidazole - [**2123-12-15**] 12:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-17**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 92 (84 - 102) bpm
   BP: 78/36(51) {75/35(49) - 96/47(65)} mmHg
   RR: 27 (15 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.7 kg (admission): 92 kg
   Height: 62 Inch
    CVP: 11 (2 - 13)mmHg
   Total In:
                                                                  9,221 mL
                                                                  2,609 mL
   PO:
   TF:
                                                                  1,256 mL
                                                                    424 mL
   IVF:
                                                                  7,499 mL
                                                                  2,065 mL
   Blood products:
                                                                    256 mL
   Total out:
                                                                  4,148 mL
                                                                  1,603 mL
   Urine:
   NG:
   Stool:
                                                                  1,200 mL
                                                                    600 mL
   Drains:
   Balance:
                                                                  5,073 mL
                                                                  1,006 mL
   Respiratory support
   SpO2: 100%
   ABG: 7.42/34/151/21/-1
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7 K/uL
   7.1 g/dL
   101 mg/dL
   0.4 mg/dL
   21 mEq/L
   3.8 mEq/L
   8 mg/dL
   108 mEq/L
   140 mEq/L
   20.3 %
   9.1 K/uL
        [image002.jpg]
                             [**2123-12-16**]  03:46 AM
                             [**2123-12-16**]  03:54 AM
                             [**2123-12-16**]  10:39 AM
                             [**2123-12-16**]  10:48 AM
                             [**2123-12-16**]  03:50 PM
                             [**2123-12-16**]  04:09 PM
                             [**2123-12-16**]  10:16 PM
                             [**2123-12-16**]  10:32 PM
                             [**2123-12-17**]  04:39 AM
                             [**2123-12-17**]  04:51 AM
   WBC
   8.5
   9.1
   Hct
   23.2
   20.3
   [**Year (4 digits) **]
   11
   7
   Cr
   0.6
   0.6
   0.4
   TCO2
   22
   24
   23
   22
   23
   Glucose
   105
   111
   99
   104
   101
   Other labs: PT / PTT / INR:29.5/72.8/3.0, CK / CKMB / Troponin-T:28//,
   ALT / AST:79/248, Alk Phos / T Bili:84/26.8, Amylase / Lipase:/41,
   Differential-Neuts:80.0 %, Band:1.0 %, Lymph:6.0 %, Mono:5.0 %, Eos:7.0
   %, Fibrinogen:205 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:2.1 g/dL,
   LDH:247 IU/L, Ca++:9.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Imaging: none new
   Microbiology: none new since [**12-10**]
   no positive studies
   Assessment and Plan
   45 year old female with EtOH hepatitis/cirrhosis admitted to OSH for
   acute hepatic failure and altered mental status transferred to [**Hospital1 19**]
   with shock, ARDS and ARF, intubated on pressors. Now successfully
   extubated, still CVVH dependent, off pressors but still hypotensive
   without running CVVH positive, and with failing hepatic synthetic
   function.
   # Thrombocytopenia: likely multifactorial from poor production [**1-3**]
   ESLD, med effect (stopped on vanco, zosyn & famotidine, which all have
   a risk of BM suppression), and possibily consumption/DIC.  Slow oozing
   from cracked corner of mouth, but otherwise no evidence of bleeding
   currently.  Platelets 16
 11 overnight with one bag of platelets.
   -- will give two bags of platelets to get Plts > 20; will recheck this
   afternoon
   -- fibrinogen level pending
   # Shock: Likely septic, with resolving pressor requirement.  Etiology
   of septic shock could include prior infections including MSSA
   bacteremia (OSH culture grew [**11-21**], day 1 treatment [**11-23**]), E coli UTI
   (cx grew [**11-21**]).  Recent imaging suggest pan-colitis and dental
   abscess; treating with vanco/zosyn/flagyl.  Culture data negative at
   [**Hospital1 19**].
   -- fluid boluses PRN and/or titrating of CVVH parameters for MAPS > 50
   -- remains on midodrine 10 mg TID (maxing out dose)
   # Fever: Resolved.  WBC bumped over last few days, started to resolve
   but higher again today to 11.8.  Concern that she aspirated [**12-10**] during
   dialysis line placement or had transient bacteremia from pulling the
   old femoral HD line. Other possible source may be either pancolitis
   versus dental abscesses. Also, have not pursued TEE after her positive
   blood cultures, although TTE was negative.  Other sources ruled out:
   SBP (neg diagnostic para [**2123-12-3**]).  Lines: CVL changed [**2123-12-3**], a-line
   pulled [**2123-12-6**] (replaced [**12-7**] and again [**12-8**]), and femoral HD line changed
   [**2123-12-10**]. Sinusists: neg CT. Acalculous cholecystits: negative [**Name (NI) 3234**] sono.
   Dental c/s could not assess her well w/o panorex, recommend removing
   necrotic teeth by oral-facial maxillary surgery; currently too
   clinically unstable.  Vanzo/zysyn stopped on [**12-14**] with no fever
   overnight and stable WBC.
   -- continue flagyl empirically for presumed C diff
   -- f/u repeat cultures from [**2123-12-10**], still NGTD
   # Renal failure: Likely ATN in setting of shock.  Persistent anuria/
   oliguria. Appreciate renal assistance. Hope is to wean pressor and then
   transition to HD, though have not been able to maintain MAPs off
   levophed & unlikely to tolerate HD at this point.
   -- will defer tunneled HD line placement at this point until more HD
   stable as will need many units of FFP and possibly platelets for the
   procedure and would like to make sure it is needed.
   -- lytes per CVVH protocol
   -- renal feels will not tolerate HD
   # Mental Status: waxing/[**Doctor Last Name 533**]. Will likely be slow to recover however
   given toxic/metabolic derangements, renal failure and need for CVVH.
   Will defer neuro imaging.
   --  lactulose and rifaximin for hepatic encephalopathy
   -- risperdal PRN for hallucinations, delirium
   # Anemia: Also some clots in stool & menses.  Has been stable in low to
   mid-20 over last few days.
   --continue epogen per renal
   -- transfuse to > 21
   - maintain active t+c (ordered to renew this morning)
   # Alcoholic Hepatitis: U/S w/evidence of cirrhosis, portal vein
   thrombus (non-occlusive). Hepatitis serologies negative from [**2123-11-24**].
   Tylenol level negative at OSH. [**Doctor First Name **], anti-mitochondrial ab, Sm ab, RNP
   ab negative at OSH negative.  TBili slowly improving though no
   improvement in synthetic function yet.  Grave prognosis.
   -- Dailly LFTS, coags, plts
   -- f/u liver recs (nothing new)
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2123-12-17**] 04:20 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2123-12-3**] 05:45 PM
   Arterial Line - [**2123-12-9**] 05:31 AM
   Dialysis Catheter - [**2123-12-10**] 07:44 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2123-12-17 10:38:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Platelets dropped to 4,000 after platelet transfusion.  Heme
   consulted.  Some oozing from catheter/blood draw sites.  Given more
   platelets
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2123-12-15**] 12:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Other medications:
   RISS, rifaximin, epogen, lactulose, midodrine, lansoprazole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-17**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.8
C (96.5
   HR: 95 (88 - 102) bpm
   BP: 80/38(54) {75/35(49) - 96/47(65)} mmHg
   RR: 22 (15 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.7 kg (admission): 92 kg
   Height: 62 Inch
   CVP: 11 (2 - 12)mmHg
   Total In:
                                                                  9,221 mL
                                                                  3,624 mL
   PO:
   TF:
                                                                  1,256 mL
                                                                    563 mL
   IVF:
                                                                  7,499 mL
                                                                  2,744 mL
   Blood products:
                                                                    256 mL
                                                                    197 mL
   Total out:
                                                                  4,148 mL
                                                                  1,885 mL
   Urine:
   NG:
   Stool:
                                                                  1,200 mL
                                                                    600 mL
   Drains:
   Balance:
                                                                  5,073 mL
                                                                  1,739 mL
   Respiratory support
   SpO2: 99%
   ABG: 7.42/34/151/21/-1
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: Icteric sclera
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: B/L)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed, Jaundice
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.1 g/dL
   7 K/uL
   101 mg/dL
   0.4 mg/dL
   21 mEq/L
   3.8 mEq/L
   8 mg/dL
   108 mEq/L
   140 mEq/L
   20.3 %
   9.1 K/uL
         [image002.jpg]
                             [**2123-12-16**]  03:46 AM
                             [**2123-12-16**]  03:54 AM
                             [**2123-12-16**]  10:39 AM
                             [**2123-12-16**]  10:48 AM
                             [**2123-12-16**]  03:50 PM
                             [**2123-12-16**]  04:09 PM
                             [**2123-12-16**]  10:16 PM
                             [**2123-12-16**]  10:32 PM
                             [**2123-12-17**]  04:39 AM
                             [**2123-12-17**]  04:51 AM
   WBC
   8.5
   9.1
   Hct
   23.2
   20.3
   Plt
   11
   7
   Cr
   0.6
   0.6
   0.4
   TCO2
   22
   24
   23
   22
   23
   Glucose
   105
   111
   99
   104
   101
   Other labs: PT / PTT / INR:29.5/72.8/3.0, CK / CKMB / Troponin-T:28//,
   ALT / AST:79/248, Alk Phos / T Bili:84/26.8, Amylase / Lipase:/41,
   Differential-Neuts:80.0 %, Band:1.0 %, Lymph:6.0 %, Mono:5.0 %, Eos:7.0
   %, Fibrinogen:205 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:2.1 g/dL,
   LDH:247 IU/L, Ca++:9.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Fluid analysis / Other labs: Smear:  Some spherocytes, few schistocytes
   Imaging: No new imaging
   Microbiology: No new micro
   Assessment and Plan
   Hypotension:  Has stayed off pressors but has required significant
   positive fluid balance. Lactate normal with MAPs in the 50's.
     -MAP goal >50
   Thrombocytopenia:  Seems most likely related to meds +/- abnormal
   sequestration +/- DIC +/- autoimmune.  Potential med suspects included
   H2 blocker, Vancomycin, Zosyn all of which have been stopped.
      -Appreciate heme input.  Apparently coombs test today is positive.
   Will discuss with heme regarding ?need for steroids
      -Will transfuse platelets today given coagulopathy, goal will be
   >20.
    Liver Failure:  Bilirubin, INR remain significantly altered.  Bili's
   stabilized again in the high 20's
     -continue lactulose, rifaxamin.
     -Will monitor liver function if she can remain off pressors
    Renal Failure:  Remains anuric
     - HD not an option given poor BP.
     -Will try holding CVVH to see if BP improves over the next 24-48
   hours.  If BP not better, options are extremely limited since     CVVH
   isn
t viable as long term therapy.
    Anemia:  Diffuse oozing related to coagulopathy and thrombocytopenia
     -Transfusion goal >21%, 2 units PRBC today
    Mental status:  Numerous toxic-metabolic insults as well as ICU
   delirium
   GOC:  Will try to meet with family again regarding considering
   withdrawal of care given her peristent liver/kidney failure and
   encephalopathy.
    Rest of plan per Resident Note
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2123-12-17**] 04:20 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2123-12-3**] 05:45 PM
   Arterial Line - [**2123-12-9**] 05:31 AM
   Dialysis Catheter - [**2123-12-10**] 07:44 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill.

2123-12-18 08:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - platelets continued to drop/not bump appropriately despite 3 bags
   platelets
   - did not transfuse any more after they were stable at 5K
   - oozing but no massive bleeding
   - Per heme, started trial of prednisone 1mg/kg daily for possible ITP
   and auto-immune hemolytic anemia, although they did not feel strongly
   about this. daily DIC labs ordered per heme
   - Family meeting: very difficult, code status still full, although
   discussion ongoing
   - run even on CVVH, bp with map around 50
   This AM, no change in mental status. Knows she's in a  hospital but is
   still lethargic.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-18**] 08:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 112 (89 - 112) bpm
   BP: 87/47(63) {76/35(50) - 96/51(67)} mmHg
   RR: 29 (17 - 31) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 90.7 kg (admission): 92 kg
   Height: 62 Inch
    CVP: 9 (2 - 12)mmHg
   Total In:
                                                                 10,282 mL
                                                                  3,219 mL
   PO:
   TF:
                                                                  1,372 mL
                                                                    451 mL
   IVF:
                                                                  7,018 mL
                                                                  2,618 mL
   Blood products:
                                                                  1,622 mL
   Total out:
                                                                  7,622 mL
                                                                  3,082 mL
   Urine:
   NG:
   Stool:
                                                                  2,100 mL
                                                                  1,050 mL
   Drains:
   Balance:
                                                                  2,660 mL
                                                                    137 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: 7.42/34/75/20/-1
   Physical Examination
   GEN: mental status unchanged
   HEENT: icteric sclerae, bloody excoriations and mucus membranes
   Cor: 2/6 SEM unchanged
   Resp: diffuse scattered rhonchi
   Abd: distended but not tense, + BS
   Ext: worsened edema, near anasarca
   Labs / Radiology
   8 K/uL
   8.0 g/dL
   123 mg/dL
   1.0 mg/dL
   20 mEq/L
   4.2 mEq/L
   9 mg/dL
   107 mEq/L
   139 mEq/L
   22.1 %
   8.0 K/uL
        [image002.jpg]
                             [**2123-12-17**]  10:43 AM
                             [**2123-12-17**]  10:57 AM
                             [**2123-12-17**]  12:53 PM
                             [**2123-12-17**]  03:45 PM
                             [**2123-12-17**]  03:55 PM
                             [**2123-12-17**]  06:43 PM
                             [**2123-12-17**]  10:01 PM
                             [**2123-12-17**]  10:06 PM
                             [**2123-12-18**]  03:56 AM
                             [**2123-12-18**]  04:05 AM
   WBC
   7.8
   8.0
   Hct
   20.8
   23.2
   22.1
   Plt
   7
   7
   5
   5
   8
   Cr
   1.2
   1.0
   1.0
   1.0
   TCO2
   24
   23
   23
   23
   Glucose
   109
   109
   107
   123
   Other labs: PT / PTT / INR:25.3/55.4/2.5, CK / CKMB / Troponin-T:28//,
   ALT / AST:68/150, Alk Phos / T Bili:73/28.6, Amylase / Lipase:/41,
   Differential-Neuts:83.0 %, Band:0.0 %, Lymph:12.0 %, Mono:3.0 %,
   Eos:2.0 %, Fibrinogen:214 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:2.1
   g/dL, LDH:238 IU/L, Ca++:9.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Imaging: none new
   Microbiology: none new since [**12-10**]
   Assessment and Plan
   45 year old female with EtOH hepatitis/cirrhosis admitted to OSH for
   acute hepatic failure and altered mental status transferred to [**Hospital1 19**]
   with shock, ARDS and ARF, intubated on pressors. Now extubated since
   [**2123-12-4**], but still CVVH dependent, off pressors but still hypotensive
   unless running CVVH positive, and with failing hepatic synthetic
   function incluing worsening thrombocytopenia.
   # Thrombocytopenia: appreciate heme consult, likely multifactorial from
   poor production [**1-3**] ESLD, med effect (esp zosyn & famotidine), and
   possibily consumption/DIC.
   -- continue prednisone for possible ITP or AIHA
   -- f/u add
l heme recs
   -- daily DIC panel, peripherals smear per heme
   -- would not transfuse additional platelets yet, only if evidence of
   worsening bleeding
   -- monitor med list for contributors (off zosyn, only except antibitics
   is flagyl; H2 blocker changed to PPI)
   -- hepatic dysfunction not correctable
   # Hypotension: Had septic shock, whose etiology could have included
   prior infections including MSSA bacteremia (OSH culture grew [**11-21**], day
   1 treatment [**11-23**]), E coli UTI (cx grew [**11-21**]), pan-colitis (completing
   a course of flagyl) and dental abscess. All culture data negative at
   [**Hospital1 19**].
   -- to complete flagyl course x 14 days to cover colitis
   -- tolerate MAPS > 50
   -- remains on midodrine 10 mg TID (maxing out dose)
   # Fever: Resolved, but can be hypothermic on CVVH.  Concern that she
   aspirated [**12-10**] during dialysis line placement or had transient
   bacteremia from pulling the old femoral HD line. Other possible source
   may be either pancolitis versus dental abscesses. Also, have not
   pursued TEE after her positive blood cultures, although TTE was
   negative.  Other sources ruled out: SBP (neg diagnostic para [**2123-12-3**]).
   Lines: CVL changed [**2123-12-3**], a-line pulled [**2123-12-6**] (replaced [**12-7**] and again
   [**12-8**]), and femoral HD line changed [**2123-12-10**]. Sinusists: neg CT. Acalculous
   cholecystits: negative [**Name (NI) 3234**] sono.  Dental c/s could not assess her well
   w/o panorex, recommend removing necrotic teeth by oral-facial maxillary
   surgery; currently too clinically unstable.  Vanzo/zysyn stopped on
   [**12-14**] with no subsequent fevers and stable WBC.
   -- continue flagyl empirically for presumed C diff
   -- all cultures have NGTD
   # Renal failure: Likely ATN in setting of shock.  Persistent anuria/
   oliguria. Appreciate renal assistance. Hope is to wean pressor and then
   transition to HD, though have not been able to maintain MAPs off
   levophed & unlikely to tolerate HD at this point.
   -- unable to get HD due to hypotension
   -- lytes per CVVH protocol
   -- hope of renal recovery is slim/none
   -- family meeting held to discuss grave prognosis
   # Mental Status: waxing/[**Doctor Last Name 533**]. Will likely be slow to recover however
   given toxic/metabolic derangements, renal failure and need for CVVH.
   Will defer neuro imaging.
   --  lactulose and rifaximin for hepatic encephalopathy
   # Anemia: stable.  Has been stable in low to mid-20 over last few days.
   + direct coomb
s test
   --continue epogen per renal
   -- transfuse to > 21
   - maintain active t+c
   - prednisone for AIA
   # Alcoholic Hepatitis: U/S w/evidence of cirrhosis, portal vein
   thrombus (non-occlusive). Hepatitis serologies negative from [**2123-11-24**].
   Tylenol level negative at OSH. [**Doctor First Name **], anti-mitochondrial ab, Sm ab, RNP
   ab negative at OSH negative.  TBili slowly improving though no
   improvement in synthetic function yet.  Grave prognosis.
   -- Dailly LFTS, coags, plts
   -- f/u liver recs (nothing new)
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2123-12-18**] 06:39 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2123-12-3**] 05:45 PM
   Arterial Line - [**2123-12-9**] 05:31 AM
   Dialysis Catheter - [**2123-12-10**] 07:44 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2123-12-18 11:54:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   45yo with EtOH-associated hepatitis and ESLD, with MSSA bacteremia,
   E.coli UTI,  shock, ARDS, complicated by ARF requiring CVVH. and MODS.
   On [**12-4**] patient extubated, though with fluctuating mental status. Still
   requiring CVVH, anuric.   Pt persistently hypotensive, requiring
   midodrine to spare conventional vasopressors.  Also thrombocytopenic
   [**1-3**] liver disease, potentially DIC, and ? autoimmune process (coombs
   positive) and drug effect.
   24 Hour Events:
   - Transfused 3 6-packs of platelet, with no response in plt level
   - started on Corticosteroids 1mg/kg for ? ITP
   - Family meeting with patient's family; no change in code status.
   - Patient 2.5L positive
   - MAPs stable ~50 on midodrine.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Other medications:
   Rifaximin
   Lactulose
   Epogen
   Inulin SS
   Midodrine 10mg tid
   Flagyl 500 q12hr ([**12-7**] )
   Lansoprazole
   Prednisone 90mg  x 3 days
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-18**] 11:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.7
   HR: 92 (89 - 112) bpm
   BP: 77/41(56) {77/35(50) - 96/51(67)} mmHg
   RR: 27 (17 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.7 kg (admission): 92 kg
   Height: 62 Inch
   CVP: 5 (4 - 13)mmHg
   Total In:
                                                                 10,282 mL
                                                                  4,334 mL
   PO:
   TF:
                                                                  1,372 mL
                                                                    619 mL
   IVF:
                                                                  7,018 mL
                                                                  3,565 mL
   Blood products:
                                                                  1,622 mL
   Total out:
                                                                  7,622 mL
                                                                  3,706 mL
   Urine:
   NG:
   Stool:
                                                                  2,100 mL
                                                                  1,050 mL
   Drains:
   Balance:
                                                                  2,660 mL
                                                                    628 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: 7.43/34/87.[**Numeric Identifier 181**]/20/0
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: icteric scleera
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : )
   Abdominal: Soft, Distended
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): AOx2,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   5 K/uL
   123 mg/dL
   0.6 mg/dL
   20 mEq/L
   3.8 mEq/L
   10 mg/dL
   106 mEq/L
   139 mEq/L
   22.1 %
   8.0 K/uL
        [image002.jpg]
                             [**2123-12-17**]  12:53 PM
                             [**2123-12-17**]  03:45 PM
                             [**2123-12-17**]  03:55 PM
                             [**2123-12-17**]  06:43 PM
                             [**2123-12-17**]  10:01 PM
                             [**2123-12-17**]  10:06 PM
                             [**2123-12-18**]  03:56 AM
                             [**2123-12-18**]  04:05 AM
                             [**2123-12-18**]  09:25 AM
                             [**2123-12-18**]  09:41 AM
   WBC
   7.8
   8.0
   Hct
   20.8
   23.2
   22.1
   Plt
   7
   7
   5
   5
   8
   5
   Cr
   1.0
   1.0
   1.0
   0.6
   TCO2
   23
   23
   23
   23
   Glucose
   109
   107
   123
   123
   Other labs: PT / PTT / INR:25.3/55.4/2.5, CK / CKMB / Troponin-T:28//,
   ALT / AST:68/150, Alk Phos / T Bili:73/28.6, Amylase / Lipase:/41,
   Differential-Neuts:83.0 %, Band:0.0 %, Lymph:12.0 %, Mono:3.0 %,
   Eos:2.0 %, Fibrinogen:214 mg/dL, Lactic Acid:2.2 mmol/L, Albumin:2.1
   g/dL, LDH:238 IU/L, Ca++:9.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Imaging: No new imaging
   Microbiology: No new specimens
   Assessment and Plan
   1) Heme-
      a) Thrombocytopenia likely multifactorial (DIC, liver disease, ?
   ITP).  Currently on Prednisone 90mg day.
           i) Will transfuse platelets only if bleeding given no response
   to platelet transfusions.  Avoid medicines known to cause
               thrombocytopenia.
          ii) Crit goal >21%
          iii) Check daily fibrinogens
          iv) DVT prophy with boots.
   2) CV
        a) hypotensive, likely at her baseline given her liver disease.
   Prior w/u to exclude infection has been unrevealing.
        b) On Midodrine to keep MAPs>50
   3) Resp- on RA.  Incentive spirometry
       a) Keep I/O's even to slightly neg as tolerated
       b) CHANGE nebs to standing, given wheezing (cardiac wheezes vs
   bronchoconstriction?)
   4) GI-
        a) on tube feeds
        b) Hepatitis likely [**1-3**] EtOH, other etiologies ruled out
             - Not transplant candidate
             - On Rifaximin, Lactulose
             - Not on SBP prophylaxis, not indicated
   5) Renal- ARF requiring CVVH , likely due to ATN
          - anuric
          - Continue CVVH
          - I/O = will keep even today, as blood pressures tolerate.
   6) ID- On flagyl for pan-colitis (likely moreso ischemic).  C. diff
   have been negative, but plan to finish 2week course flagyl.
   7) Endo- SUGARS OK
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2123-12-18**] 06:39 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2123-12-3**] 05:45 PM
   Arterial Line - [**2123-12-9**] 05:31 AM
   Dialysis Catheter - [**2123-12-10**] 07:44 PM
   Prophylaxis:
   DVT:  SCDs
   Stress ulcer:  PPI
   VAP:  HOB at 45 degrees.
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:  50 minutes, patient is critically ill

2123-12-19 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - continued oozing but no massive bleeding
   - continued on prednisone 1mg/kg daily for possible ITP and auto-immune
   hemolytic anemia
   - daily hemolysis labs per heme
   - remains full code after family meeting on Friday
   - ran even on CVVH, bp with map around 50-55
   - transfused one unit RBC this morning for low Hct (20.3; less than
   goal 21)
   - had dark brown clots (guaiac positive) on NG residual check
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   KCl (CRRT) - 3 mEq./hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Other medications:
   Flowsheet Data as of  [**2123-12-19**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.2
   HR: 90 (87 - 103) bpm
   BP: 93/47(65) {65/35(48) - 98/54(71)} mmHg
   RR: 17 (16 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.7 kg (admission): 92 kg
   Height: 62 Inch
    CVP: 9 (5 - 19)mmHg
   Total In:
                                                                  9,366 mL
                                                                  2,726 mL
   PO:
   TF:
                                                                  1,430 mL
                                                                    408 mL
   IVF:
                                                                  7,606 mL
                                                                  2,168 mL
   Blood products:
   Total out:
                                                                  9,377 mL
                                                                  2,756 mL
   Urine:
   NG:
   Stool:
                                                                  2,330 mL
                                                                  1,150 mL
   Drains:
   Balance:
                                                                    -11 mL
                                                                    -30 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.46/30/85.[**Numeric Identifier 126**]/20/0
   Physical Examination
   GEN: mental status unchanged
   HEENT: icteric sclerae, bloody excoriations and mucus membranes
   Cor: 2/6 SEM unchanged
   Resp: diffuse scattered rhonchi
   Abd: distended but not tense, + BS
   Ext: 3+ [**Location (un) **], near anasarca
   Neuro: oriented to slef only; slurred speech; moving all limbs; CN II
XII in tact
   Labs / Radiology
   10 K/uL
   7.0 g/dL
   131 mg/dL
   0.9 mg/dL
   20 mEq/L
   4.0 mEq/L
   13 mg/dL
   106 mEq/L
   138 mEq/L
   20.3 %
   7.5 K/uL
        [image002.jpg]
                             [**2123-12-18**]  03:56 AM
                             [**2123-12-18**]  04:05 AM
                             [**2123-12-18**]  09:25 AM
                             [**2123-12-18**]  09:41 AM
                             [**2123-12-18**]  04:05 PM
                             [**2123-12-18**]  04:24 PM
                             [**2123-12-18**]  10:11 PM
                             [**2123-12-18**]  10:15 PM
                             [**2123-12-19**]  04:04 AM
                             [**2123-12-19**]  04:10 AM
   WBC
   8.0
   7.9
   7.5
   Hct
   22.1
   21.5
   20.3
   Plt
   8
   5
   9
   10
   Cr
   1.0
   0.6
   0.6
   0.6
   0.9
   TCO2
   23
   23
   25
   23
   22
   Glucose
   123
   123
   114
   110
   131
   Other labs: PT / PTT / INR:25.6/54.3/2.5
   Ca++:10.3 mg/dL, Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   ALT / AST:67/133, Alk Phos / T Bili:89/28.9
   Fibrinogen:129 mg/dL
   Haptoglobin; pending
   LDH:229 IU/L
   Imaging: No new imaging
   Microbiology: no new cx data since [**2123-12-10**]
   Assessment and Plan
   45 year old female with EtOH hepatitis/cirrhosis admitted to OSH for
   acute hepatic failure and altered mental status transferred to [**Hospital1 19**]
   with shock, ARDS and ARF, intubated on pressors. Now extubated since
   [**2123-12-4**], but still CVVH dependent, off pressors but still hypotensive
   unless running CVVH positive, and with failing hepatic synthetic
   function incluing worsening thrombocytopenia.
   # Thrombocytopenia: appreciate heme consult, likely multifactorial from
   poor production [**1-3**] ESLD, med effect (esp zosyn & famotidine), and
   possibily consumption/DIC.  Steroid trial is for possible ITP or AIHA.
   -- will change prednisone to solumedrole IV given poor liver function
   -- f/u add
l heme recs
   -- daily DIC panel, peripherals smear per heme (fibrinogen > 100 on
   [**12-19**], will defer cryo transfusion for today)
   -- would not transfuse additional platelets yet, only if evidence of
   worsening bleeding
   -- monitor med list for contributors (off zosyn, only except antibitics
   is flagyl; H2 blocker changed to PPI)
   -- hepatic dysfunction not correctable
   -- lytes per CVVH protocol; will give additional Ca to make sure
   ionized Ca is > 1.12 (i.e., w/in normal) for clotting dysfunction
   # Hypotension: Had septic shock, whose etiology could have included
   prior infections including MSSA bacteremia (OSH culture grew [**11-21**], day
   1 treatment [**11-23**]), E coli UTI (cx grew [**11-21**]), pan-colitis (completing
   a course of flagyl) and dental abscess. All culture data negative at
   [**Hospital1 19**].
   -- to complete flagyl course x 14 days to cover colitis (started [**12-7**];
   should end [**12-21**])
   -- tolerate MAPS > 50
   -- remains on midodrine 10 mg TID (maxing out dose)
   -- will try to run even to negative 500 cc as BP tolerates
   # Fever: Resolved, but can be hypothermic on CVVH.  Concern that she
   aspirated [**12-10**] during dialysis line placement or had transient
   bacteremia from pulling the old femoral HD line. Other possible source
   may be either pancolitis versus dental abscesses. Also, have not
   pursued TEE after her positive blood cultures, although TTE was
   negative.  Other sources ruled out: SBP (neg diagnostic para [**2123-12-3**]).
   Lines: CVL changed [**2123-12-3**], a-line pulled [**2123-12-6**] (replaced [**12-7**] and again
   [**12-8**]), and femoral HD line changed [**2123-12-10**]. Sinusists: neg CT. Acalculous
   cholecystits: negative [**Name (NI) 3234**] sono.  Dental c/s could not assess her well
   w/o panorex, recommend removing necrotic teeth by oral-facial maxillary
   surgery; currently too clinically unstable.  Vanzo/zysyn stopped on
   [**12-14**] with no subsequent fevers and stable WBC.
   -- continue flagyl empirically for presumed C diff
   -- all cultures have NGTD
   # Renal failure: Likely ATN in setting of shock.  Persistent anuria/
   oliguria. Appreciate renal assistance. Hope is to wean pressor and then
   transition to HD, though have not been able to maintain MAPs off
   levophed & unlikely to tolerate HD at this point.
   -- unable to get HD due to hypotension
   -- lytes per CVVH protocol; will give additional Ca to make sure
   ionized Ca is > 1.12 (i.e., w/in normal) for clotting dysfunction
   -- hope of renal recovery is slim/none
   -- family meeting held on [**12-17**] to discuss grave prognosis
   # Mental Status: waxing/[**Doctor Last Name 533**]. Will likely be slow to recover however
   given toxic/metabolic derangements, HE, ICU delirium, ?
   schizophrenia/psychosis.  Will defer neuro imaging.
   --  lactulose and rifaximin for hepatic encephalopathy
   # Anemia: stable.  Has been stable in low to mid-20 over last few days.
   + direct coomb
s test.
   --continue epogen per renal
   -- transfuse to > 21 (ordered for one unit today)
   - maintain active t+c
   - solumedrol for AIA
   # Alcoholic Hepatitis: U/S w/evidence of cirrhosis, portal vein
   thrombus (non-occlusive). Hepatitis serologies negative from [**2123-11-24**].
   Tylenol level negative at OSH. [**Doctor First Name **], anti-mitochondrial ab, Sm ab, RNP
   ab negative at OSH negative.  TBili slowly improving though no
   improvement in synthetic function yet.  Grave prognosis.  TBili has
   been stable in the upper 20
s w/o evidence of improvement in synthetic
   function.
   -- Dailly LFTS, coags, plts
   -- f/u liver recs (nothing new)
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2123-12-18**] 06:39 AM 55 mL/hour
   Glycemic Control:  SSI; has required low doses of insulin
   Lines:
   Multi Lumen - [**2123-12-3**] 05:45 PM
   Arterial Line - [**2123-12-9**] 05:31 AM
   Dialysis Catheter - [**2123-12-10**] 07:44 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:  NA; will have patient sitting upright
   Comments:
   Communication: Family meeting held [**12-17**]; ICU consent signed
   Code status: Full code
   Disposition:ICU

2123-12-19 07:39:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   45yo homeless female with EtOH- cirrhosis, admit to OSH [**11-19**] with MSSA
   bacteremia, E.coli UTI and septic shock,  complicated by ARDS and ARF,
   txferred to [**Hospital1 19**] [**11-23**] for CVVH. Patient now extubated, but still
   anuric and requiring CVVH. Reliant on midodrine to keep MAPs>50.  Also
   with profound thrombocytopenia refractory to platelet transfusion,
   thought secondary to portal hypertension, DIC and perhaps ITP.
   24 Hour Events:
   - Transfused 1 u PRBC this am for crit <21%
   -  Per nursing with clots in NG lavage
   - I/O even on CVVH
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   KCl (CRRT) - 3 mEq./hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Other medications:
   ISS (24 hr req ~4 units)
   Epogen 4000u SQ MWF
   Rifaximin 200mg tid
   Flagyl 500mg q12h
   Midodrine 10 tid
   Lansoprazole 30mg qday
   Lactulose 30 tid
   Prednisone 90mg daily
   Albuterol / Atrovent Nebs q6hr
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-19**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.2
   HR: 90 (87 - 103) bpm
   BP: 93/47(65) {65/35(48) - 98/54(71)} mmHg
   RR: 17 (16 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.7 kg (admission): 92 kg
   Height: 62 Inch
   CVP: 9 (5 - 19)mmHg
   Total In:
                                                                  9,366 mL
                                                                  2,654 mL
   PO:
   TF:
                                                                  1,430 mL
                                                                    395 mL
   IVF:
                                                                  7,606 mL
                                                                  2,108 mL
   Blood products:
   Total out:
                                                                  9,377 mL
                                                                  2,756 mL
   Urine:
   NG:
   Stool:
                                                                  2,330 mL
                                                                  1,150 mL
   Drains:
   Balance:
                                                                    -11 mL
                                                                   -102 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.46/30/85.[**Numeric Identifier 126**]/20/0
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: sclera icteric
   Head, Ears, Nose, Throat: Normocephalic
   Distant heart sounds.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.0 g/dL
   10 K/uL
   131 mg/dL
   0.9 mg/dL
   20 mEq/L
   4.0 mEq/L
   13 mg/dL
   106 mEq/L
   138 mEq/L
   20.3 %
   7.5 K/uL
        [image002.jpg]
                             [**2123-12-18**]  03:56 AM
                             [**2123-12-18**]  04:05 AM
                             [**2123-12-18**]  09:25 AM
                             [**2123-12-18**]  09:41 AM
                             [**2123-12-18**]  04:05 PM
                             [**2123-12-18**]  04:24 PM
                             [**2123-12-18**]  10:11 PM
                             [**2123-12-18**]  10:15 PM
                             [**2123-12-19**]  04:04 AM
                             [**2123-12-19**]  04:10 AM
   WBC
   8.0
   7.9
   7.5
   Hct
   22.1
   21.5
   20.3
   Plt
   8
   5
   9
   10
   Cr
   1.0
   0.6
   0.6
   0.6
   0.9
   TCO2
   23
   23
   25
   23
   22
   Glucose
   123
   123
   114
   110
   131
   Other labs: PT / PTT / INR:25.6/54.3/2.5, CK / CKMB / Troponin-T:28//,
   ALT / AST:67/133, Alk Phos / T Bili:89/28.9, Amylase / Lipase:/41,
   Differential-Neuts:79.3 %, Band:0.0 %, Lymph:13.9 %, Mono:4.8 %,
   Eos:1.3 %, Fibrinogen:129 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:2.1
   g/dL, LDH:229 IU/L, Ca++:10.3 mg/dL, Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Critically ill patient with ESLD, thrombocytopenia.
   1. Heme
       a) Thrombocytopenia- likely multifactorial etiology incl DIC, ESLD
   and perhaps ITP. No evidence TTP.
              - Will administer Cryoprecipitate to keep Fibrinogen > 100
              - Change Prednisone to Methylpred equivalent
              - Will avoid further platelet transfusion unless actively
   bleeding
       b) Keep iCa in normal range to help with coagulation
       c) Transfuse PRBC to keep Crit>21%.  Check crit q12hr
   2. GI
        a) Not a liver transplant candidate
        b) Supportive care with Rifaximin and Lactulose.
        c) Start Cipro for SBP prophy (presumed to have varices)
        d) PPI IV bid
        e) Restart with Replete with fiber (d/w nutrition that its low
   protein)
   3. Renal- ARF [**1-3**] to ATN, ? overlap of HRS.
        a) remains anuric
        b) continue CVVH for indication volume overload state. [**Month (only) 51**] need to
   consider transitioning to HD with permacath and pressor support in near
   future if meaningful kidney function not anticipated
        c) TBB goal -500cc
   4. CV
       a) goal MAPs> 50; on midodrine
       b) Can discuss role of albumin
   5. Resp- Remains on RA.
       a) Will need MIE to help with secretions
       b) On bronchodilators
       c) Sit upright.
   6. ID
       a) On Flagyl
   7. Neuro- altered mental status likely secondary to encephalopathy and
   probable ICU delirium.
        a) Lactulose.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2123-12-18**] 10:47 PM 55 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2123-12-3**] 05:45 PM
   Arterial Line - [**2123-12-9**] 05:31 AM
   Dialysis Catheter - [**2123-12-10**] 07:44 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:  35 min

2123-12-20 06:41:00 Physician Resident Progress Note
24 Hour Events:
   -- changed prenisone to solumendrol because of concern that prednisone
   won't be converted as needed by the liver to prednisolone
   -- put her on an IV PPI [**Hospital1 7**] because she had guaiac positive NG
   residuals (that looked grossly clotty)
   -- increased flagyl dosing per pharm recs
   -- gave trazodone 25 mg for delirium/insomnia; didn't have an effect
   -- wrote for a unit of RBCs this morning b/c Hct 19
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2123-12-19**] 12:00 PM
   Metronidazole - [**2123-12-19**] 08:00 PM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 4 mEq./hour
   Other ICU medications:
   Insulin - Regular - [**2123-12-19**] 12:00 PM
   Pantoprazole (Protonix) - [**2123-12-20**] 12:03 AM
   Other medications:
   Flowsheet Data as of  [**2123-12-20**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.8
   HR: 99 (85 - 107) bpm
   BP: 92/51(68) {79/41(57) - 99/53(71)} mmHg
   RR: 22 (15 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.7 kg (admission): 92 kg
   Height: 62 Inch
    CVP: 10 (2 - 11)mmHg
   Total In:
                                                                  8,786 mL
                                                                  2,490 mL
   PO:
   TF:
                                                                  1,230 mL
                                                                    361 mL
   IVF:
                                                                  6,918 mL
                                                                  2,008 mL
   Blood products:
                                                                    278 mL
   Total out:
                                                                  9,299 mL
                                                                  2,619 mL
   Urine:
   NG:
   Stool:
                                                                  3,025 mL
                                                                    220 mL
   Drains:
   Balance:
                                                                   -513 mL
                                                                   -129 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.41/31/91/19/-3
   Physical Examination
   GEN: mental status unchanged
   HEENT: icteric sclerae, bloody excoriations and mucus membranes
   Cor: 2/6 SEM unchanged
   Resp: diffuse scattered rhonchi
   Abd: distended but not tense, + BS
   Ext: 3+ [**Location (un) **], near anasarca
   Neuro: oriented to slef only; slurred speech; moving all limbs; CN II
XII in tact
   Labs / Radiology
   13 K/uL
   6.8 g/dL
   133 mg/dL
   0.6 mg/dL
   19 mEq/L
   4.0 mEq/L
   14 mg/dL
   106 mEq/L
   137 mEq/L
   19.5 %
   8.3 K/uL
        [image002.jpg]
                             [**2123-12-19**]  04:10 AM
                             [**2123-12-19**]  10:04 AM
                             [**2123-12-19**]  10:21 AM
                             [**2123-12-19**]  04:06 PM
                             [**2123-12-19**]  04:31 PM
                             [**2123-12-19**]  05:05 PM
                             [**2123-12-19**]  09:53 PM
                             [**2123-12-19**]  10:08 PM
                             [**2123-12-20**]  03:44 AM
                             [**2123-12-20**]  03:57 AM
   WBC
   8.4
   8.3
   Hct
   21.5
   19.5
   Plt
   7
   13
   Cr
   0.6
   0.9
   0.6
   TCO2
   22
   24
   23
   24
   20
   Glucose
   110
   101
   104
   133
   Other labs: PT / PTT / INR:24.6/51.0/2.4, CK / CKMB / Troponin-T:28//,
   ALT / AST:67/133, Alk Phos / T Bili:89/25.4, Amylase / Lipase:/41,
   Differential-Neuts:79.3 %, Band:0.0 %, Lymph:13.9 %, Mono:4.8 %,
   Eos:1.3 %, Fibrinogen:150 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:2.1
   g/dL, LDH:242 IU/L, Ca++:10.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Imaging: No new imaging
   Microbiology: No new microbiology data
   Assessment and Plan
   45 year old female with EtOH hepatitis/cirrhosis admitted to OSH for
   acute hepatic failure and altered mental status transferred to [**Hospital1 19**]
   with shock, ARDS and ARF, intubated on pressors. Now extubated since
   [**2123-12-4**], but still CVVH dependent, off pressors but still hypotensive
   unless running CVVH positive, and with failing hepatic synthetic
   function incluing worsening thrombocytopenia.
   # Thrombocytopenia: appreciate heme consult, likely multifactorial from
   poor production [**1-3**] ESLD, med effect (esp zosyn & famotidine), and
   possibily consumption/DIC.  Steroid trial is for possible ITP or AIHA.
   -- cont solumedrole IV for ITP; ? slight improvement in plt count
   overnight
   -- f/u add
l heme recs
   -- daily DIC panel (fibrinogen > 100 on [**12-20**], will defer cryo
   transfusion for today)
   -- would not transfuse additional platelets yet, only if evidence of
   worsening bleeding
   -- monitor med list for contributors (off zosyn, only except antibitics
   is flagyl; H2 blocker changed to PPI)
   -- hepatic dysfunction not correctable
   -- lytes per CVVH protocol; will give additional Ca to make sure
   ionized Ca is > 1.12 (i.e., w/in normal) for clotting dysfunction
   # Hypotension: Had septic shock, whose etiology could have included
   prior infections including MSSA bacteremia (OSH culture grew [**11-21**], day
   1 treatment [**11-23**]), E coli UTI (cx grew [**11-21**]), pan-colitis (completing
   a course of flagyl) and dental abscess. All culture data negative at
   [**Hospital1 19**].
   -- to complete flagyl course x 14 days to cover colitis (started [**12-7**];
   should end [**12-20**] in the pm)
   -- tolerate MAPS > 50
   -- remains on midodrine 10 mg TID (maxing out dose)
   -- will try to run even to negative 500 cc as BP tolerates
   # Fever: Resolved, but can be hypothermic on CVVH.  Concern that she
   aspirated [**12-10**] during dialysis line placement or had transient
   bacteremia from pulling the old femoral HD line. Other possible source
   may be either pancolitis versus dental abscesses. Also, have not
   pursued TEE after her positive blood cultures, although TTE was
   negative.  Other sources ruled out: SBP (neg diagnostic para [**2123-12-3**]).
   Lines: CVL changed [**2123-12-3**], a-line pulled [**2123-12-6**] (replaced [**12-7**] and again
   [**12-8**]), and femoral HD line changed [**2123-12-10**]. Sinusists: neg CT. Acalculous
   cholecystits: negative [**Name (NI) 3234**] sono.  Dental c/s could not assess her well
   w/o panorex, recommend removing necrotic teeth by oral-facial maxillary
   surgery; currently too clinically unstable.  Vanzo/zysyn stopped on
   [**12-14**] with no subsequent fevers and stable WBC.
   -- continue flagyl empirically for presumed C diff
   -- all cultures have NGTD
   # Renal failure: Likely ATN in setting of shock.  Persistent anuria/
   oliguria. Appreciate renal assistance. Hope is to wean pressor and then
   transition to HD, though have not been able to maintain MAPs off
   levophed & unlikely to tolerate HD at this point.
   -- unable to get HD due to hypotension
   -- lytes per CVVH protocol; will give additional Ca to make sure
   ionized Ca is > 1.12 (i.e., w/in normal) for clotting dysfunction
   -- hope of renal recovery is slim/none
   -- family meeting held on [**12-17**] to discuss grave prognosis
   # Mental Status: waxing/[**Doctor Last Name 533**]. Will likely be slow to recover however
   given toxic/metabolic derangements, HE, ICU delirium, ?
   schizophrenia/psychosis.  Will defer neuro imaging.
   --  lactulose and rifaximin for hepatic encephalopathy; will increase
   rifaximin dose from 200 mg to 400 mg
   # Anemia: stable.  Has been stable in low to mid-20 over last few days.
   + direct coomb
s test.
   --continue epogen per renal
   -- transfuse to > 21 (ordered for one unit today)
   - maintain active t+c
   - solumedrol for AIA
   # Alcoholic Hepatitis: U/S w/evidence of cirrhosis, portal vein
   thrombus (non-occlusive). Hepatitis serologies negative from [**2123-11-24**].
   Tylenol level negative at OSH. [**Doctor First Name **], anti-mitochondrial ab, Sm ab, RNP
   ab negative at OSH negative.  TBili slowly improving though no
   improvement in synthetic function yet.  Grave prognosis.  TBili has
   been stable in the upper 20
s w/o evidence of improvement in synthetic
   function.
   -- Dailly LFTS, coags, plts
   -- f/u liver recs (nothing new)
   -- cipro 250 mg QD for SBP PPX
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2123-12-20**] 03:44 AM 55 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2123-12-3**] 05:45 PM
   Arterial Line - [**2123-12-9**] 05:31 AM
   Dialysis Catheter - [**2123-12-10**] 07:44 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2123-12-20 12:04:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   45yo with ETOH hepatitis / cirrhosis, admit with MSSA bacteremia,
   sepsis c/b ATN requiring CVVH.  Also with profound thrombocytopenia.
   24 Hour Events:
   - Transfused 1u PRBC for crit ~19%
   - Was TBB -500 yesterday.
   - MAPs 50-60's
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2123-12-19**] 12:00 PM
   Metronidazole - [**2123-12-19**] 08:00 PM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Insulin - Regular - [**2123-12-19**] 12:00 PM
   Pantoprazole (Protonix) - [**2123-12-20**] 12:03 AM
   Other medications:
   Rifaximin 200 tid
   Midodrine 10mg tid
   Lactulose 30 tid
   Albuterol Nebs q6hr
   Atrovent Nebs q6hr
   Flagyl 500mg q12 ([**12-7**]= Day#1)
   Cipro 25omg q24h
   Protonix q12h
   Methylpred 75 IV q24hr
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-20**] 12:04 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.8
   HR: 89 (85 - 107) bpm
   BP: 84/44(59) {76/37(52) - 99/53(71)} mmHg
   RR: 15 (15 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91 kg (admission): 92 kg
   Height: 62 Inch
   CVP: 9 (4 - 12)mmHg
   Total In:
                                                                  8,786 mL
                                                                  4,606 mL
   PO:
   TF:
                                                                  1,230 mL
                                                                    643 mL
   IVF:
                                                                  6,918 mL
                                                                  3,574 mL
   Blood products:
                                                                    278 mL
                                                                    239 mL
   Total out:
                                                                  9,299 mL
                                                                  4,370 mL
   Urine:
   NG:
   Stool:
                                                                  3,025 mL
                                                                    220 mL
   Drains:
   Balance:
                                                                   -513 mL
                                                                    236 mL
   Respiratory support
   O2 Delivery Device: None
   FiO2: RA
   SpO2: 99%
   ABG: 7.39/36/81.[**Numeric Identifier 218**]/20/-2
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: sclera icteric
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   on side)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): name, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   6.8 g/dL
   13 K/uL
   126 mg/dL
   0.6 mg/dL
   20 mEq/L
   4.3 mEq/L
   14 mg/dL
   106 mEq/L
   139 mEq/L
   19.5 %
   8.3 K/uL
        [image002.jpg]
                             [**2123-12-19**]  10:21 AM
                             [**2123-12-19**]  04:06 PM
                             [**2123-12-19**]  04:31 PM
                             [**2123-12-19**]  05:05 PM
                             [**2123-12-19**]  09:53 PM
                             [**2123-12-19**]  10:08 PM
                             [**2123-12-20**]  03:44 AM
                             [**2123-12-20**]  03:57 AM
                             [**2123-12-20**]  10:17 AM
                             [**2123-12-20**]  10:21 AM
   WBC
   8.4
   8.3
   Hct
   21.5
   19.5
   Plt
   7
   13
   Cr
   0.6
   0.9
   0.6
   TCO2
   24
   23
   24
   20
   23
   Glucose
   101
   104
   133
   126
   Other labs: PT / PTT / INR:24.6/51.0/2.4, CK / CKMB / Troponin-T:28//,
   ALT / AST:67/133, Alk Phos / T Bili:89/25.4, Amylase / Lipase:/41,
   Differential-Neuts:79.3 %, Band:0.0 %, Lymph:13.9 %, Mono:4.8 %,
   Eos:1.3 %, Fibrinogen:150 mg/dL, Lactic Acid:2.2 mmol/L, Albumin:2.1
   g/dL, LDH:242 IU/L, Ca++:10.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Imaging: No new imaging
   Microbiology: No new culture data
   Assessment and Plan
   45yo with ESLD, thrombocytopenia
   Heme
    - Thrombocytopenia stable. Etiology likely multifactorial (ESLD, DIC,
   ?ITP).  Continue methylprednisolone for 3-4 days
    - Transfuse PRBC for crit<21
    - Transfuse platelets only if actively bleeding
    - Follow iCa
   Renal
   - Remains anuric
   - Continue CVVH for ATN
   - TBB -1L goal today
   GI
    - Continue supportive care for her liver disease
    - On lactulose.
   - Increase Rifaximin 400mg tid
    - Cipro for SBP prophy
   Pulm
   - Pulmonary toilet
   ID
    - Today is last dose of flagyl for empiric Abx therapy
   CV
   - Hypotension; keep goal MAPs>50. Continue midodrine.
   Endo-
   - On ISS
   ICU
    - Prophy: PPI, SCDs, Chlorhexidine
    - Attempt OOB to chair, PT/OT
    - Full Code
    - Require critical care
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2123-12-20**] 03:44 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2123-12-3**] 05:45 PM
   Arterial Line - [**2123-12-9**] 05:31 AM
   Dialysis Catheter - [**2123-12-10**] 07:44 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 35 min, patient remains critically ill

2123-12-21 07:54:00 Physician Resident Progress Note
Chief Complaint: Renal failure
   Liver failure
   thrombocytopenia
   24 Hour Events:
   - increased rifaxamin to 400 tid
   - transfused 1 unit PRBCs after AM rounds
   - BP held and volume removed by CVVH
   - tolerated ice chips
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2123-12-19**] 12:00 PM
   Metronidazole - [**2123-12-19**] 08:00 PM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2123-12-21**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-21**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.1
C (97
   HR: 93 (80 - 101) bpm
   BP: 77/41(57) {76/37(52) - 102/50(69)} mmHg
   RR: 23 (15 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91 kg (admission): 92 kg
   Height: 62 Inch
    CVP: 7 (7 - 12)mmHg
   Total In:
                                                                  8,783 mL
                                                                  2,839 mL
   PO:
   TF:
                                                                  1,318 mL
                                                                    414 mL
   IVF:
                                                                  6,924 mL
                                                                  2,335 mL
   Blood products:
                                                                    271 mL
   Total out:
                                                                 10,276 mL
                                                                  3,328 mL
   Urine:
   NG:
   Stool:
                                                                  1,720 mL
                                                                    250 mL
   Drains:
   Balance:
                                                                 -1,493 mL
                                                                   -489 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.41/34/77/20/-1
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: icteric sclera
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   13 K/uL
   7.7 g/dL
   131 mg/dL
   0.6 mg/dL
   20 mEq/L
   4.2 mEq/L
   16 mg/dL
   108 mEq/L
   139 mEq/L
   21.7 %
   9.6 K/uL
        [image002.jpg]
                             [**2123-12-20**]  03:44 AM
                             [**2123-12-20**]  03:57 AM
                             [**2123-12-20**]  10:17 AM
                             [**2123-12-20**]  10:21 AM
                             [**2123-12-20**]  04:06 PM
                             [**2123-12-20**]  04:14 PM
                             [**2123-12-20**]  10:08 PM
                             [**2123-12-20**]  10:13 PM
                             [**2123-12-21**]  04:02 AM
                             [**2123-12-21**]  04:14 AM
   WBC
   8.3
   9.6
   Hct
   19.5
   21.1
   21.7
   Plt
   13
   13
   Cr
   0.6
   0.9
   0.9
   0.6
   TCO2
   20
   23
   23
   23
   22
   Glucose
   133
   126
   114
   124
   131
   Other labs: PT / PTT / INR:26.0/47.9/2.6, CK / CKMB / Troponin-T:28//,
   ALT / AST:86/146, Alk Phos / T Bili:82/24.9, Amylase / Lipase:/41,
   Differential-Neuts:80.0 %, Band:2.0 %, Lymph:9.0 %, Mono:8.0 %, Eos:1.0
   %, Fibrinogen:156 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:2.0 g/dL,
   LDH:240 IU/L, Ca++:10.7 mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Imaging: No new imaging
   Microbiology: No new micro data
   Assessment and Plan
   45 year old female with EtOH hepatitis/cirrhosis admitted to OSH for
   acute hepatic failure and altered mental status transferred to [**Hospital1 19**]
   with shock, ARDS and ARF, intubated on pressors. Now extubated since
   [**2123-12-4**], but still CVVH dependent, off pressors, tolerating low BP
   # Thrombocytopenia: appreciate heme consult, likely multifactorial from
   poor production [**1-3**] ESLD, med effect (esp zosyn & famotidine), and
   possibily consumption/DIC.  Steroid trial is for possible ITP or AIHA.
   -- cont solumedrole IV for ITP; ? slight improvement in plt count
   -- f/u add
l heme recs
   -- daily DIC panel (fibrinogen > 100 on [**12-21**], will defer cryo
   transfusion for today)
   -- would not transfuse additional platelets yet, only if evidence of
   worsening bleeding
   -- monitor med list for contributors (off zosyn, only except antibitics
   is flagyl; H2 blocker changed to PPI)
   -- hepatic dysfunction not correctable
   -- lytes per CVVH protocol, including calcium
   # Hypotension: Had septic shock, whose etiology could have included
   prior infections including MSSA bacteremia (OSH culture grew [**11-21**], day
   1 treatment [**11-23**]), E coli UTI (cx grew [**11-21**]), pan-colitis (completing
   a course of flagyl) and dental abscess. All culture data negative at
   [**Hospital1 19**].
   -- completed flagyl course x 14 days to cover colitis (started [**12-7**]-
   [**12-20**])
   -- tolerate MAPS > 50
   -- remains on midodrine 10 mg TID (maxing out dose)
   -- will try to run even to negative as BP tolerates
   # Fever: Resolved, but can be hypothermic on CVVH.  Concern that she
   aspirated [**12-10**] during dialysis line placement or had transient
   bacteremia from pulling the old femoral HD line. Other possible source
   may be either pancolitis versus dental abscesses. Also, have not
   pursued TEE after her positive blood cultures, although TTE was
   negative.  Other sources ruled out: SBP (neg diagnostic para [**2123-12-3**]).
   Lines: CVL changed [**2123-12-3**], a-line pulled [**2123-12-6**] (replaced [**12-7**] and again
   [**12-8**]), and femoral HD line changed [**2123-12-10**]. Sinusists: neg CT. Acalculous
   cholecystits: negative [**Name (NI) 3234**] sono.  Dental c/s could not assess her well
   w/o panorex, recommend removing necrotic teeth by oral-facial maxillary
   surgery; currently too clinically unstable.  Vanzo/zysyn stopped on
   [**12-14**] with no subsequent fevers and stable WBC.
   -- completed course flagyl empirically for presumed C diff
   -- all cultures have NGTD
   # Renal failure: Likely ATN in setting of shock.  Persistent anuria/
   oliguria. Appreciate renal assistance. Now off pressors, tolerating
   some volume removal by CVVH.
   -- ask renal about giving CVVH holiday and possibly attempting HD today
   or tomorrow
   -- lytes per CVVH protocol
   -- hope of renal recovery is slim/none
   -- family meeting held on [**12-17**] to discuss grave prognosis
   # Mental Status: waxing/[**Doctor Last Name 533**]. Will likely be slow to recover however
   given toxic/metabolic derangements, HE, ICU delirium, ?
   schizophrenia/psychosis.  Will defer neuro imaging.
   --  lactulose and rifaximin for hepatic encephalopathy; will increase
   rifaximin dose from 200 mg to 400 mg
   -- speech and swallow eval as MS slightly improved and pt tolerated ice
   chips [**12-20**]
   # Anemia: stable.  Has been stable in low to mid-20 over last few days.
   + direct coomb
s test.
   --continue epogen per renal
   -- transfuse to > 21
   - maintain active t+c
   - solumedrol for AIA
   # Alcoholic Hepatitis: U/S w/evidence of cirrhosis, portal vein
   thrombus (non-occlusive). Hepatitis serologies negative from [**2123-11-24**].
   Tylenol level negative at OSH. [**Doctor First Name **], anti-mitochondrial ab, Sm ab, RNP
   ab negative at OSH negative.  TBili slowly improving though no
   improvement in synthetic function yet.  Grave prognosis.  TBili has
   been stable in the upper 20
s w/o evidence of improvement in synthetic
   function.
   -- Dailly LFTS, coags, plts
   -- f/u liver recs (nothing new)
   -- cipro 250 mg QD for SBP PPX
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2123-12-21**] 07:01 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2123-12-3**] 05:45 PM
   Arterial Line - [**2123-12-9**] 05:31 AM
   Dialysis Catheter - [**2123-12-10**] 07:44 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2123-12-21 10:05:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Has remained off pressors and thus far has been able to be run negative
   over the last 24 hours.
   Started on steroids over the weekend for presumed auto-immune
   thrombocytopenia.  Continued small amount of bleeding, no vigorous
   bleeding.  Received 1 unit PRBC yesterday.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2123-12-19**] 12:00 PM
   Metronidazole - [**2123-12-19**] 08:00 PM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2123-12-21**] 12:00 AM
   Other medications:
   RISS, midodrine, epogen, lactulose, albuterol/atrovent, ciprofloxacin,
   pantoprazole, solumedrol 70mg Q24hr, rifaximin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-21**] 10:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.8
   HR: 98 (80 - 101) bpm
   BP: 78/40(56) {76/40(56) - 102/50(69)} mmHg
   RR: 20 (15 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89 kg (admission): 92 kg
   Height: 62 Inch
   CVP: 8 (7 - 12)mmHg
   Total In:
                                                                  8,783 mL
                                                                  3,708 mL
   PO:
   TF:
                                                                  1,318 mL
                                                                    532 mL
   IVF:
                                                                  6,924 mL
                                                                  3,086 mL
   Blood products:
                                                                    271 mL
   Total out:
                                                                 10,276 mL
                                                                  3,915 mL
   Urine:
   NG:
   Stool:
                                                                  1,720 mL
                                                                    250 mL
   Drains:
   Balance:
                                                                 -1,493 mL
                                                                   -202 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.41/34/77/20/-1
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: Icteric sclera
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed, No(t) Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   13 K/uL
   131 mg/dL
   0.6 mg/dL
   20 mEq/L
   4.2 mEq/L
   16 mg/dL
   108 mEq/L
   139 mEq/L
   21.7 %
   9.6 K/uL
        [image002.jpg]
                             [**2123-12-20**]  03:44 AM
                             [**2123-12-20**]  03:57 AM
                             [**2123-12-20**]  10:17 AM
                             [**2123-12-20**]  10:21 AM
                             [**2123-12-20**]  04:06 PM
                             [**2123-12-20**]  04:14 PM
                             [**2123-12-20**]  10:08 PM
                             [**2123-12-20**]  10:13 PM
                             [**2123-12-21**]  04:02 AM
                             [**2123-12-21**]  04:14 AM
   WBC
   8.3
   9.6
   Hct
   19.5
   21.1
   21.7
   Plt
   13
   13
   Cr
   0.6
   0.9
   0.9
   0.6
   TCO2
   20
   23
   23
   23
   22
   Glucose
   133
   126
   114
   124
   131
   Other labs: PT / PTT / INR:26.0/47.9/2.6, CK / CKMB / Troponin-T:28//,
   ALT / AST:86/146, Alk Phos / T Bili:82/24.9, Amylase / Lipase:/41,
   Differential-Neuts:80.0 %, Band:2.0 %, Lymph:9.0 %, Mono:8.0 %, Eos:1.0
   %, Fibrinogen:156 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:2.0 g/dL,
   LDH:240 IU/L, Ca++:10.7 mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Imaging: No new imaging
   Microbiology: No new micro data
   Assessment and Plan
   45yo with ESLD initially admitted with acute alcoholic hepatitis.
   Course has been complicated by ARF requiring CVVH, respiratory failure
   requiring intubation, and now thrombocytopenia
   Thrombocytopenia:   As previously described, likely multifactorial.
   Currently on steroids for concern for autoimmune thrombocytopenia.
     -Continue methylprednisolone for 3-4 days per heme.  Reserving
   platelet transfusion for vigorous bleeding.
     -Transfuse PRBC for crit<21 although may need to rethink Hct
   threshold to allow HD without pressors. Possibly at 25-27. will recheck
   retic count and smear daily. ? candidacy for IVIG if steroid resistant
   Renal Failure:  Remains anuric.  BP's marginal today after negative
   fluid balance yesterday.
     -Will discuss with renal about possibility of a CVVH holiday and
   attempt at HD in near future . would prefer to have Hct higher prior to
   HD.
   Hypotension: BP's marginal but tolerating fluid removal over the last
   36 hours.  No signs of infection at present
     -Continue midodrine
   Cirrhosis:  Continue lactulose/rifaximin for encephalopathy.  On cipro
   for SBP prophylaxis.
    Pulm:  Status much improved from Friday but still at overall increased
   risk of aspiration.
     -Continue Pulmonary toilet
   GOC:  Will continue ongoing discussions with family.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2123-12-21**] 07:01 AM 55 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2123-12-3**] 05:45 PM
   Arterial Line - [**2123-12-9**] 05:31 AM
   Dialysis Catheter - [**2123-12-10**] 07:44 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2123-12-22 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - had a CVVH holiday, renal planning HD this week if BP tolerates
   - passed S/S eval (?!?) Wrote for a diet but still has her NGT with TFs
   going
   - had a low grade temp to 100.6, sent BCx
   - SBP dropped to 70, responded to 500cc bolus. Of note, NIBP much
   higher than art line
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2123-12-19**] 12:00 PM
   Metronidazole - [**2123-12-19**] 08:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2123-12-22**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-22**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.2
C (98.9
   HR: 94 (85 - 116) bpm
   BP: 88/49(65) {74/35(49) - 98/58(74)} mmHg
   RR: 22 (14 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89 kg (admission): 92 kg
   Height: 62 Inch
    CVP: 16 (1 - 16)mmHg
   Total In:
                                                                  6,110 mL
                                                                    649 mL
   PO:
                                                                    270 mL
   TF:
                                                                  1,320 mL
                                                                    414 mL
   IVF:
                                                                  4,170 mL
                                                                     86 mL
   Blood products:
   Total out:
                                                                  5,402 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    750 mL
   Drains:
   Balance:
                                                                    708 mL
                                                                    649 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: 7.42/32/91/20/-2
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   20 K/uL
   7.3 g/dL
   127 mg/dL
   1.8 mg/dL
   20 mEq/L
   4.8 mEq/L
   37 mg/dL
   108 mEq/L
   138 mEq/L
   21.3 %
   13.2 K/uL
        [image002.jpg]
                             [**2123-12-20**]  10:21 AM
                             [**2123-12-20**]  04:06 PM
                             [**2123-12-20**]  04:14 PM
                             [**2123-12-20**]  10:08 PM
                             [**2123-12-20**]  10:13 PM
                             [**2123-12-21**]  04:02 AM
                             [**2123-12-21**]  04:14 AM
                             [**2123-12-21**]  10:04 AM
                             [**2123-12-21**]  10:22 AM
                             [**2123-12-22**]  04:21 AM
   WBC
   9.6
   13.2
   Hct
   21.1
   21.7
   21.3
   Plt
   13
   20
   Cr
   0.9
   0.9
   0.6
   1.8
   TCO2
   23
   23
   23
   22
   21
   Glucose
   114
   124
   131
   115
   127
   Other labs: PT / PTT / INR:26.9/50.3/2.7, CK / CKMB / Troponin-T:28//,
   ALT / AST:124/223, Alk Phos / T Bili:78/23.7, Amylase / Lipase:/41,
   Differential-Neuts:80.0 %, Band:2.0 %, Lymph:9.0 %, Mono:8.0 %, Eos:1.0
   %, Fibrinogen:156 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:2.0 g/dL,
   LDH:240 IU/L, Ca++:10.1 mg/dL, Mg++:2.3 mg/dL, PO4:3.9 mg/dL
   Imaging: No new imaging
   Microbiology: [**2123-12-21**] Bcx x 1: NGTD
   Assessment and Plan
   45 year old female with EtOH hepatitis/cirrhosis admitted to OSH for
   acute hepatic failure and altered mental status transferred to [**Hospital1 19**]
   with shock, ARDS and ARF, intubated on pressors. Now extubated since
   [**2123-12-4**], but still CVVH dependent, off pressors, tolerating low BP
   # Thrombocytopenia: appreciate heme consult, likely multifactorial from
   poor production [**1-3**] ESLD, med effect (esp zosyn & famotidine), and
   possibily consumption/DIC.  Steroid trial is for possible ITP or AIHA.
   -- cont solumedrole IV for ITP; ? slight improvement in plt count
   -- f/u add
l heme recs
   -- daily DIC panel (fibrinogen > 100 on [**12-21**], will defer cryo
   transfusion for today)
   -- would not transfuse additional platelets yet, only if evidence of
   worsening bleeding
   -- monitor med list for contributors (off zosyn, only except antibitics
   is flagyl; H2 blocker changed to PPI)
   -- hepatic dysfunction not correctable
   -- lytes per CVVH protocol, including calcium
   # Hypotension: Had septic shock, whose etiology could have included
   prior infections including MSSA bacteremia (OSH culture grew [**11-21**], day
   1 treatment [**11-23**]), E coli UTI (cx grew [**11-21**]), pan-colitis (completing
   a course of flagyl) and dental abscess. All culture data negative at
   [**Hospital1 19**].
   -- completed flagyl course x 14 days to cover colitis (started [**12-7**]-
   [**12-20**])
   -- tolerate MAPS > 50
   -- remains on midodrine 10 mg TID (maxing out dose)
   -- will try to run even to negative as BP tolerates
   # Fever: Resolved, but can be hypothermic on CVVH.  Concern that she
   aspirated [**12-10**] during dialysis line placement or had transient
   bacteremia from pulling the old femoral HD line. Other possible source
   may be either pancolitis versus dental abscesses. Also, have not
   pursued TEE after her positive blood cultures, although TTE was
   negative.  Other sources ruled out: SBP (neg diagnostic para [**2123-12-3**]).
   Lines: CVL changed [**2123-12-3**], a-line pulled [**2123-12-6**] (replaced [**12-7**] and again
   [**12-8**]), and femoral HD line changed [**2123-12-10**]. Sinusists: neg CT. Acalculous
   cholecystits: negative [**Name (NI) 3234**] sono.  Dental c/s could not assess her well
   w/o panorex, recommend removing necrotic teeth by oral-facial maxillary
   surgery; currently too clinically unstable.  Vanzo/zysyn stopped on
   [**12-14**] with no subsequent fevers and stable WBC.
   -- completed course flagyl empirically for presumed C diff
   -- all cultures have NGTD
   # Renal failure: Likely ATN in setting of shock.  Persistent anuria/
   oliguria. Appreciate renal assistance. Now off pressors, tolerating
   some volume removal by CVVH.
   -- ask renal about giving CVVH holiday and possibly attempting HD today
   or tomorrow
   -- lytes per CVVH protocol
   -- hope of renal recovery is slim/none
   -- family meeting held on [**12-17**] to discuss grave prognosis
   # Mental Status: waxing/[**Doctor Last Name 533**]. Will likely be slow to recover however
   given toxic/metabolic derangements, HE, ICU delirium, ?
   schizophrenia/psychosis.  Will defer neuro imaging.
   --  lactulose and rifaximin for hepatic encephalopathy; will increase
   rifaximin dose from 200 mg to 400 mg
   -- speech and swallow eval as MS slightly improved and pt tolerated ice
   chips [**12-20**]
   # Anemia: stable.  Has been stable in low to mid-20 over last few days.
   + direct coomb
s test.
   --continue epogen per renal
   -- transfuse to > 21
   - maintain active t+c
   - solumedrol for AIA
   # Alcoholic Hepatitis: U/S w/evidence of cirrhosis, portal vein
   thrombus (non-occlusive). Hepatitis serologies negative from [**2123-11-24**].
   Tylenol level negative at OSH. [**Doctor First Name **], anti-mitochondrial ab, Sm ab, RNP
   ab negative at OSH negative.  TBili slowly improving though no
   improvement in synthetic function yet.  Grave prognosis.  TBili has
   been stable in the upper 20
s w/o evidence of improvement in synthetic
   function.
   -- Dailly LFTS, coags, plts
   -- f/u liver recs (nothing new)
   -- cipro 250 mg QD for SBP PPX
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2123-12-21**] 07:01 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2123-12-3**] 05:45 PM
   Arterial Line - [**2123-12-9**] 05:31 AM
   Dialysis Catheter - [**2123-12-10**] 07:44 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2123-12-22**] 01:13 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2123-12-3**] 05:45 PM
   Arterial Line - [**2123-12-9**] 05:31 AM
   Dialysis Catheter - [**2123-12-10**] 07:44 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2123-12-22 11:18:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   CVVH stopped yesterday with plans for possible HD later this week.
   Passed Swallow evaluation, ate breakfast this AM.
   Low grade temperature, blood cultures sent.
                   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2123-12-19**] 12:00 PM
   Metronidazole - [**2123-12-19**] 08:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2123-12-22**] 12:00 AM
   Other medications:
   RISS, rifaximin, epogen, midodrine, lactulose, methylprednisolone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-22**] 11:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.4
C (97.6
   HR: 95 (85 - 116) bpm
   BP: 83/43(59) {74/35(49) - 98/58(74)} mmHg
   RR: 21 (14 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89 kg (admission): 92 kg
   Height: 62 Inch
   CVP: 13 (1 - 16)mmHg
   Total In:
                                                                  6,110 mL
                                                                  1,122 mL
   PO:
                                                                    270 mL
                                                                    250 mL
   TF:
                                                                  1,320 mL
                                                                    602 mL
   IVF:
                                                                  4,170 mL
                                                                    120 mL
   Blood products:
   Total out:
                                                                  5,402 mL
                                                                    400 mL
   Urine:
   NG:
   Stool:
                                                                    750 mL
                                                                    400 mL
   Drains:
   Balance:
                                                                    708 mL
                                                                    722 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, Icteric sclera
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): self, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   7.3 g/dL
   20 K/uL
   127 mg/dL
   1.8 mg/dL
   20 mEq/L
   4.8 mEq/L
   37 mg/dL
   108 mEq/L
   138 mEq/L
   21.3 %
   13.2 K/uL
        [image002.jpg]
                             [**2123-12-20**]  10:21 AM
                             [**2123-12-20**]  04:06 PM
                             [**2123-12-20**]  04:14 PM
                             [**2123-12-20**]  10:08 PM
                             [**2123-12-20**]  10:13 PM
                             [**2123-12-21**]  04:02 AM
                             [**2123-12-21**]  04:14 AM
                             [**2123-12-21**]  10:04 AM
                             [**2123-12-21**]  10:22 AM
                             [**2123-12-22**]  04:21 AM
   WBC
   9.6
   13.2
   Hct
   21.1
   21.7
   21.3
   Plt
   13
   20
   Cr
   0.9
   0.9
   0.6
   1.8
   TCO2
   23
   23
   23
   22
   21
   Glucose
   114
   124
   131
   115
   127
   Other labs: PT / PTT / INR:26.9/50.3/2.7, CK / CKMB / Troponin-T:28//,
   ALT / AST:124/223, Alk Phos / T Bili:78/23.7, Amylase / Lipase:/41,
   Differential-Neuts:80.0 %, Band:2.0 %, Lymph:9.0 %, Mono:8.0 %, Eos:1.0
   %, Fibrinogen:156 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:2.0 g/dL,
   LDH:240 IU/L, Ca++:10.1 mg/dL, Mg++:2.3 mg/dL, PO4:3.9 mg/dL
   Imaging: No new imaging.
   Microbiology: BCx: Pending
   Assessment and Plan
   45yo with ESLD initially admitted with acute alcoholic hepatitis.
   Course has been complicated by ARF requiring CVVH, respiratory failure
   requiring intubation, and now thrombocytopenia
   Thrombocytopenia:   As previously described, likely multifactorial.
   Currently on steroids for concern for autoimmune thrombocytopenia.
   Platelets trending up today.
     -Continue methylprednisolone for now.  Reserving platelet transfusion
   for vigorous bleeding.
     -Transfuse PRBC today in an attempt to bolster hemodynamics. Will
   recheck retic count and smear daily. ? candidacy for IVIG if steroid
   resistant
    Renal Failure:  Remains anuric.  BP's marginal today after negative
   fluid balance yesterday.  CVVH on hold for now
      -Assess hemodynamics and lytes daily and discuss with renal re:
   timing of HD trial.
   Leukocytosis:  Possibly related to steroids but also had a low grade
   temp overnight.
     -Continue to monitor
     -Culture is spikes. High risk for fungal sepsis
   Hypotension: BP's marginal, as above will monitor to determine if/when
   she can tolerate an HD trial.
     -Continue midodrine
   Cirrhosis:  Continue lactulose/rifaximin for encephalopathy.  On cipro
   for SBP prophylaxis.
   Pulm:  Status much improved from Friday but still at overall increased
   risk of aspiration.
     -Continue Pulmonary toilet
   FEN:  If tolerates feeding, will remove NGT.
   GOC:  Will continue ongoing discussions with family.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2123-12-22**] 10:21 AM 55 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2123-12-3**] 05:45 PM. Will swtitch to PICC in am [**12-23**]
   Arterial Line - [**2123-12-9**] 05:31 AM
   Dialysis Catheter - [**2123-12-10**] 07:44 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2123-12-23 08:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Tolerated HD without any fluid removed
   Up in chair
   Tolerating diet
   Got 2 units PRBCs [**12-22**] to boost intravascular volume
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2123-12-23**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-23**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.3
C (97.4
   HR: 96 (87 - 105) bpm
   BP: 81/44(60) {72/39(54) - 120/69(89)} mmHg
   RR: 20 (16 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89 kg (admission): 92 kg
   Height: 62 Inch
    CVP: 4 (1 - 14)mmHg
   Total In:
                                                                  2,500 mL
                                                                    250 mL
   PO:
                                                                    920 mL
                                                                    250 mL
   TF:
                                                                    657 mL
   IVF:
                                                                    121 mL
   Blood products:
                                                                    562 mL
   Total out:
                                                                  1,250 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                  1,250 mL
   Drains:
   Balance:
                                                                  1,250 mL
                                                                    250 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly, Diminished: At
   bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   33 K/uL
   9.6 g/dL
   126 mg/dL
   1.8 mg/dL
   22 mEq/L
   4.1 mEq/L
   47 mg/dL
   107 mEq/L
   140 mEq/L
   26.9 %
   16.9 K/uL
        [image002.jpg]
                             [**2123-12-20**]  04:14 PM
                             [**2123-12-20**]  10:08 PM
                             [**2123-12-20**]  10:13 PM
                             [**2123-12-21**]  04:02 AM
                             [**2123-12-21**]  04:14 AM
                             [**2123-12-21**]  10:04 AM
                             [**2123-12-21**]  10:22 AM
                             [**2123-12-22**]  04:21 AM
                             [**2123-12-22**]  05:24 PM
                             [**2123-12-23**]  05:16 AM
   WBC
   9.6
   13.2
   16.3
   16.9
   Hct
   21.7
   21.3
   24.5
   26.9
   Plt
   13
   20
   25
   33
   Cr
   0.9
   0.6
   1.8
   1.8
   TCO2
   23
   23
   22
   21
   Glucose
   124
   131
   115
   127
   126
   Other labs: PT / PTT / INR:27.3/49.5/2.7, CK / CKMB / Troponin-T:28//,
   ALT / AST:146/203, Alk Phos / T Bili:87/27.2, Amylase / Lipase:/41,
   Differential-Neuts:82.0 %, Band:2.0 %, Lymph:5.0 %, Mono:7.0 %, Eos:0.0
   %, Fibrinogen:156 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:2.0 g/dL,
   LDH:240 IU/L, Ca++:9.4 mg/dL, Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Imaging: No new imaging
   Microbiology: Blood cx [**12-21**]: NGTD
   Otherwise, no new data
   Assessment and Plan
   45 year old female with EtOH hepatitis/cirrhosis admitted to OSH for
   acute hepatic failure and altered mental status transferred to [**Hospital1 19**]
   with shock, ARDS and ARF, intubated on pressors. Now extubated since
   [**2123-12-4**], but still CVVH dependent, off pressors, tolerating low BP
   # Thrombocytopenia: appreciate heme consult, likely multifactorial from
   poor production [**1-3**] ESLD, med effect (esp zosyn & famotidine), and
   possibily consumption/DIC.  Steroid trial is for possible ITP or AIHA.
   -- cont solumedrol IV for ITP; continues to improve slightly each day,
   so will plan to continue for now
   -- f/u add
l heme recs; will check retic count
   -- would not transfuse additional platelets yet, only if evidence of
   worsening bleeding
   -- monitor med list for contributors (off zosyn, only except antibitics
   is flagyl; H2 blocker changed to PPI)
   -- hepatic dysfunction not correctable
   # Hypotension: has been improved; remains on midodrine; holding CVVH to
   try to work towards tolerating HD
   -- tolerate MAPS > 50
   -- remains on midodrine 10 mg TID (maxing out dose)
   # Fever: no further fever, despite being on solumedrol and off
   antibiotics
   -- cont to follow; no need for empiric abx currently
   # Renal failure: still anuric; holding CVVH in an attempt to raise
   volume balance and attempt HD
   -- tolerated HD [**12-22**] without any volume removal
   -- wiill need to try to remove volume next attempt (likely [**12-24**])
   # Mental Status: waxing/[**Doctor Last Name 533**]. Will likely be slow to recover however
   given toxic/metabolic derangements, HE, ICU delirium, ?
   schizophrenia/psychosis.  Will defer neuro imaging.
   --  lactulose and rifaximin for hepatic encephalopathy;
   -- improving slowly, tolerating diet w/o difficulty
   # Anemia: stable.  Has been stable in low to mid-20 over last few days.
   + direct coomb
s test.
   -- continue epogen per renal
   -- transfused two units RBC on [**2123-12-22**]  to increase oncotic pressure in
   hopes of tolerating HD
   --  maintain active t+s
   -- solumedrol for ? autoimmune hemolytic anmia
   # Alcoholic Hepatitis: U/S w/evidence of cirrhosis, portal vein
   thrombus (non-occlusive). Hepatitis serologies negative from [**2123-11-24**].
   Tylenol level negative at OSH. [**Doctor First Name **], anti-mitochondrial ab, Sm ab, RNP
   ab negative at OSH negative.  TBili stable in mid 20s, and no
   improvement in synthetic function yet.  Grave prognosis.
   -- Dailly LFTS, coags, plts
   -- f/u liver recs (nothing new)
   -- cipro 250 mg QD for SBP PPX
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2123-12-3**] 05:45 PM
   Arterial Line - [**2123-12-9**] 05:31 AM
   Dialysis Catheter - [**2123-12-10**] 07:44 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU, being screened for rehab

2123-12-23 11:10:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Tolerated HD yesterday (no volume taken off)
   2 unit PRBC transfusion with appropriate response
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2123-12-23**] 12:00 AM
   Other medications:
   RISS, midodrine, Ciprofloxacin, solumedrol, rifaximin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-23**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 102 (87 - 105) bpm
   BP: 89/52(68) {72/39(54) - 120/69(89)} mmHg
   RR: 25 (16 - 29) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 88.5 kg (admission): 92 kg
   Height: 62 Inch
   CVP: 5 (1 - 14)mmHg
   Total In:
                                                                  2,500 mL
                                                                    750 mL
   PO:
                                                                    920 mL
                                                                    750 mL
   TF:
                                                                    657 mL
   IVF:
                                                                    121 mL
   Blood products:
                                                                    562 mL
   Total out:
                                                                  1,250 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                  1,250 mL
   Drains:
   Balance:
                                                                  1,250 mL
                                                                    750 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: Icteric sclera
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: bibasilar,
   Rhonchorous: B/L)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed, No(t) Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   33 K/uL
   126 mg/dL
   1.8 mg/dL
   22 mEq/L
   4.1 mEq/L
   47 mg/dL
   107 mEq/L
   140 mEq/L
   26.9 %
   16.9 K/uL
        [image002.jpg]
                             [**2123-12-20**]  04:14 PM
                             [**2123-12-20**]  10:08 PM
                             [**2123-12-20**]  10:13 PM
                             [**2123-12-21**]  04:02 AM
                             [**2123-12-21**]  04:14 AM
                             [**2123-12-21**]  10:04 AM
                             [**2123-12-21**]  10:22 AM
                             [**2123-12-22**]  04:21 AM
                             [**2123-12-22**]  05:24 PM
                             [**2123-12-23**]  05:16 AM
   WBC
   9.6
   13.2
   16.3
   16.9
   Hct
   21.7
   21.3
   24.5
   26.9
   Plt
   13
   20
   25
   33
   Cr
   0.9
   0.6
   1.8
   1.8
   TCO2
   23
   23
   22
   21
   Glucose
   124
   131
   115
   127
   126
   Other labs: PT / PTT / INR:27.3/49.5/2.7, CK / CKMB / Troponin-T:28//,
   ALT / AST:146/203, Alk Phos / T Bili:87/27.2, Amylase / Lipase:/41,
   Differential-Neuts:82.0 %, Band:2.0 %, Lymph:5.0 %, Mono:7.0 %, Eos:0.0
   %, Fibrinogen:156 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:2.0 g/dL,
   LDH:240 IU/L, Ca++:9.4 mg/dL, Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Microbiology: BCx:  NGTD
   Assessment and Plan
   45yo with ESLD initially admitted with acute alcoholic hepatitis.
   Course has been complicated by ARF requiring CVVH, respiratory failure
   requiring intubation, and now thrombocytopenia
   Thrombocytopenia:   As previously described, likely multifactorial.
   Currently on steroids for concern for autoimmune thrombocytopenia.
   Platelets continue to trend up today.
     -Continue methylprednisolone for now.  Reserving platelet transfusion
   for vigorous bleeding.  When platelets above 50k will transition to
   prednisone
    Renal Failure:  Remains anuric.  Tolerated HD yesterday although no
   volume removed.
     -Plan for HD attempt tomorrow with small voume removal.
    Leukocytosis:  Possibly related to steroids but also had a low grade
   temp 2 nights ago.
     -Continue to monitor
     -Culture if spikes. High risk for fungal sepsis
     -Will try to place peripherals or PICC in attempt to remove CVC.
    Hypotension: Tolerated HD yesterday.
     -Continue midodrine
    Cirrhosis:  Continue lactulose/rifaximin for encephalopathy.  On cipro
   for SBP prophylaxis.
    Pulm:  Status much improved from Friday but still at overall increased
   risk of aspiration.
     -Continue Pulmonary toilet
    FEN:  Regular diet
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2123-12-3**] 05:45 PM
   Arterial Line - [**2123-12-9**] 05:31 AM
   Dialysis Catheter - [**2123-12-10**] 07:44 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2123-12-24 07:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - up in chair again
   - CVL d/c
   - PICC line attempted but unsuccessful at bedside; ordered for IR
   guided placement
   - increased Epogen
   - renal will attempt HD with small amount of volume removal tomorrow
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2123-12-23**] 11:51 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2123-12-23**] 11:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-24**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.2
C (97.1
   HR: 98 (85 - 104) bpm
   BP: 100/60(76) {83/41(60) - 133/80(101)} mmHg
   RR: 24 (18 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.5 kg (admission): 92 kg
   Height: 62 Inch
    CVP: -2 (-2 - 8)mmHg
   Total In:
                                                                  1,540 mL
                                                                    270 mL
   PO:
                                                                  1,480 mL
                                                                    240 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    400 mL
                                                                    400 mL
   Urine:
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  1,140 mL
                                                                   -130 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: icteric sclerae
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: bilaterally)
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   52 K/uL
   9.4 g/dL
   110 mg/dL
   3.0 mg/dL
   21 mEq/L
   4.1 mEq/L
   75 mg/dL
   109 mEq/L
   142 mEq/L
   26.5 %
   16.9 K/uL
        [image002.jpg]
                             [**2123-12-20**]  10:08 PM
                             [**2123-12-20**]  10:13 PM
                             [**2123-12-21**]  04:02 AM
                             [**2123-12-21**]  04:14 AM
                             [**2123-12-21**]  10:04 AM
                             [**2123-12-21**]  10:22 AM
                             [**2123-12-22**]  04:21 AM
                             [**2123-12-22**]  05:24 PM
                             [**2123-12-23**]  05:16 AM
                             [**2123-12-24**]  04:13 AM
   WBC
   9.6
   13.2
   16.3
   16.9
   16.9
   Hct
   21.7
   21.3
   24.5
   26.9
   26.5
   Plt
   13
   20
   25
   33
   52
   Cr
   0.9
   0.6
   1.8
   1.8
   3.0
   TCO2
   23
   22
   21
   Glucose
   124
   131
   115
   127
   126
   110
   Other labs: PT / PTT / INR:26.3/46.8/2.6, CK / CKMB / Troponin-T:28//,
   ALT / AST:176/236, Alk Phos / T Bili:87/26.9, Amylase / Lipase:/41,
   Differential-Neuts:82.0 %, Band:2.0 %, Lymph:5.0 %, Mono:7.0 %, Eos:0.0
   %, Fibrinogen:156 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:2.0 g/dL,
   LDH:240 IU/L, Ca++:9.4 mg/dL, Mg++:2.5 mg/dL, PO4:5.1 mg/dL
   Imaging: No new imaging
   Microbiology: CVL tip - no growth to date
   Assessment and Plan
   45 year old female with EtOH hepatitis/cirrhosis admitted to OSH for
   acute hepatic failure and altered mental status transferred to [**Hospital1 19**]
   with shock, ARDS and ARF, intubated on pressors. Now extubated since
   [**2123-12-4**], but still CVVH dependent, off pressors, tolerating low BP
   # Thrombocytopenia: appreciate heme consult, likely multifactorial from
   poor production [**1-3**] ESLD, med effect (esp zosyn & famotidine), and
   possibily consumption/DIC.  Steroid trial is for possible ITP or AIHA.
   -- cont solumedrol IV for ITP; continues to improve slightly each day,
   so will plan to continue for now
   -- f/u add
l heme recs; will check retic count
   -- would not transfuse additional platelets yet, only if evidence of
   worsening bleeding
   -- monitor med list for contributors (off zosyn, only except antibitics
   is flagyl; H2 blocker changed to PPI)
   -- hepatic dysfunction not correctable
   # Hypotension: has been improved; remains on midodrine; tolerated HD
   w/o vol removal [**12-22**]
   -- tolerate MAPS > 50
   -- remains on midodrine 10 mg TID (maxing out dose)
   # Fever: no further fever, despite being on solumedrol and off
   antibiotics
   -- cont to follow; no need for empiric abx currently
   # Renal failure: still anuric; holding CVVH in an attempt to raise
   volume balance and attempt HD
   -- tolerated HD [**12-22**] without any volume removal
   -- wiill need to try to remove volume next attempt ( today)
   # Mental Status: waxing/[**Doctor Last Name 533**]. Will likely be slow to recover however
   given toxic/metabolic derangements, HE, ICU delirium, ?
   schizophrenia/psychosis.  Will defer neuro imaging.
   --  lactulose and rifaximin for hepatic encephalopathy;
   -- improving slowly, tolerating diet w/o difficulty
   # Anemia: stable.  Has been stable in low to mid-20 over last few days.
   + direct coomb
s test.
   -- increased epogen dose 1/22
   -- transfused two units RBC on [**2123-12-22**]  to increase oncotic pressure in
   hopes of tolerating HD
   --  maintain active t+s
   -- solumedrol for ? autoimmune hemolytic anmia
   # Alcoholic Hepatitis: U/S w/evidence of cirrhosis, portal vein
   thrombus (non-occlusive). Hepatitis serologies negative from [**2123-11-24**].
   Tylenol level negative at OSH. [**Doctor First Name **], anti-mitochondrial ab, Sm ab, RNP
   ab negative at OSH negative.  TBili stable in mid 20s, and no
   improvement in synthetic function yet.  Grave prognosis.
   -- Dailly LFTS, coags, plts
   -- f/u liver recs (nothing new)
   -- cipro 250 mg QD for SBP PPX
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2123-12-9**] 05:31 AM
   Dialysis Catheter - [**2123-12-10**] 07:44 PM
   20 Gauge - [**2123-12-23**] 12:33 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2123-12-24 11:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   CVC pulled, bedside PICC attempted unsuccesfully.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2123-12-23**] 11:51 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2123-12-23**] 11:52 AM
   Other medications:
   RISS, midodrine, solumedrol, rifaximin, epogen, lactulose
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-24**] 11:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.8
C (96.5
   HR: 97 (85 - 103) bpm
   BP: 105/62(81) {83/41(60) - 133/80(101)} mmHg
   RR: 24 (18 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.5 kg (admission): 92 kg
   Height: 62 Inch
   CVP: -2 (-2 - 5)mmHg
   Total In:
                                                                  1,540 mL
                                                                    630 mL
   PO:
                                                                  1,480 mL
                                                                    600 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    400 mL
                                                                    400 mL
   Urine:
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  1,140 mL
                                                                    230 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   General Appearance: No acute distress, sitting in chair
   Eyes / Conjunctiva: PERRL, Icteric sclera
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: B/L)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed, No(t) Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   52 K/uL
   110 mg/dL
   3.0 mg/dL
   21 mEq/L
   4.1 mEq/L
   75 mg/dL
   109 mEq/L
   142 mEq/L
   26.5 %
   16.9 K/uL
        [image002.jpg]
                             [**2123-12-20**]  10:08 PM
                             [**2123-12-20**]  10:13 PM
                             [**2123-12-21**]  04:02 AM
                             [**2123-12-21**]  04:14 AM
                             [**2123-12-21**]  10:04 AM
                             [**2123-12-21**]  10:22 AM
                             [**2123-12-22**]  04:21 AM
                             [**2123-12-22**]  05:24 PM
                             [**2123-12-23**]  05:16 AM
                             [**2123-12-24**]  04:13 AM
   WBC
   9.6
   13.2
   16.3
   16.9
   16.9
   Hct
   21.7
   21.3
   24.5
   26.9
   26.5
   Plt
   13
   20
   25
   33
   52
   Cr
   0.9
   0.6
   1.8
   1.8
   3.0
   TCO2
   23
   22
   21
   Glucose
   124
   131
   115
   127
   126
   110
   Other labs: PT / PTT / INR:26.3/46.8/2.6, CK / CKMB / Troponin-T:28//,
   ALT / AST:176/236, Alk Phos / T Bili:87/26.9, Amylase / Lipase:/41,
   Differential-Neuts:82.0 %, Band:2.0 %, Lymph:5.0 %, Mono:7.0 %, Eos:0.0
   %, Fibrinogen:156 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:2.0 g/dL,
   LDH:240 IU/L, Ca++:9.4 mg/dL, Mg++:2.5 mg/dL, PO4:5.1 mg/dL
   Imaging: No new imaging
   Microbiology: Catheter tip:  NGTD
   Assessment and Plan
   45yo with ESLD initially admitted with acute alcoholic hepatitis.
   Course has been complicated by ARF requiring CVVH, respiratory failure
   requiring intubation, and now thrombocytopenia
   Thrombocytopenia:   As previously described, likely multifactorial.
   Currently on steroids for concern for autoimmune thrombocytopenia.
   Platelets continue to trend up today.
     -Will change steroids to prednisone 60mg daily today and taper ( ?
   steroids contributing to delirium)
    Renal Failure:  Remains anuric.  Tolerated HD Wednesday although no
   volume removed.
     -Plan for HD attempt today with voume removal.
    Leukocytosis:  Possibly related to steroids but also had a low grade
   temp 3 nights ago.
     -Continue to monitor
     -Culture if spikes. High risk for fungal sepsis
     -Check CXR today
     -CVC now out, will try to have IR guided PICC placed today.
    Hypotension: BP the best it has been today.
     -Continue midodrine. PICC line today for pressor need with HD
    Cirrhosis:  Continue lactulose/rifaximin for encephalopathy.  On cipro
   for SBP prophylaxis. Mental status better but still intermittent
   disorientation
    Pulm:  Status much improved from Friday but still at overall increased
   risk of aspiration.
     -Continue Pulmonary toilet
     -CXR does not features of PNA or atelectasis
    FEN:  Regular diet
   Dispo:  If tolerates HD with fluid removal, will consider floor
   transfer tomorrow.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2123-12-9**] 05:31 AM
   Dialysis Catheter - [**2123-12-10**] 07:44 PM
   20 Gauge - [**2123-12-23**] 12:33 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU till HD occurs without pressor need
   Total time spent: 30 minutes

2123-12-25 07:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- no events
   -- didn't get HD b/c renal was too busy, didn't get PICC b/c IR was too
   busy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2123-12-23**] 11:51 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Prednisone 60 mg QD
   Flowsheet Data as of  [**2123-12-25**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.3
C (97.4
   HR: 91 (83 - 97) bpm
   BP: 109/61(81) {97/54(73) - 128/73(95)} mmHg
   RR: 16 (16 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.5 kg (admission): 92 kg
   Height: 62 Inch
                  Total In:
                                                                  1,070 mL
                                                                    240 mL
   PO:
                                                                  1,040 mL
                                                                    240 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    850 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    450 mL
   Drains:
   Balance:
                                                                    220 mL
                                                                    240 mL
   Respiratory support
   SpO2: 100%
   ABG: ///17/
   Physical Examination
   GEN: mental status unchanged
   HEENT: icteric sclerae, bloody excoriations and mucus membranes
   Cor: 2/6 SEM unchanged
   Resp: diffuse scattered rhonchi
   Abd: distended but not tense, + BS
   Ext: 3+ [**Location (un) **], near anasarca
   Neuro: oriented to self only; slurred speech; moving all limbs; CN II
XII in tact
   Labs / Radiology
   65 K/uL
   9.5 g/dL
   108 mg/dL
   3.8 mg/dL
   17 mEq/L
   4.6 mEq/L
   95 mg/dL
   110 mEq/L
   143 mEq/L
   26.7 %
   13.4 K/uL
        [image002.jpg]
                             [**2123-12-20**]  10:13 PM
                             [**2123-12-21**]  04:02 AM
                             [**2123-12-21**]  04:14 AM
                             [**2123-12-21**]  10:04 AM
                             [**2123-12-21**]  10:22 AM
                             [**2123-12-22**]  04:21 AM
                             [**2123-12-22**]  05:24 PM
                             [**2123-12-23**]  05:16 AM
                             [**2123-12-24**]  04:13 AM
                             [**2123-12-25**]  03:40 AM
   WBC
   9.6
   13.2
   16.3
   16.9
   16.9
   13.4
   Hct
   21.7
   21.3
   24.5
   26.9
   26.5
   26.7
   Plt
   13
   20
   25
   33
   52
   65
   Cr
   0.6
   1.8
   1.8
   3.0
   3.8
   TCO2
   23
   22
   21
   Glucose
   131
   115
   127
   126
   110
   108
   Other labs: PT / PTT / INR:25.9/48.4/2.6, CK / CKMB / Troponin-T:28//,
   ALT / AST:214/272, Alk Phos / T Bili:87/29.0, Amylase / Lipase:/41,
   Fibrinogen:156 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:2.0 g/dL, LDH:240
   IU/L, Ca++:9.3 mg/dL, Mg++:2.8 mg/dL, PO4:6.8 mg/dL
   Imaging: No new imaging
   Microbiology: No new microbiology data
   Assessment and Plan
   45 year old female with EtOH hepatitis/cirrhosis admitted to OSH for
   acute hepatic failure and altered mental status transferred to [**Hospital1 19**]
   with shock, ARDS and ARF, intubated on pressors. Now extubated since
   [**2123-12-4**], but still CVVH dependent, off pressors, tolerating low BP.
   # Thrombocytopenia: appreciate heme consult, likely multifactorial from
   poor production [**1-3**] ESLD, med effect (esp zosyn & famotidine), and
   possibily consumption/DIC.  Steroid trial is for possible ITP or AIHA;
   plt count has been improving on steroids.  No evidence of bleeding.
   -- hepatic dysfunction not correctable
   -- changed solumedrol to prednisone 60 mg QD on [**12-24**]; slow taper over
   weeks
   -- heme still following; no new recs
   # Hypotension: has been improved; remains on midodrine; tolerated HD
   w/o vol removal [**12-22**].  Will attempt HD again today with volume removal.
   -- tolerate MAPS > 50
   -- remains on midodrine 10 mg TID (maxing out dose)
 may try to taper
   later in week pending she tolerates HD hemodynamically.
   # Fever: no further fever, despite being on steroids and off
   antibiotics.
   -- cont to follow; no need for empiric abx currently as no evidence of
   infection
   # Renal failure: still anuric; tolerated HD w/o vol removal [**12-22**].  Will
   attempt HD again today with volume removal.
   -- getting epo at HD; starting renagel today per renal recs
   -- has temp HD line that was placed on [**12-10**]; will need to plan for
   tunneled catheter placement by IR
   # Mental Status: waxing/[**Doctor Last Name 533**], perseveration; but overall improving
   daily. Will likely be slow to recover however given toxic/metabolic
   derangements, HE, ICU delirium.
   --  lactulose and rifaximin for hepatic encephalopathy
   # Anemia: stable.  Has been stable in mid-20 over last few days. +
   Direct coomb
s test from last week.   Transfused two units RBC on
   [**2123-12-22**]  to increase oncotic pressure in hopes of tolerating HD; has
   been stable since transfuysion.
   -- increased epogen dose 1/22
   --  maintain active t+s
   -- on prednisone 60 mg QD
   # Alcoholic Hepatitis: U/S w/evidence of cirrhosis, portal vein
   thrombus (non-occlusive). Hepatitis serologies negative from [**2123-11-24**].
   Tylenol level negative at OSH. [**Doctor First Name **], anti-mitochondrial ab, Sm ab, RNP
   ab negative at OSH negative.  TBili stable in mid to upper 20s, and no
   improvement in synthetic function yet.  Grave prognosis in
   longer-term.
   -- No need for daily LFT
s as have been stable, not changing
   management.
   -- f/u liver recs (nothing new in recent days)
   -- cipro 250 mg QD for SBP PPX
   ICU Care
   Nutrition:
   Comments: renal diet
   Lines:
   Arterial Line - [**2123-12-9**] 05:31 AM
   Dialysis Catheter - [**2123-12-10**] 07:44 PM
   20 Gauge - [**2123-12-23**] 12:33 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   Communication: Family meeting held , ICU consent
   Code status: Full code
   Disposition: will call out to floor pending tolerates HD today

2123-12-25 10:24:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   No major events overnight.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2123-12-23**] 11:51 AM
   Infusions:
   Other ICU medications:
   Other medications:
   RISS, midodrine, lactulose, rifaximin, lansoprazole, epogen, prednisone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-25**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.6
   HR: 95 (83 - 97) bpm
   BP: 103/62(80) {97/54(73) - 128/73(95)} mmHg
   RR: 23 (16 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.2 kg (admission): 92 kg
   Height: 62 Inch
                  Total In:
                                                                  1,070 mL
                                                                    600 mL
   PO:
                                                                  1,040 mL
                                                                    600 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    850 mL
                                                                    300 mL
   Urine:
   NG:
   Stool:
                                                                    450 mL
                                                                    300 mL
   Drains:
   Balance:
                                                                    220 mL
                                                                    300 mL
   Respiratory support
   SpO2: 96%
   ABG: ///17/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, Sclera icteric
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : Bases B/L, Diminished:
   bases B/L)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed, No(t) Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   65 K/uL
   108 mg/dL
   3.8 mg/dL
   17 mEq/L
   4.6 mEq/L
   95 mg/dL
   110 mEq/L
   143 mEq/L
   26.7 %
   13.4 K/uL
        [image002.jpg]
                             [**2123-12-20**]  10:13 PM
                             [**2123-12-21**]  04:02 AM
                             [**2123-12-21**]  04:14 AM
                             [**2123-12-21**]  10:04 AM
                             [**2123-12-21**]  10:22 AM
                             [**2123-12-22**]  04:21 AM
                             [**2123-12-22**]  05:24 PM
                             [**2123-12-23**]  05:16 AM
                             [**2123-12-24**]  04:13 AM
                             [**2123-12-25**]  03:40 AM
   WBC
   9.6
   13.2
   16.3
   16.9
   16.9
   13.4
   Hct
   21.7
   21.3
   24.5
   26.9
   26.5
   26.7
   Plt
   13
   20
   25
   33
   52
   65
   Cr
   0.6
   1.8
   1.8
   3.0
   3.8
   TCO2
   23
   22
   21
   Glucose
   131
   115
   127
   126
   110
   108
   Other labs: PT / PTT / INR:25.9/48.4/2.6, CK / CKMB / Troponin-T:28//,
   ALT / AST:214/272, Alk Phos / T Bili:87/29.0, Amylase / Lipase:/41,
   Differential-Neuts:82.0 %, Band:2.0 %, Lymph:5.0 %, Mono:7.0 %, Eos:0.0
   %, Fibrinogen:156 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:2.0 g/dL,
   LDH:240 IU/L, Ca++:9.3 mg/dL, Mg++:2.8 mg/dL, PO4:6.8 mg/dL
   Imaging: No new imaging
   Microbiology: No new micro
   Assessment and Plan
   45yo with ESLD initially admitted with acute alcoholic hepatitis.
   Course has been complicated by ARF requiring CVVH, respiratory failure
   requiring intubation, and now thrombocytopenia
   Thrombocytopenia:   As previously described, likely multifactorial.
   Currently on steroids for concern for autoimmune thrombocytopenia.
   Platelets continue to trend up today.
     -Continue prednisone at 60mg for now, with plans to taper over the
   next several weeks.
    Renal Failure:  Remains anuric.  Currently getting HD with volume
   removal and has tolerated from BP standpoint.
     -Continue epogen.  Start renagel
     -Will plan for tunnelled line next week
    Leukocytosis:   Improved today.  Likely from steroids.
     -Continue to monitor
     -Culture if spikes. High risk for fungal sepsis
    Hypotension: BP the best it has been today.
     -If continues to tolerate HD, could consider weaning midodrine in the
   future.
    Cirrhosis:  Continue lactulose/rifaximin for encephalopathy.  On cipro
   for SBP prophylaxis. Mental status better but still intermittent
   disorientation
    Pulm:  Status much improved but still at overall increased risk of
   aspiration.
     -Continue Pulmonary toilet
    FEN:  Regular diet
   Dispo:  If tolerates HD with fluid removal, will consider floor
   transfer today.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2123-12-9**] 05:31 AM
   Dialysis Catheter - [**2123-12-10**] 07:44 PM
   20 Gauge - [**2123-12-23**] 12:33 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes